2133-01-10 08:30:00 Physician Resident Progress Note
57F with cervical adenocarcinoma with large pulmonary mets and PE
   24 Hour Events:
   A line attempted overnight -- successfully placed this AM.
   Spoke with husband, patient's O2 requirement 4L at home new since
   ~[**12-9**]. Has been having chronic small amounts of hemoptysis at
   home.
 INVASIVE VENTILATION - START [**2133-1-10**] 01:00 AM
 ARTERIAL LINE - START [**2133-1-10**] 06:55 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other medications:
   Levofloxacin 750mg IV daily
   Prednisone 5mg PO daily
   Lansoprazole
   Heparin SQ
   Flowsheet Data as of  [**2133-1-10**] 08:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 100 (100 - 116) bpm
   BP: 94/66(72){92/30(55) - 120/72(84)} mmHg
   RR: 16 (16 - 25) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
             1,081 mL
   PO:
             TF:
   IVF:
   1,081 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    350 mL
   Urine:
   350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    731 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 30
   PIP: 16 cmH2O
   Plateau: 16 cmH2O
   SpO2: 90%
   ABG: 7.42/42/86/24/2
   Ve: 9 L/min
   PaO2 / FiO2: 215
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Bronchial: , Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   270 K/uL
   10.4 g/dL
   169 mg/dL
   0.8 mg/dL
   24 mEq/L
   4.9 mEq/L
   15 mg/dL
   102 mEq/L
   139 mEq/L
   34.0 %
   9.4 K/uL
        [image002.jpg]
   [**1-9**] blood cx NGTD
                             [**2133-1-10**]  03:33 AM
                             [**2133-1-10**]  03:42 AM
   WBC
   9.4
   Hct
   34.0
   Plt
   270
   Cr
   0.8
   TCO2
   28
   Glucose
   169
   Other labs: Lactic Acid:2.6 mmol/L, Ca++:9.6 mg/dL, Mg++:2.1 mg/dL,
   PO4:4.1 mg/dL
   Assessment and Plan
   1. Respiratory distress
   This patient has multiple reasons for worsened dyspnea, including very
   large pulmonary masses (with possibility of bleeding or edema  from
   radiation), PE, post obstructive pneumonia. Not clear that her PEs were
   extensive  enough to greatly exacerbate dyspnea. Consider also
   aspiration, mucus plugging. Bandemia suggests possible infection,
   ?could be related to her underlying malignancy.
   --Would cover with levofloxacin and flagyl empirically for now. Follow
   up cultures and reculture if febrile.
   --Wean vent as tolerated.
   --Continue outpatient inhalers
   2. Pulmonary emboli
   No anticoagulation per IP due to concern for bleeding of pulmonary
   masses in setting of cyberknife treatment. Hemodynamically stable.
   --Consider IVC filter, as she has little pulmonary reserve to defend
   against further PE
   --SQ heparin okay per attending
   3. Hemoptysis
   Hct slightly decreased from one available prior value in OMR. Has had
   small volumes of hemoptysis since [**11-15**]. [**Month (only) 60**] be related to her
   pulmonary masses or PE. Undergoing bronch by IP today.
   --Type and screen, transfuse Hb<9 or actively bleeding
   4. Metastatic cervical adenocarcinoma
   --Will increase prednisone to 60 daily for short course (e.g. 3 day)
   with taper given wheezing
   --Discuss with oncology in AM
   --Paliative care and social work consults
   ICU Care
   Nutrition: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2133-1-10**] 01:01 AM
   Arterial Line - [**2133-1-10**] 06:55 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Communication:  with husband
   [**Name (NI) 66**] status: Full code, to discuss with family today
   Disposition:ICU

2133-01-10 09:36:00 Physician Attending Progress Note
Chief Complaint: SOB
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   57 yo women with adenoCA of cervix, Lung Mets (largest = 6x12cm,
   invading PA) multiple chemoRx, cybernife treatment in lungs since [**Month (only) 591**],
   has had worsening SOB for several weeks.  Yesterday came for cyberknife
   had c/o hemoptysis and SOB - had respiratory code, stabilized on 100%
   NRB went to ED where she was intubated.  CT chest showed multiple small
   PEs.  IP team consulted who recommended not to start anticoag due to
   high risk of bleed and small PEs.  Given steroids, CTX/FLagyl/Levo for
   post-obstructive PNA.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2133-1-10**] 01:00 AM
 ARTERIAL LINE - START [**2133-1-10**] 06:55 AM
   Overnight was hemodynamically stable.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Other medications:
   Levoflox
   Lansoprazol
   SSI
   hep s/q
   Changes to medical and family history:
   [**Doctor Last Name 576**]-Parkinson-White
   Hepatitis C
   non-smoker
   Married, 2 school aged children.
   At home takes Pred 5mg, and inhalers
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-1-10**] 09:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 100 (100 - 116) bpm
   BP: 94/66(72){92/30(55) - 120/72(84)} mmHg
   RR: 16 (16 - 25) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
             1,089 mL
   PO:
             TF:
   IVF:
   1,089 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    350 mL
   Urine:
   350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    739 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 30
   PIP: 16 cmH2O
   Plateau: 16 cmH2O
   SpO2: 90%
   ABG: 7.42/42/86/24/2
   Ve: 9 L/min
   PaO2 / FiO2: 215
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Bronchial: , Wheezes : B/L)
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.4 g/dL
   270 K/uL
   169 mg/dL
   0.8 mg/dL
   24 mEq/L
   4.9 mEq/L
   15 mg/dL
   102 mEq/L
   139 mEq/L
   34.0 %
   9.4 K/uL
        [image002.jpg]
                             [**2133-1-10**]  03:33 AM
                             [**2133-1-10**]  03:42 AM
   WBC
   9.4
   Hct
   34.0
   Plt
   270
   Cr
   0.8
   TCO2
   28
   Glucose
   169
   Other labs: Lactic Acid:2.6 mmol/L, Ca++:9.6 mg/dL, Mg++:2.1 mg/dL,
   PO4:4.1 mg/dL
   Assessment and Plan
 PULMONARY EMBOLISM (PE), ACUTE  Small subsegmental PEs, not likely
   playing a significant role in her respiratory failure
   Respiratory Failure:  [**Month (only) 60**] have postobstructive PNA given h/o increased
   sputum production.  Add Flagyl to cover for anaerobes.  Will try to
   wean and extubate after bronch by IP today.
   Hemoptysis:  to have bronch, but no further hemoptysis in MICU
 CANCER (MALIGNANT NEOPLASM), GYNECOLOGICAL (OVARIAN, UTERINE,
   CERVICAL, ENDOMETRIAL)  Large Pulm. Mets. s/p cyberknife
 .H/O SUPRAVENTRICULAR TACHYCARDIA (SVT)
 WHEEZING:  Also has evidence of obstruction on exam with increased
   exp. phase and diffuse rhonchi - add inhalers and short course of
   steroids - Prednisone 60mg.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2133-1-10**] 01:01 AM
   Arterial Line - [**2133-1-10**] 06:55 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: RSBI
   Comments:
   Communication:  Comments: Need ICU consent.
   Code status: Full code
   Disposition :
   Total time spent: 45 minutes
   Patient is critically ill

2133-01-11 06:09:00 Physician Resident Progress Note
Chief Complaint: dyspnea and hemoptysis
   24 Hour Events:
 BRONCHOSCOPY - At [**2133-1-10**] 09:33 AM
   - BAL done, gram stain 2+ PMN, no microorg seen, culture PND
   - IVC filter placed by IR
   - had SBT with borderline performance but appeared tired,  so decision
   was made to remain intubated overnight
   - pall care c/s'ed but no recs
   - primary radiation oncologist (Dr. [**Last Name (STitle) 604**] stopped by, planning a code
   status discussion early next week
   SUBJ:
   alert and communicative, indicated her discomfort from ET tube
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2133-1-10**] 12:09 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2133-1-10**] 10:07 AM
   Heparin Sodium (Prophylaxis) - [**2133-1-10**] 02:07 PM
   Midazolam (Versed) - [**2133-1-10**] 08:11 PM
   Fentanyl - [**2133-1-10**] 08:11 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-1-11**] 06:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.2
C (97.2
   HR: 127 (96 - 127) bpm
   BP: 118/78(93){88/63(73) - 121/81(96)} mmHg
   RR: 31 (13 - 34) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 90.9 kg (admission): 91.5 kg
   Height: 65 Inch
             Total In:
                                                                  1,537 mL
                                                                    338 mL
   PO:
             TF:
   IVF:
                                                                  1,417 mL
                                                                     98 mL
   Blood products:
   Total out:
                                                                    907 mL
                                                                    155 mL
   Urine:
                                                                    750 mL
                                                                    155 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    630 mL
                                                                    183 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 410 (409 - 542) mL
   PS : 5 cmH2O
   RR (Set): 15
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 71
   PIP: 16 cmH2O
   SpO2: 98%
   ABG: 7.40/49/68/29/3
   Ve: 9.5 L/min
   PaO2 / FiO2: 136
   Physical Examination
   General Appearance: Well nourished, sleepy but alert
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Crackles : , Diminished: at bases, Rhonchorous: diffusely insp > exp)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 1+, Left: 1+, diffuse b/l non-pitting edema
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   245 K/uL
   10.2 g/dL
   116 mg/dL
   0.7 mg/dL
   29 mEq/L
   4.6 mEq/L
   21 mg/dL
   102 mEq/L
   138 mEq/L
   33.0 %
   9.3 K/uL
        [image002.jpg]
                             [**2133-1-10**]  03:33 AM
                             [**2133-1-10**]  03:42 AM
                             [**2133-1-11**]  04:31 AM
                             [**2133-1-11**]  04:43 AM
   WBC
   9.4
   9.3
   Hct
   34.0
   33.0
   Plt
   270
   245
   Cr
   0.8
   0.7
   TCO2
   28
   31
   Glucose
   169
   116
   Other labs: Lactic Acid:2.6 mmol/L, Ca++:9.9 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.2 mg/dL
   Fluid analysis / Other labs: BAL:
   no WBCs
   no RBCs
   .
   U/A no [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) **] nitrites
   Imaging: FINDINGS:  The ET tube is 4.6 cm above the carina.  The NG
   tube tip is in the
   stomach.  There is no significant change in the bilateral large lung
   masses.
   Microbiology: [**2133-1-10**] 9:19 am URINE      Source: Catheter.
      URINE CULTURE (Pending):
   .
   [**2133-1-10**] 9:40 am BRONCHOALVEOLAR LAVAGE
      GRAM STAIN (Final [**2133-1-10**]):
         2+   (1-5 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         NO MICROORGANISMS SEEN.
   RESPIRATORY CULTURE (Pending):
   .
   [**2133-1-9**] 6:00 pm BLOOD CULTURE
      Blood Culture, Routine (Pending):
   Assessment and Plan
   1. Respiratory distress
   DDx includes very large pulmonary masses (with possibility of bleeding
   or edema  from radiation), PE, and post obstructive pneumonia] Consider
   also aspiration, mucus plugging. Of note, her P/F ratio is ~140.
   --continue empiric post-obstructive PNA coverage with levofloxacin and
   flagyl (started [**1-10**]) for now. Follow up cultures and reculture if
   febrile.
   -- f/u bronchoscopy cultures, cytology if any
   -- RSBI this AM 73, plan to extubate but for now increase sedation as
   appears uncomfortable
   -- Continue outpatient inhalers
   -- continue prednisone 60 daily for 4 day course given wheezing, plan
   for taper
   -- concern for ARDS but no bilateral fluffy infiltrates on CXR so far
   f/u this AM
   2. Pulmonary emboli
   Not anticoagulated per IP due to concern for bleeding of pulmonary
   masses in setting of cyberknife treatment (SQ heparin okay)
   -- Continues to be hemodynamically stable.
   -- s/p IVC filter, appreciate IR involvement
   3. Hemoptysis
   Hct continues to mildly decrease. Has had small volumes of hemoptysis
   since [**11-15**]. [**Month (only) 60**] be related to her pulmonary masses or PE.
   --Type and screen, transfuse Hb<9 or actively bleeding
   4. Metastatic cervical adenocarcinoma
   --appreciate rad onc involvement, plan for family meeting to discuss
   prognosis and code status
   --Paliative care and social work consults pending
   ICU Care
   Nutrition:
   Comments: NPO for now, regular diet after ET is d/c'ed
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2133-1-10**] 01:01 AM
   Arterial Line - [**2133-1-10**] 06:55 AM
   18 Gauge - [**2133-1-10**] 07:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code pending family discussion
   Disposition:ICU

2133-01-12 07:08:00 Physician Resident Progress Note
Chief Complaint: 57F with cervical cancer and large pulmonary mets s/p
   chemo and cyberknife admitted with SOB
   24 Hour Events:
   - Ended up not extubating her, became oversedated and extubation
   deferred for today
   - Spoke with husband; patient's 13 and 15yo sons not aware that she has
   cancer, Social Work to discuss with him how to approach the matter with
   his kids
   - Palliative Care consult pending; Social Work to see
   - Family expecting to talk with Dr. [**Last Name (STitle) 604**] about big picture tomorrow
   - Became increasingly hypotensive down to 70/50 from 10-11pm; Gave IV
   fluids and decreased sedation with resulting increase in SBP to 90s and
   better urine output
 EKG - At [**2133-1-11**] 11:30 PM
   Subjective:
   Denies pain, but wants to get off of vent
   Allergies:
   No Known Drug Allergies
   Antibiotics:
   Levofloxacin 750mg IV daily d3
   Flagyl 500mg PO TID d3
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 25 mcg/hour
   Other medications:
   Prednisone 60 dialy
   Insulin SS
   Albuterol, ipratropium
   Lansoprazole
   SQ heparin
   Flowsheet Data as of  [**2133-1-12**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.1
C (97
   HR: 94 (88 - 127) bpm
   BP: 105/68(82){83/56(67) - 112/74(88)} mmHg
   RR: 18 (15 - 20) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91.3 kg (admission): 91.5 kg
   Height: 65 Inch
             Total In:
                                                                  3,919 mL
                                                                  1,175 mL
   PO:
             TF:
   IVF:
                                                                  3,639 mL
                                                                  1,175 mL
   Blood products:
   Total out:
                                                                  1,069 mL
                                                                    205 mL
   Urine:
                                                                    769 mL
                                                                    205 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                  2,850 mL
                                                                    970 mL
   Respiratory support
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 459 (344 - 459) mL
   PS : 20 cmH2O
   RR (Set): 15
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 143
   PIP: 37 cmH2O
   Plateau: 24 cmH2O
   SpO2: 97%
   ABG: 7.42/46/95.[**Numeric Identifier 96**]/30/4
   Ve: 9.6 L/min
   PaO2 / FiO2: 192
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   , No(t) Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Cool
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement: Not
   assessed, Tone: Not assessed, able to write questions
   Labs / Radiology
   173 K/uL
   8.4 g/dL
   158 mg/dL
   0.5 mg/dL
   30 mEq/L
   4.1 mEq/L
   18 mg/dL
   103 mEq/L
   137 mEq/L
   27.2 %
   6.8 K/uL
        [image002.jpg]
   CXR:
   FINDINGS:  In comparison to the previous radiograph, there is no
   relevant
   change.  Endotracheal tube and the nasogastric tube are in unchanged
   position.
   Also unchanged is the radiographic aspect of the lungs with known
   multiple
   nodules and masses caused by metastatic disease.  The size of the
   cardiac
   silhouette is unchanged.  No pleural effusions.
   IMPRESSION:  Unchanged radiographic appearance as compared to [**1-11**],
   [**2132**].
   Micro
   [**1-9**] blood cx NGTD
   [**1-10**] BAL 2+ polys no organisms on gram, cx NGTD
   [**1-10**] urine cx NGTD
                             [**2133-1-10**]  03:33 AM
                             [**2133-1-10**]  03:42 AM
                             [**2133-1-11**]  04:31 AM
                             [**2133-1-11**]  04:43 AM
                             [**2133-1-11**]  11:19 AM
                             [**2133-1-11**]  10:57 PM
                             [**2133-1-12**]  02:37 AM
                             [**2133-1-12**]  05:22 AM
   WBC
   9.4
   9.3
   5.6
   6.8
   Hct
   34.0
   33.0
   26.3
   27.2
   Plt
   [**Telephone/Fax (3) 627**]73
   Cr
   0.8
   0.7
   0.7
   0.5
   TCO2
   28
   31
   36
   31
   Glucose
   169
   116
   224
   158
   Other labs: PT / PTT / INR:16.1/38.0/1.4, Differential-Neuts:92.4 %,
   Band:Units: %
   Range: 0-5 %, Lymph:3.0 %, Mono:3.2 %, Eos:1.3 %, Lactic Acid:1.9
   mmol/L, Ca++:8.7 mg/dL, Mg++:1.8 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   1. Respiratory distress
   DDx includes very large pulmonary masses (with possibility of bleeding
   or edema  from radiation), PE, and post obstructive pneumonia.
   -- RSBI this AM 143, concern that extubation now would lead to need for
   reintubation. Continue on PSV for now weaning as tolerated, reassess in
   afternoon.
   --continue empiric post-obstructive PNA coverage with levofloxacin and
   flagyl (started [**1-10**]). Follow up cultures.
   -- Continue outpatient inhalers though obstruction likely to be mainly
   mass related
   -- Continue prednisone 60 daily for 4 day course given ?radiation
   related edema, no taper needed
   2. Pulmonary emboli
   Not anticoagulated per IP due to concern for bleeding of pulmonary
   masses in setting of cyberknife treatment (SQ heparin okay)
   -- Continues to be hemodynamically stable.
   -- s/p IVC filter, appreciate IR involvement
   --Contact IP if hemoptysis returns
   3. Hemoptysis
   Hct ~stable. Has had small volumes of hemoptysis since [**Month (only) 102**]
   [**Month (only) 60**] be related to her pulmonary masses or PE.
   --Type and screen, transfuse HCT <25 or actively bleeding (IP aware)
   4. Metastatic cervical adenocarcinoma
   --appreciate rad onc involvement, plan for family meeting to discuss
   prognosis and code status
   --Paliative care and social work consults pending
   ICU Care
   Nutrition: NPO consider tube feeds
   Glycemic Control:  Regular insulin sliding scale, Comments: tighten
   scale
   Lines:
   20 Gauge - [**2133-1-10**] 01:01 AM
   Arterial Line - [**2133-1-10**] 06:55 AM
   18 Gauge - [**2133-1-10**] 07:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2133-01-12 10:37:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Tolerated SBT poorly with tachynea and anxiety
   24 Hour Events:
 EKG - At [**2133-1-11**] 11:30 PM
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2133-1-11**] 09:29 AM
   Levofloxacin - [**2133-1-12**] 10:13 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2133-1-11**] 12:14 PM
   Heparin Sodium (Prophylaxis) - [**2133-1-11**] 04:14 PM
   Midazolam (Versed) - [**2133-1-12**] 08:45 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Chest pain, Tachycardia
   Respiratory: Dyspnea, Tachypnea
   Psychiatric / Sleep: Sedated
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2133-1-12**] 10:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 35.3
C (95.6
   HR: 108 (88 - 127) bpm
   BP: 115/67(83){83/56(67) - 141/75(97)} mmHg
   RR: 25 (15 - 26) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 91.3 kg (admission): 91.5 kg
   Height: 65 Inch
             Total In:
                                                                  3,919 mL
                                                                  1,751 mL
   PO:
             TF:
   IVF:
                                                                  3,639 mL
                                                                  1,676 mL
   Blood products:
   Total out:
                                                                  1,069 mL
                                                                    285 mL
   Urine:
                                                                    769 mL
                                                                    285 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                  2,850 mL
                                                                  1,466 mL
   Respiratory support
   Ventilator mode: CPAP/PSV+ApnVol
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 459 (344 - 459) mL
   PS : 10 cmH2O
   RR (Set): 15
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 54
   PIP: 37 cmH2O
   Plateau: 24 cmH2O
   SpO2: 95%
   ABG: 7.42/46/95.[**Numeric Identifier 96**]/30/4
   Ve: 9.6 L/min
   PaO2 / FiO2: 160
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : diffuse  mid insp, Bronchial: , Wheezes : ,
   Diminished: )
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Unable to stand
   Skin:  Cool
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   173 K/uL
   158 mg/dL
   0.5 mg/dL
   30 mEq/L
   4.1 mEq/L
   18 mg/dL
   103 mEq/L
   137 mEq/L
   27.2 %
   6.8 K/uL
        [image002.jpg]
                             [**2133-1-10**]  03:33 AM
                             [**2133-1-10**]  03:42 AM
                             [**2133-1-11**]  04:31 AM
                             [**2133-1-11**]  04:43 AM
                             [**2133-1-11**]  11:19 AM
                             [**2133-1-11**]  10:57 PM
                             [**2133-1-12**]  02:37 AM
                             [**2133-1-12**]  05:22 AM
   WBC
   9.4
   9.3
   5.6
   6.8
   Hct
   34.0
   33.0
   26.3
   27.2
   Plt
   [**Telephone/Fax (3) 627**]73
   Cr
   0.8
   0.7
   0.7
   0.5
   TCO2
   28
   31
   36
   31
   Glucose
   169
   116
   224
   158
   Other labs: PT / PTT / INR:16.1/38.0/1.4, Differential-Neuts:92.4 %,
   Band:Units: %
   Range: 0-5 %, Lymph:3.0 %, Mono:3.2 %, Eos:1.3 %, Lactic Acid:1.9
   mmol/L, Ca++:8.7 mg/dL, Mg++:1.8 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
 PULMONARY EMBOLISM (PE), ACUTE - Segmental PE seems unlikely to be a
   major contributor to respiratory failure which is almost certainly due
   to tumor bulk.  Will continue of PSV for now and try again later to
   decrease but it is unclear what we can reverse here.  Plan for
   discussions with social service and palliative care.
   RESPIRATORY THERAPY
 CANCER (MALIGNANT NEOPLASM), GYNECOLOGICAL (OVARIAN, UTERINE,
   CERVICAL, ENDOMETRIAL) - no further therapy plannned - unclear if she
   can have further cyberknife treatment
 .H/O SUPRAVENTRICULAR TACHYCARDIA (SVT)
 WHEEZING
   ANEMIA - stable
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2133-1-10**] 01:01 AM
   Arterial Line - [**2133-1-10**] 06:55 AM
   18 Gauge - [**2133-1-10**] 07:00 AM
   Prophylaxis:
   DVT: Boots, IVC filter
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU - needs discussion of level of care today
   Total time spent: 45 minutes
   Patient is critically ill

2133-01-13 07:27:00 Physician Resident Progress Note
Chief Complaint: dyspnea, hemoptysis
   24 Hour Events:
   Multidisciplinary meeting with rad onc, palliative care, MICU with
   husband and patient's sister
   [**Name (NI) 66**] status is DNR, but plan to continue current level of care for now.
   Continue vent next 5-10 days hoping for effect
   from cyberknife.
   Husband to talk with children this week about her illness
   SUBJ:
   alert and interactive, attempted to communicate via writing but unable
   to read her attempts
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2133-1-12**] 10:13 AM
   Metronidazole - [**2133-1-12**] 06:00 PM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2133-1-12**] 08:45 AM
   Pantoprazole (Protonix) - [**2133-1-12**] 12:08 PM
   Heparin Sodium (Prophylaxis) - [**2133-1-12**] 02:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-1-13**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 117 (88 - 117) bpm
   BP: 112/75(89){84/53(65) - 141/75(97)} mmHg
   RR: 24 (16 - 26) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 91.3 kg (admission): 91.5 kg
   Height: 65 Inch
             Total In:
                                                                  3,031 mL
                                                                    622 mL
   PO:
             TF:
   IVF:
                                                                  2,851 mL
                                                                    572 mL
   Blood products:
   Total out:
                                                                    888 mL
                                                                    320 mL
   Urine:
                                                                    888 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,143 mL
                                                                    302 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 525 (320 - 525) mL
   PS : 15 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI: 54
   RSBI Deferred: FiO2 > 60%
   SpO2: 97%
   ABG: ///32/
   Ve: 10.3 L/min
   Physical Examination
   General Appearance: intubated, groggy but alert
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardia, no m/r/g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ),
   clear anteriorly and at bases
   Abdominal: Soft, Non-tender, hypoactive BS
   Extremities: Right: 1+, Left: 1+, non-pitting edema
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   172 K/uL
   8.4 g/dL
   129 mg/dL
   0.5 mg/dL
   32 mEq/L
   4.0 mEq/L
   15 mg/dL
   99 mEq/L
   135 mEq/L
   25.5 %
   7.1 K/uL
        [image002.jpg]
                             [**2133-1-10**]  03:33 AM
                             [**2133-1-10**]  03:42 AM
                             [**2133-1-11**]  04:31 AM
                             [**2133-1-11**]  04:43 AM
                             [**2133-1-11**]  11:19 AM
                             [**2133-1-11**]  10:57 PM
                             [**2133-1-12**]  02:37 AM
                             [**2133-1-12**]  05:22 AM
                             [**2133-1-13**]  05:59 AM
   WBC
   9.4
   9.3
   5.6
   6.8
   7.1
   Hct
   34.0
   33.0
   26.3
   27.2
   25.5
   Plt
   [**Telephone/Fax (3) 627**]73
   172
   Cr
   0.8
   0.7
   0.7
   0.5
   0.5
   TCO2
   28
   31
   36
   31
   Glucose
   169
   116
   224
   158
   129
   Other labs: PT / PTT / INR:16.1/38.0/1.4, Differential-Neuts:92.4 %,
   Band:Units: %
   Range: 0-5 %, Lymph:3.0 %, Mono:3.2 %, Eos:1.3 %, Lactic Acid:1.9
   mmol/L, Ca++:8.6 mg/dL, Mg++:1.8 mg/dL, PO4:1.9 mg/dL
   Imaging: [**1-13**] CXR pending
   [**1-12**] CXR
   FINDINGS:  In comparison to the previous radiograph, there is no
   relevant change.  Endotracheal tube and the nasogastric tube are in
   unchanged position.
   Also unchanged is the radiographic aspect of the lungs with known
   multiple
   nodules and masses caused by metastatic disease.  The size of the
   cardiac silhouette is unchanged.  No pleural effusions.
   IMPRESSION:  Unchanged radiographic appearance as compared to [**1-11**],
   [**2132**].
   Microbiology: [**2133-1-10**] 9:19 am URINE      Source: Catheter.
                               **FINAL REPORT [**2133-1-12**]**
      URINE CULTURE (Final [**2133-1-12**]):    NO GROWTH.
   .
   .
   [**2133-1-10**] 9:40 am BRONCHOALVEOLAR LAVAGE
                               **FINAL REPORT [**2133-1-12**]**
      GRAM STAIN (Final [**2133-1-10**]):
         2+   (1-5 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Final [**2133-1-12**]):    NO GROWTH, <1000 CFU/ml.
   .
   [**1-9**] BCx: NGTD
   Assessment and Plan
   1. Respiratory distress
   DDx includes very large pulmonary masses (with possibility of bleeding
   or edema  from radiation), PE, and post obstructive pneumonia.
   -- RSBI this AM 57 (143 yesterday), but tires easily and still with
   thick and bloody secretions. This is concerning that extubation now
   would lead to need for reintubation. Switch to AC for now
   -- check ABG this PM
   -- continue empiric post-obstructive PNA coverage with levofloxacin and
   flagyl (started [**1-10**]). Follow up cultures (all NGTD). No clinical signs
   of infection (no leukocytosis despite steroids, no fevers)
   -- Continue outpatient albuterol/ipratropium inhalers though
   obstruction likely to be mainly mass related
   -- Continue prednisone 60 daily for 4 day course (end [**1-14**]) given
   ?radiation related edema, no taper needed
   -- serial CXRs
   2. Pulmonary emboli
   Not anticoagulated per IP due to concern for bleeding of pulmonary
   masses in setting of cyberknife treatment (SQ heparin okay)
   -- Continues to be hemodynamically stable.
   -- s/p IVC filter, appreciate IR involvement
   -- Contact IP if hemoptysis returns
   3. Hemoptysis
   Hct ~stable. Has had small volumes of hemoptysis since [**Month (only) 102**]
   [**Month (only) 60**] be related to her pulmonary masses or PE.
   -- maintain type and screen
   -- check PM HCT today
   --  transfuse HCT <25 or actively bleeding (IP aware)
   4. Metastatic cervical adenocarcinoma
   --appreciate rad onc involvement, Paliative care and social work
   consults
 no further treatment, code is DNR, waiting until family can
   arrive for extubation
   ICU Care
   Nutrition:
   Comments: NPO, no need to feed right now
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2133-1-10**] 01:01 AM
   Arterial Line - [**2133-1-10**] 06:55 AM
   18 Gauge - [**2133-1-10**] 07:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin, IVC filter
   Stress ulcer: PPI
   VAP: Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate), to remain intubated until
   family/children can arrive
   Disposition:ICU

2133-01-13 11:25:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   SOB on PSV
   24 Hour Events:
   Family Meeting [**1-12**]
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2133-1-12**] 06:00 PM
   Levofloxacin - [**2133-1-13**] 09:30 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2133-1-12**] 12:08 PM
   Heparin Sodium (Prophylaxis) - [**2133-1-12**] 02:20 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: NPO
   Respiratory: Dyspnea, Tachypnea
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2133-1-13**] 11:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.9
C (96.7
   HR: 103 (88 - 117) bpm
   BP: 101/71(83){84/53(65) - 112/75(89)} mmHg
   RR: 25 (16 - 26) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 91.3 kg (admission): 91.5 kg
   Height: 65 Inch
             Total In:
                                                                  3,031 mL
                                                                    953 mL
   PO:
             TF:
   IVF:
                                                                  2,851 mL
                                                                    903 mL
   Blood products:
   Total out:
                                                                    888 mL
                                                                    440 mL
   Urine:
                                                                    888 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,143 mL
                                                                    513 mL
   Respiratory support
   Ventilator mode: SIMV/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 525 (419 - 525) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%
   PIP: 21 cmH2O
   SpO2: 98%
   ABG: 7.44/51/105/32/8
   Ve: 8.2 L/min
   PaO2 / FiO2: 175
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : )
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   172 K/uL
   129 mg/dL
   0.5 mg/dL
   32 mEq/L
   4.0 mEq/L
   15 mg/dL
   99 mEq/L
   135 mEq/L
   25.5 %
   7.1 K/uL
        [image002.jpg]
                             [**2133-1-10**]  03:33 AM
                             [**2133-1-10**]  03:42 AM
                             [**2133-1-11**]  04:31 AM
                             [**2133-1-11**]  04:43 AM
                             [**2133-1-11**]  11:19 AM
                             [**2133-1-11**]  10:57 PM
                             [**2133-1-12**]  02:37 AM
                             [**2133-1-12**]  05:22 AM
                             [**2133-1-13**]  05:59 AM
                             [**2133-1-13**]  07:49 AM
   WBC
   9.4
   9.3
   5.6
   6.8
   7.1
   Hct
   34.0
   33.0
   26.3
   27.2
   25.5
   Plt
   [**Telephone/Fax (3) 627**]73
   172
   Cr
   0.8
   0.7
   0.7
   0.5
   0.5
   TCO2
   28
   31
   36
   31
   36
   Glucose
   169
   116
   224
   158
   129
   Other labs: PT / PTT / INR:16.1/38.0/1.4, Differential-Neuts:92.4 %,
   Band:Units: %
   Range: 0-5 %, Lymph:3.0 %, Mono:3.2 %, Eos:1.3 %, Lactic Acid:1.9
   mmol/L, Ca++:8.6 mg/dL, Mg++:1.8 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]) - not tolerating PSV. Will
   try her on AC and see if we can reduce sedation.
 CANCER (MALIGNANT NEOPLASM), GYNECOLOGICAL (OVARIAN, UTERINE,
   CERVICAL, ENDOMETRIAL) - waiting to see if there is any response to
   cyberknife. Rad Onc suggests we will see any change within 7 days
 PULMONARY EMBOLISM (PE), ACUTE - filter in place
 .H/O SUPRAVENTRICULAR TACHYCARDIA (SVT) - HR has been stable
 WHEEZING - due to diffuse obstruction
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2133-1-10**] 01:01 AM
   Arterial Line - [**2133-1-10**] 06:55 AM
   18 Gauge - [**2133-1-10**] 07:00 AM
   Prophylaxis:
   DVT: Boots, IVC filter
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2133-01-14 07:43:00 Physician Resident Progress Note
Chief Complaint: dyspnea, hemoptysis
   24 Hour Events:
 PICC LINE - START [**2133-1-13**] 02:43 PM
   remained intubated, switched to A/C for apparent tiring. ABGs ok
   had asx hypotension to 90s, no action taken
   Family met with oncology and changed code status to DNR; would not
   initiate pressors
   Plan for sons to come to ICU on Thursday or [**Name (NI) 655**]
   Subjective:  denies pain; breathing fine on vent; c/o need to blow her
   nose
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2133-1-12**] 06:00 PM
   Levofloxacin - [**2133-1-13**] 09:30 AM
   Infusions:
   Fentanyl - 12.5 mcg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2133-1-13**] 12:00 PM
   Midazolam (Versed) - [**2133-1-13**] 01:45 PM
   Fentanyl - [**2133-1-13**] 01:45 PM
   Heparin Sodium (Prophylaxis) - [**2133-1-13**] 02:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: +thirsty; +rinorrhea
   Flowsheet Data as of  [**2133-1-14**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.9
C (98.5
   HR: 102 (92 - 114) bpm
   BP: 112/71(86){86/55(67) - 112/71(86)} mmHg
   RR: 22 (19 - 25) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 91.3 kg (admission): 91.5 kg
   Height: 65 Inch
             Total In:
                                                                  2,025 mL
                                                                    587 mL
   PO:
             TF:
   IVF:
                                                                  1,895 mL
                                                                    587 mL
   Blood products:
   Total out:
                                                                    945 mL
                                                                    390 mL
   Urine:
                                                                    945 mL
                                                                    390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,080 mL
                                                                    197 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 14
   RR (Spontaneous): 7
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 19 cmH2O
   Plateau: 18 cmH2O
   SpO2: 96%
   ABG: 7.42/49/101/34/5
   Ve: 9.6 L/min
   PaO2 / FiO2: 168
   Physical Examination
   General Appearance: Well nourished, Awake, appears worn out, writing on
   paper pad
   Eyes / Conjunctiva: pupils equal
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), no murmur
   Peripheral Vascular: good distal pulses b/l
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : in
   upper airways, Diminished: at bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: No LE edema
   Skin:  Not assessed
   Neurologic: Attentive but sleepy, Follows simple commands
   Labs / Radiology
   200 K/uL
   7.9 g/dL
   144 mg/dL
   0.5 mg/dL
   34 mEq/L
   3.9 mEq/L
   16 mg/dL
   101 mEq/L
   138 mEq/L
   24.6 %
   5.8 K/uL
        [image002.jpg]
                             [**2133-1-11**]  04:43 AM
                             [**2133-1-11**]  11:19 AM
                             [**2133-1-11**]  10:57 PM
                             [**2133-1-12**]  02:37 AM
                             [**2133-1-12**]  05:22 AM
                             [**2133-1-13**]  05:59 AM
                             [**2133-1-13**]  07:49 AM
                             [**2133-1-13**]  02:27 PM
                             [**2133-1-13**]  02:49 PM
                             [**2133-1-14**]  05:50 AM
   WBC
   5.6
   6.8
   7.1
   8.1
   5.8
   Hct
   26.3
   27.2
   25.5
   26.6
   24.6
   Plt
   165
   173
   172
   206
   200
   Cr
   0.7
   0.5
   0.5
   0.5
   TCO2
   31
   36
   31
   36
   33
   Glucose
   [**Telephone/Fax (3) 691**]44
   Other labs: PT / PTT / INR:15.2/34.1/1.3, Differential-Neuts:92.4 %,
   Band:Units: %
   Range: 0-5 %, Lymph:3.0 %, Mono:3.2 %, Eos:1.3 %, Lactic Acid:1.1
   mmol/L, Ca++:8.5 mg/dL, Mg++:2.0 mg/dL, PO4:2.4 mg/dL
   Imaging: CXR [**1-13**]:
   Endotracheal tube in good position.  No significant change since
   the last exam in the appearance of multiple pulmonary metastatic
   masses.
   Microbiology: UCx negative
   BCx NGTD
   BAL sample:
      GRAM STAIN (Final [**2133-1-10**]):
         2+   (1-5 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Final [**2133-1-12**]):    NO GROWTH, <1000 CFU/ml.
   Assessment and Plan
   57yo woman with metastatic cervical adenocarcinoma and respiratory
   failure.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]):
   Due to progression of underlying cancer with pulmonary masses, although
   may have had component of PE and/or radiation edema.
   -          s/p treatment with prednisone for radiation-related
   pulmonary edema
   -          failed SBT and tires with PS, so continue on current vent
   settings
   -          still receiving antibiotics (levo and flagyl since [**1-10**]) for
   possible post-obstructive pneumonia, though little clinical evidence
   for infection
 CANCER (MALIGNANT NEOPLASM), GYNECOLOGICAL (OVARIAN, UTERINE,
   CERVICAL, ENDOMETRIAL)
   -          appreciate assistance from Rad/Onc, palliative care, and
   social work
   -          will know by Fri/Sat if tumor responded to radiation
   -          anticipate family to come to patient over next 3 days
 PULMONARY EMBOLISM (PE), ACUTE:
   -          s/p IVC filter; not anticoagulated due to bleeding risk from
   tumor
   -          would consider contacting [**Name2 (NI) 707**] if hemoptysis returns
 WHEEZING:
   -          supportive care with nebulizers and suctioning PRN
   ICU Care
   Nutrition:
   Comments: NPO for now depending on goals of care
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2133-1-10**] 01:01 AM
   Arterial Line - [**2133-1-10**] 06:55 AM
   18 Gauge - [**2133-1-10**] 07:00 AM
   PICC Line - [**2133-1-13**] 02:43 PM
   Prophylaxis:
   DVT: Heparin SubQ
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments: Held meeting with attending, patient, and
   patient
s sister today; understands that waiting for [**Year (4 digits) 655**] to know if
   tumor responded to radiation, but that this is unlikely.  Also
   understands that she is unlikely to be able to breathe on her own if
   extubated.  Shared with patient that if tumor has not responded, team
   could provide care to keep her comfortable.
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2133-01-14 11:39:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2133-1-13**] 02:43 PM
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2133-1-12**] 06:00 PM
   Levofloxacin - [**2133-1-14**] 10:00 AM
   Infusions:
   Fentanyl - 12.5 mcg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2133-1-13**] 12:00 PM
   Midazolam (Versed) - [**2133-1-13**] 01:45 PM
   Fentanyl - [**2133-1-13**] 01:45 PM
   Heparin Sodium (Prophylaxis) - [**2133-1-13**] 02:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2133-1-14**] 11:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.5
C (97.7
   HR: 102 (92 - 114) bpm
   BP: 100/65(78){86/55(67) - 113/71(87)} mmHg
   RR: 21 (19 - 25) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 91.3 kg (admission): 91.5 kg
   Height: 65 Inch
             Total In:
                                                                  2,027 mL
                                                                    933 mL
   PO:
             TF:
   IVF:
                                                                  1,897 mL
                                                                    933 mL
   Blood products:
   Total out:
                                                                    945 mL
                                                                    550 mL
   Urine:
                                                                    945 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,082 mL
                                                                    383 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 14
   RR (Spontaneous): 7
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 16 cmH2O
   Plateau: 18 cmH2O
   SpO2: 98%
   ABG: 7.42/49/101/34/5
   Ve: 8.7 L/min
   PaO2 / FiO2: 168
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.9 g/dL
   200 K/uL
   144 mg/dL
   0.5 mg/dL
   34 mEq/L
   3.9 mEq/L
   16 mg/dL
   101 mEq/L
   138 mEq/L
   24.6 %
   5.8 K/uL
         [image002.jpg]
                             [**2133-1-11**]  04:43 AM
                             [**2133-1-11**]  11:19 AM
                             [**2133-1-11**]  10:57 PM
                             [**2133-1-12**]  02:37 AM
                             [**2133-1-12**]  05:22 AM
                             [**2133-1-13**]  05:59 AM
                             [**2133-1-13**]  07:49 AM
                             [**2133-1-13**]  02:27 PM
                             [**2133-1-13**]  02:49 PM
                             [**2133-1-14**]  05:50 AM
   WBC
   5.6
   6.8
   7.1
   8.1
   5.8
   Hct
   26.3
   27.2
   25.5
   26.6
   24.6
   Plt
   165
   173
   172
   206
   200
   Cr
   0.7
   0.5
   0.5
   0.5
   TCO2
   31
   36
   31
   36
   33
   Glucose
   [**Telephone/Fax (3) 691**]44
   Other labs: PT / PTT / INR:15.2/34.1/1.3, Differential-Neuts:92.4 %,
   Band:Units: %
   Range: 0-5 %, Lymph:3.0 %, Mono:3.2 %, Eos:1.3 %, Lactic Acid:1.1
   mmol/L, Ca++:8.5 mg/dL, Mg++:2.0 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]) now being supported with AC
   ventilation.  Having some discomfort from the ETT. We are giving her
   minimal sedation. We will present prognosis to her today and let her
   decide whether she wishes to continueon the ventilator
 CANCER (MALIGNANT NEOPLASM), GYNECOLOGICAL (OVARIAN, UTERINE,
   CERVICAL, ENDOMETRIAL) - little likehood of responding to cyberknife.
   If there is any change should be seen in the next few days
 PULMONARY EMBOLISM (PE), ACUTE - IVC filter in place
 .H/O SUPRAVENTRICULAR TACHYCARDIA (SVT)
 WHEEZING
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2133-1-10**] 01:01 AM
   Arterial Line - [**2133-1-10**] 06:55 AM
   18 Gauge - [**2133-1-10**] 07:00 AM
   PICC Line - [**2133-1-13**] 02:43 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2133-01-15 07:34:00 Physician Resident Progress Note
Chief Complaint: hypoxia and respiratory failure
   24 Hour Events:
   Sons came to see her
 FEVER - 101.1
F - [**2133-1-15**] 12:00 AM
   -- blood ,sputum, and urine cultured, CXR performed
   Dropped SBP to 70s overnight with a higher propofol dose (for comfort);
   BP came up immediately on entering room, propofol decreased, and got
   IVF 500cc fb x2
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2133-1-14**] 10:00 AM
   Metronidazole - [**2133-1-14**] 08:21 PM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2133-1-14**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2133-1-14**] 01:53 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-1-15**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.5
C (99.5
   HR: 114 (97 - 129) bpm
   BP: 103/63(73){76/51(61) - 138/80(100)} mmHg
   RR: 21 (20 - 26) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 91.3 kg (admission): 91.5 kg
   Height: 65 Inch
             Total In:
                                                                  2,372 mL
                                                                    778 mL
   PO:
             TF:
   IVF:
                                                                  2,372 mL
                                                                    778 mL
   Blood products:
   Total out:
                                                                  1,520 mL
                                                                    600 mL
   Urine:
                                                                  1,520 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    852 mL
                                                                    178 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 401 (400 - 401) mL
   RR (Set): 14
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%
   PIP: 22 cmH2O
   Plateau: 19 cmH2O
   SpO2: 99%
   ABG: 7.49/46/87.[**Numeric Identifier 244**]/32/10
   Ve: 8.9 L/min
   PaO2 / FiO2: 147
   Physical Examination
   General Appearance: ill appearing
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, alpecia
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic and regular
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), coarse expiraotry BS and
   wheezes b/l at bases and anteriorly
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   245 K/uL
   8.1 g/dL
   106 mg/dL
   0.5 mg/dL
   32 mEq/L
   3.5 mEq/L
   12 mg/dL
   100 mEq/L
   137 mEq/L
   25.2 %
   5.9 K/uL
        [image002.jpg]
                             [**2133-1-11**]  10:57 PM
                             [**2133-1-12**]  02:37 AM
                             [**2133-1-12**]  05:22 AM
                             [**2133-1-13**]  05:59 AM
                             [**2133-1-13**]  07:49 AM
                             [**2133-1-13**]  02:27 PM
                             [**2133-1-13**]  02:49 PM
                             [**2133-1-14**]  05:50 AM
                             [**2133-1-15**]  01:30 AM
                             [**2133-1-15**]  04:50 AM
   WBC
   5.6
   6.8
   7.1
   8.1
   5.8
   5.9
   Hct
   26.3
   27.2
   25.5
   26.6
   24.6
   25.2
   Plt
   165
   173
   172
   [**Telephone/Fax (3) 742**]
   Cr
   0.7
   0.5
   0.5
   0.5
   0.5
   TCO2
   31
   36
   33
   36
   Glucose
   [**Telephone/Fax (3) 691**]44
   106
   Other labs: PT / PTT / INR:15.2/34.1/1.3, Differential-Neuts:92.4 %,
   Band:Units: %
   Range: 0-5 %, Lymph:3.0 %, Mono:3.2 %, Eos:1.3 %, Lactic Acid:1.1
   mmol/L, Ca++:8.0 mg/dL, Mg++:1.8 mg/dL, PO4:1.8 mg/dL
   Fluid analysis / Other labs: U/A: hazy, mod leuks, 9 WBCs (0 epis)
   (essentially no chnage from prior on [**1-10**])
   Imaging: [**1-15**] CXR final read PND
   .
   [**1-14**] CXR
   Moderate left pleural effusion is new and greater opacification in the
   right
   hemithorax could be pleural effusion or developing pneumonia or
   hemorrhage
   surrounding the large lung masses.  The heart is entirely obscured by
   adjacent
   pleural and parenchymal abnormalities.  There is no pneumothorax.  ET
   tube is
   in standard placement.  Nasogastric tube passes below the diaphragm and
   out of
   view.
   Microbiology: [**1-15**] BCx PND
   [**1-15**] UCx: PND
   [**1-15**] Sputum
   [**2133-1-15**] 12:40 am SPUTUM      Source: Endotracheal.
      GRAM STAIN (Final [**2133-1-15**]):
         >25 PMNs and <10 epithelial cells/100X field.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Pending):
   Assessment and Plan
   57yo woman with metastatic cervical adenocarcinoma and respiratory
   failure.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]):
   Due to progression of underlying cancer with pulmonary masses, although
   may have had component of PE and/or radiation edema.
   -          s/p treatment with prednisone for radiation-related
   pulmonary edema
   -          failed SBT and tires with PS, so continue on current vent
   settings, pt aware of likely respiratory failure after extubation
   -          on levo and flagyl since [**1-10**] (now changed as below)  for
   possible post-obstructive pneumonia
 FEVER
   -          U/A appears dirty but little change from prior, f/u culture
   -          CXR with progression of parenchymal opacity that could
   represent VAP
 as such , will d/c levoquin ([**Date range (1) 764**]) and broaden to
   vanc/zosyn ([**1-15**] -). Continue Flagyl ([**1-10**] - )
   -          f/u blood and sputum cultures
 CANCER (MALIGNANT NEOPLASM), GYNECOLOGICAL (OVARIAN, UTERINE,
   CERVICAL, ENDOMETRIAL)
   -          appreciate assistance from Rad/Onc, palliative care, and
   social work, will know by Fri/Sat if tumor responded to radiation
   -          family has come to see patient
   -          d/w family for possible Friday extubation
 PULMONARY EMBOLISM (PE), ACUTE:
   -          s/p IVC filter; not anticoagulated due to bleeding risk from
   tumor invasion into PA
 WHEEZING:
   -          supportive care with nebulizers and suctioning PRN
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2133-1-10**] 01:01 AM
   Arterial Line - [**2133-1-10**] 06:55 AM
   18 Gauge - [**2133-1-10**] 07:00 AM
   PICC Line - [**2133-1-13**] 02:43 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments: pt unrestrained
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2133-01-15 13:09:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 FEVER - 101.1
F - [**2133-1-15**] 12:00 AM
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2133-1-15**] 10:20 AM
   Levofloxacin - [**2133-1-15**] 10:26 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2133-1-15**] 12:44 PM
   Heparin Sodium (Prophylaxis) - [**2133-1-15**] 12:56 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2133-1-15**] 01:08 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.4
C (99.3
   HR: 116 (107 - 129) bpm
   BP: 104/67(81){76/51(61) - 138/80(100)} mmHg
   RR: 22 (21 - 27) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 97.1 kg (admission): 91.5 kg
   Height: 65 Inch
             Total In:
                                                                  2,372 mL
                                                                  1,233 mL
   PO:
             TF:
   IVF:
                                                                  2,372 mL
                                                                  1,143 mL
   Blood products:
   Total out:
                                                                  1,520 mL
                                                                  1,580 mL
   Urine:
                                                                  1,520 mL
                                                                  1,580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    852 mL
                                                                   -347 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 401 (400 - 401) mL
   RR (Set): 14
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%
   PIP: 20 cmH2O
   Plateau: 19 cmH2O
   SpO2: 94%
   ABG: 7.49/46/87.[**Numeric Identifier 244**]/32/10
   Ve: 9.4 L/min
   PaO2 / FiO2: 147
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: throughout)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement:
   Purposeful, Sedated, Tone: Not assessed
   Labs / Radiology
   8.1 g/dL
   245 K/uL
   106 mg/dL
   0.5 mg/dL
   32 mEq/L
   3.5 mEq/L
   12 mg/dL
   100 mEq/L
   137 mEq/L
   25.2 %
   5.9 K/uL
        [image002.jpg]
                             [**2133-1-11**]  10:57 PM
                             [**2133-1-12**]  02:37 AM
                             [**2133-1-12**]  05:22 AM
                             [**2133-1-13**]  05:59 AM
                             [**2133-1-13**]  07:49 AM
                             [**2133-1-13**]  02:27 PM
                             [**2133-1-13**]  02:49 PM
                             [**2133-1-14**]  05:50 AM
                             [**2133-1-15**]  01:30 AM
                             [**2133-1-15**]  04:50 AM
   WBC
   5.6
   6.8
   7.1
   8.1
   5.8
   5.9
   Hct
   26.3
   27.2
   25.5
   26.6
   24.6
   25.2
   Plt
   165
   173
   172
   [**Telephone/Fax (3) 742**]
   Cr
   0.7
   0.5
   0.5
   0.5
   0.5
   TCO2
   31
   36
   33
   36
   Glucose
   [**Telephone/Fax (3) 691**]44
   106
   Other labs: PT / PTT / INR:15.2/34.1/1.3, Differential-Neuts:92.4 %,
   Band:Units: %
   Range: 0-5 %, Lymph:3.0 %, Mono:3.2 %, Eos:1.3 %, Lactic Acid:1.1
   mmol/L, Ca++:8.0 mg/dL, Mg++:1.8 mg/dL, PO4:1.8 mg/dL
   Imaging: CXR today shows increasing RLL infiltrate, otherwise masses
   unchanged.
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]):  Due to massive metastatic
   disease in lung, as well as superimposed pneumonia and PEs.  Given lack
   of response to cyberknife and poor overall prognosis, plan to extubate
   tomorrow when her family arrives.  For now, her worsening infiltrate
   and fever are concerning for [**Last Name (LF) 763**], [**First Name3 (LF) **] will change antibiotics to
   vancomycin and zosyn.  Plan is for extubation Friday
 we will make her
   comfortable if she develops distress but will not reintubate
 CANCER (MALIGNANT NEOPLASM), GYNECOLOGICAL (OVARIAN, UTERINE,
   CERVICAL, ENDOMETRIAL): No improvement s/p cyberknife.  Poor prognosis.
 PULMONARY EMBOLISM (PE), ACUTE:  Not anticoagulated due to erosion of
   tumor into pulmonary artery.  Has IVC filter.
 .H/O SUPRAVENTRICULAR TACHYCARDIA (SVT)
 WHEEZING: s/p course of prednisone for bronchospasm.  Not wheezing on
   exam.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2133-1-10**] 06:55 AM
   PICC Line - [**2133-1-13**] 02:43 PM
   Prophylaxis:
   DVT: Boots, IVC filter
   Stress ulcer: PPI
   [**Year (4 digits) 763**]: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35
   Patient is critically ill

2133-01-16 10:56:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2133-1-15**] 10:26 AM
   Vancomycin - [**2133-1-16**] 01:26 AM
   Piperacillin/Tazobactam (Zosyn) - [**2133-1-16**] 10:22 AM
   Metronidazole - [**2133-1-16**] 10:22 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2133-1-15**] 12:44 PM
   Lorazepam (Ativan) - [**2133-1-15**] 09:40 PM
   Heparin Sodium (Prophylaxis) - [**2133-1-16**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: NPO
   Respiratory: Dyspnea
   Flowsheet Data as of  [**2133-1-16**] 10:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.2
C (98.9
   HR: 106 (104 - 121) bpm
   BP: 86/55(67){77/50(61) - 115/71(86)} mmHg
   RR: 17 (17 - 26) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 97.1 kg (admission): 91.5 kg
   Height: 65 Inch
             Total In:
                                                                  1,983 mL
                                                                    550 mL
   PO:
             TF:
   IVF:
                                                                  1,743 mL
                                                                    400 mL
   Blood products:
   Total out:
                                                                  2,685 mL
                                                                    870 mL
   Urine:
                                                                  2,685 mL
                                                                    870 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -702 mL
                                                                   -320 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 501 (401 - 501) mL
   Vt (Spontaneous): 860 (860 - 860) mL
   RR (Set): 14
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: Agitated
   PIP: 27 cmH2O
   Plateau: 16 cmH2O
   SpO2: 99%
   ABG: 7.58/36/116/28/11
   Ve: 11.3 L/min
   PaO2 / FiO2: 193
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : scattered, Bronchial: , Diminished: )
   Abdominal: Soft, Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   6.7 g/dL
   206 K/uL
   737 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.2 mEq/L
   8 mg/dL
   96 mEq/L
   128 mEq/L
   22.7 %
   5.1 K/uL
        [image002.jpg]
                             [**2133-1-12**]  05:22 AM
                             [**2133-1-13**]  05:59 AM
                             [**2133-1-13**]  07:49 AM
                             [**2133-1-13**]  02:27 PM
                             [**2133-1-13**]  02:49 PM
                             [**2133-1-14**]  05:50 AM
                             [**2133-1-15**]  01:30 AM
                             [**2133-1-15**]  04:50 AM
                             [**2133-1-15**]  08:09 PM
                             [**2133-1-16**]  08:46 AM
   WBC
   6.8
   7.1
   8.1
   5.8
   5.9
   5.1
   Hct
   27.2
   25.5
   26.6
   24.6
   25.2
   22.7
   Plt
   173
   172
   206
   200
   245
   206
   Cr
   0.5
   0.5
   0.5
   0.5
   0.6
   TCO2
   36
   33
   36
   35
   Glucose
   158
   129
   144
   106
   737
   Other labs: PT / PTT / INR:15.2/34.1/1.3, Differential-Neuts:92.4 %,
   Band:Units: %
   Range: 0-5 %, Lymph:3.0 %, Mono:3.2 %, Eos:1.3 %, Lactic Acid:1.1
   mmol/L, Ca++:6.6 mg/dL, Mg++:1.4 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]) - has required incr
   ventilatory support with no evidence of response to cyberknife.  Plan
   for extubation today after rest of family arrives. She will be kept
   comfortable after extubation with morphine/Ativan as needed. Extensive
   family discussion and patient and family areaware of prognosis and plan
 CANCER (MALIGNANT NEOPLASM), GYNECOLOGICAL (OVARIAN, UTERINE,
   CERVICAL, ENDOMETRIAL)
 PULMONARY EMBOLISM (PE), ACUTE
 .H/O SUPRAVENTRICULAR TACHYCARDIA (SVT)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2133-1-10**] 06:55 AM
   PICC Line - [**2133-1-13**] 02:43 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2133-01-16 16:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Received lorazepam for anxiety; switched to AC while sleeping.
   Received vanc/Zosyn given R midlung consolidation.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2133-1-15**] 10:26 AM
   Piperacillin/Tazobactam (Zosyn) - [**2133-1-16**] 10:22 AM
   Metronidazole - [**2133-1-16**] 10:22 AM
   Vancomycin - [**2133-1-16**] 02:12 PM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2133-1-15**] 09:40 PM
   Heparin Sodium (Prophylaxis) - [**2133-1-16**] 02:04 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-1-16**] 04:12 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 106 (104 - 117) bpm
   BP: 86/55(67){77/50(61) - 115/71(86)} mmHg
   RR: 17 (17 - 26) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 97.1 kg (admission): 91.5 kg
   Height: 65 Inch
             Total In:
                                                                  2,883 mL
                                                                  2,261 mL
   PO:
             TF:
   IVF:
                                                                  2,643 mL
                                                                  2,111 mL
   Blood products:
   Total out:
                                                                  2,685 mL
                                                                  1,130 mL
   Urine:
                                                                  2,685 mL
                                                                  1,130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    198 mL
                                                                  1,131 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 501 (500 - 501) mL
   Vt (Spontaneous): 860 (860 - 860) mL
   RR (Set): 14
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: Agitated
   PIP: 28 cmH2O
   Plateau: 21 cmH2O
   SpO2: 98%
   ABG: 7.58/36/116/28/11
   Ve: 9.5 L/min
   PaO2 / FiO2: 193
   Physical Examination
   Gen: NAD
   HEENT: Intubated, NCAT
   CV: RRR S1S2, no m/r/g
   Chest: Decreased BS bilaterally
   Abdomen: Soft, NTND, BS+
   Ext: No edema BLE
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   206 K/uL
   6.7 g/dL
   737 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.2 mEq/L
   8 mg/dL
   96 mEq/L
   128 mEq/L
   22.7 %
   5.1 K/uL
        [image002.jpg]
                             [**2133-1-12**]  05:22 AM
                             [**2133-1-13**]  05:59 AM
                             [**2133-1-13**]  07:49 AM
                             [**2133-1-13**]  02:27 PM
                             [**2133-1-13**]  02:49 PM
                             [**2133-1-14**]  05:50 AM
                             [**2133-1-15**]  01:30 AM
                             [**2133-1-15**]  04:50 AM
                             [**2133-1-15**]  08:09 PM
                             [**2133-1-16**]  08:46 AM
   WBC
   6.8
   7.1
   8.1
   5.8
   5.9
   5.1
   Hct
   27.2
   25.5
   26.6
   24.6
   25.2
   22.7
   Plt
   173
   172
   206
   200
   245
   206
   Cr
   0.5
   0.5
   0.5
   0.5
   0.6
   TCO2
   36
   33
   36
   35
   Glucose
   158
   129
   144
   106
   737
   Other labs: PT / PTT / INR:15.2/34.1/1.3, Differential-Neuts:92.4 %,
   Band:Units: %
   Range: 0-5 %, Lymph:3.0 %, Mono:3.2 %, Eos:1.3 %, Lactic Acid:1.1
   mmol/L, Ca++:6.6 mg/dL, Mg++:1.4 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   57F h/o metastatic cervical adenocarcinoma, increased tumor burden in
   lung, PE.
   1.  Respiratory Failure: Increasing need for respiratory support
   possibly [**1-10**] metastases, radiation edema, infection (worsening RML
   opacity).  Likely will move towards extubation and CMO once family
   arrives.  Zosyn and vancomycin currently, will d/c as will make CMO
   post-extubation.
   2. Metastatic Adenocarcinoma of the Cervix:  S/p cyberknife treatment
   without appreciable response.
   3.  PE:  Heparin SQ only; no heparin gtt
   ICU Care
   Nutrition: NPO
   Glycemic Control: Good glucose control.
   Lines:
   Arterial Line - [**2133-1-10**] 06:55 AM
   PICC Line - [**2133-1-13**] 02:43 PM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2133-01-18 08:12:00 Physician Resident Progress Note
Chief Complaint: respiratory failure, hemoptysis
   24 Hour Events:
   Family meeting with Dr. [**Doctor Last Name 811**] intubated for now as she is having
   meaningful interactions with family; stopped Abx and labs as futile to
   continue treatment for pneumonia
   Family and patient aware that she is likely to need sedation for
   discomfort in next few days
   Started tube feeds per family's preference
   Shared CXR and CT scan with patient's sister
   Started on guaifenesin and codeine for cough
   Has had episodes of feeling like she can
t breathe overnight; feels
   that guaifenesin and codeine are helpful but reluctant to take codeine
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2133-1-15**] 10:26 AM
   Vancomycin - [**2133-1-17**] 02:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2133-1-17**] 04:00 AM
   Metronidazole - [**2133-1-17**] 10:59 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2133-1-17**] 08:00 PM
   Lorazepam (Ativan) - [**2133-1-17**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-1-18**] 08:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 38.1
C (100.5
   HR: 116 (101 - 127) bpm
   BP: 99/63(76){86/46(57) - 141/85(104)} mmHg
   RR: 24 (15 - 33) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 97.1 kg (admission): 91.5 kg
   Height: 65 Inch
             Total In:
                                                                  2,407 mL
                                                                    618 mL
   PO:
             TF:
                                                                    220 mL
                                                                    246 mL
   IVF:
                                                                  2,103 mL
                                                                    333 mL
   Blood products:
   Total out:
                                                                  1,985 mL
                                                                    310 mL
   Urine:
                                                                  1,985 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    422 mL
                                                                    308 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 501 (500 - 501) mL
   Vt (Spontaneous): 500 (251 - 525) mL
   RR (Set): 14
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 27 cmH2O
   Plateau: 23 cmH2O
   SpO2: 98%
   ABG: ////
   Ve: 13 L/min
   Physical Examination
   Awake, oriented, writing on clipboard.
   MMM, intubated.
   S1, S2, tachycardia, no murmur
   Coarse BS b/l
   Abd soft, NT, ND
   +trace LE edema b/l
   DP palpable b/l
   Labs / Radiology
   K/uL
   mg/dL
   mEq/L
   mEq/L
   mg/dL
   mEq/L
   mEq/L
   %
    K/uL
        [image002.jpg]
                             [**2133-1-13**]  05:59 AM
                             [**2133-1-13**]  07:49 AM
                             [**2133-1-13**]  02:27 PM
                             [**2133-1-13**]  02:49 PM
                             [**2133-1-14**]  05:50 AM
                             [**2133-1-15**]  01:30 AM
                             [**2133-1-15**]  04:50 AM
                             [**2133-1-15**]  08:09 PM
                             [**2133-1-16**]  08:46 AM
                             [**2133-1-17**]  12:00 AM
   WBC
   7.1
   8.1
   5.8
   5.9
   5.1
   Hct
   25.5
   26.6
   24.6
   25.2
   22.7
   Plt
   172
   206
   200
   245
   206
   Cr
   0.5
   0.5
   0.5
   0.6
   TCO2
   36
   33
   36
   35
   Glucose
   129
   144
   106
   737
   145
   Other labs: PT / PTT / INR:15.2/34.1/1.3, Differential-Neuts:92.4 %,
   Band:Units: %
   Range: 0-5 %, Lymph:3.0 %, Mono:3.2 %, Eos:1.3 %, Lactic Acid:1.1
   mmol/L, Ca++:6.6 mg/dL, Mg++:1.4 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   57yo woman with metastatic cervical cancer and respiratory failure.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   Due to extensive pulmonary tumor burden with contribution from small
   PE, possible pneumonia.
   -          no longer receiving antibiotics given inability to treat
   underlying condition
   -          supportive care with continued mechanical ventilation,
   guaifenesin, codeine
   -          albuterol and atrovent standing
   -          pt often declining comfort measures because of desire to
   avoid sedation
   -          breathing tube and sense of dyspnea causing discomfort for
   patient; anticipate she will eventually require sedation
 CANCER (MALIGNANT NEOPLASM), GYNECOLOGICAL (OVARIAN, UTERINE,
   CERVICAL, ENDOMETRIAL)
   Family and patient aware of grim prognosis, making use of time they
   have
   -          appreciate Dr. [**Last Name (STitle) 604**]
s input and care
   -          tumor not responding to XRT
   -          appreciate assistance from social work and palliative care
   in family coping
 PULMONARY EMBOLISM (PE), ACUTE:
   -          not on heparin gtt
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2133-1-17**] 01:31 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2133-1-10**] 06:55 AM
   PICC Line - [**2133-1-13**] 02:43 PM
   Prophylaxis:
   DVT: Heparin subQ
   Stress ulcer: Lansoprazole
   VAP:  HOB>30, mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: ICU

2133-01-19 06:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Coughing -> tube feeds stopped RN worried about aspiration, family ok
   with stopping tube feeds
   OGT dc'ed
   SUBJ:
   Pt awake and alert
   Asking many questions re: how long she will be on the vent?
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2133-1-17**] 02:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2133-1-17**] 04:00 AM
   Metronidazole - [**2133-1-17**] 10:59 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2133-1-18**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2133-1-19**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-1-19**] 06:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.4
C (99.3
   HR: 108 (103 - 125) bpm
   BP: 108/64(80){91/54(68) - 127/69(88)} mmHg
   RR: 31 (21 - 36) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 97.1 kg (admission): 91.5 kg
   Height: 65 Inch
             Total In:
                                                                  2,286 mL
                                                                    485 mL
   PO:
             TF:
                                                                    446 mL
   IVF:
                                                                  1,800 mL
                                                                    485 mL
   Blood products:
   Total out:
                                                                  1,410 mL
                                                                    730 mL
   Urine:
                                                                  1,410 mL
                                                                    730 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    876 mL
                                                                   -245 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 460 (370 - 703) mL
   PS : 18 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 24 cmH2O
   SpO2: 94%
   ABG: ////
   Ve: 13 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   206 K/uL
   6.7 g/dL
   145
   0.6 mg/dL
   28 mEq/L
   3.2 mEq/L
   8 mg/dL
   96 mEq/L
   128 mEq/L
   22.7 %
   5.1 K/uL
        [image002.jpg]  NOTE: last labs from [**2133-1-16**]
                             [**2133-1-13**]  05:59 AM
                             [**2133-1-13**]  07:49 AM
                             [**2133-1-13**]  02:27 PM
                             [**2133-1-13**]  02:49 PM
                             [**2133-1-14**]  05:50 AM
                             [**2133-1-15**]  01:30 AM
                             [**2133-1-15**]  04:50 AM
                             [**2133-1-15**]  08:09 PM
                             [**2133-1-16**]  08:46 AM
                             [**2133-1-17**]  12:00 AM
   WBC
   7.1
   8.1
   5.8
   5.9
   5.1
   Hct
   25.5
   26.6
   24.6
   25.2
   22.7
   Plt
   172
   206
   200
   245
   206
   Cr
   0.5
   0.5
   0.5
   0.6
   TCO2
   36
   33
   36
   35
   Glucose
   129
   144
   106
   737
   145
   Other labs: PT / PTT / INR:15.2/34.1/1.3, Differential-Neuts:92.4 %,
   Band:Units: %
   Range: 0-5 %, Lymph:3.0 %, Mono:3.2 %, Eos:1.3 %, Lactic Acid:1.1
   mmol/L, Ca++:6.6 mg/dL, Mg++:1.4 mg/dL, PO4:2.0 mg/dL
   Imaging: [**1-18**] CXR
   SINGLE AP PORTABLE VIEW OF THE CHEST
   REASON FOR EXAM:  Intubated patient, patient with lung metastasis.
   Comparison is made with prior study [**2133-1-15**].
   ET tube tip is 6.8 cm above the carina.  NG tube tip is out of view
   below the
   diaphragm.  Large bilateral masses consistent with metastases are again
   noted.
   There is no definitive effusion or pneumothorax.  Confluent opacity in
   the
   right mid lung is unchanged.  Note is made that the right CP angle was
   not
   included on the film.
   Microbiology: [**2133-1-15**] 12:40 am SPUTUM      Source: Endotracheal.
                               **FINAL REPORT [**2133-1-17**]**
      GRAM STAIN (Final [**2133-1-15**]):
         >25 PMNs and <10 epithelial cells/100X field.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Final [**2133-1-17**]):
         RARE GROWTH OROPHARYNGEAL FLORA.
   [**2133-1-15**] 12:40 am URINE      Source: Catheter.
                               **FINAL REPORT [**2133-1-16**]**
      URINE CULTURE (Final [**2133-1-16**]):    NO GROWTH.
   Assessment and Plan
   57yo woman with metastatic cervical cancer with large pulmonary mets,
   possible VAP, and respiratory failure.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]) - extensive pulmonary tumor
   burden with contribution from small PE, possible pneumonia.
   -          no longer receiving antibiotics given inability to treat
   underlying condition
   -          attempt to wean mechanical ventilation again today
   -          continue supportive meds (antitussives, albuterol and
   atrovent standing)
   -          if unable to wean pt, may have to consider tracheostomy if
   this is most c/w pt
s wishes
 CANCER (MALIGNANT NEOPLASM), GYNECOLOGICAL (OVARIAN, UTERINE,
   CERVICAL, ENDOMETRIAL)
   Family and patient aware of grim prognosis, making use of time they
   have
   -          appreciate Dr. [**Last Name (STitle) 604**]
s input and care, no further treatment
   possible
   -          tumor not responding to XRT
   -          appreciate assistance from social work and palliative care
   in family coping
 PULMONARY EMBOLISM (PE), ACUTE:
   -          not on heparin gtt as tumor eroding into pulmonary artery
   ICU Care
   Nutrition: O/G tube d/c
ed after pt did not tolerate feeds, vomited.
   Will give IVF maintenance for now. If considering tracheostomy, may
   also need to consider PEG.
   Glycemic Control:
   Lines:
   Arterial Line - [**2133-1-10**] 06:55 AM
   PICC Line - [**2133-1-13**] 02:43 PM
   Prophylaxis:
   DVT: sQ heparin
   Stress ulcer: will add back IV PPI today
   VAP:  HOB elevation, mouth care, daily wake up (pt off sedation)
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: ICU

2133-01-19 12:45:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   No major clinical events
   More awake; writing questions.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2133-1-17**] 02:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2133-1-17**] 04:00 AM
   Metronidazole - [**2133-1-17**] 10:59 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2133-1-18**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2133-1-19**] 02:00 AM
   Pantoprazole (Protonix) - [**2133-1-19**] 09:21 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-1-19**] 12:31 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.1
C (98.8
   HR: 103 (97 - 125) bpm
   BP: 103/59(74){91/54(68) - 127/69(88)} mmHg
   RR: 31 (22 - 36) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 97.1 kg (admission): 91.5 kg
   Height: 65 Inch
             Total In:
                                                                  2,255 mL
                                                                    883 mL
   PO:
             TF:
                                                                    446 mL
   IVF:
                                                                  1,769 mL
                                                                    883 mL
   Blood products:
   Total out:
                                                                  1,410 mL
                                                                    920 mL
   Urine:
                                                                  1,410 mL
                                                                    920 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    845 mL
                                                                    -37 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 409 (370 - 703) mL
   PS : 18 cmH2O
   RR (Spontaneous): 32
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 24 cmH2O
   SpO2: 99%
   ABG: ////
   Ve: 12.6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   6.7 g/dL
   206 K/uL
   145
   0.6 mg/dL
   28 mEq/L
   3.2 mEq/L
   8 mg/dL
   96 mEq/L
   128 mEq/L
   22.7 %
   5.1 K/uL
        [image002.jpg]
                             [**2133-1-13**]  05:59 AM
                             [**2133-1-13**]  07:49 AM
                             [**2133-1-13**]  02:27 PM
                             [**2133-1-13**]  02:49 PM
                             [**2133-1-14**]  05:50 AM
                             [**2133-1-15**]  01:30 AM
                             [**2133-1-15**]  04:50 AM
                             [**2133-1-15**]  08:09 PM
                             [**2133-1-16**]  08:46 AM
                             [**2133-1-17**]  12:00 AM
   WBC
   7.1
   8.1
   5.8
   5.9
   5.1
   Hct
   25.5
   26.6
   24.6
   25.2
   22.7
   Plt
   172
   206
   200
   245
   206
   Cr
   0.5
   0.5
   0.5
   0.6
   TCO2
   36
   33
   36
   35
   Glucose
   129
   144
   106
   737
   145
   Other labs: PT / PTT / INR:15.2/34.1/1.3, Differential-Neuts:92.4 %,
   Lymph:3.0 %, Mono:3.2 %, Eos:1.3 %, Lactic Acid:1.1 mmol/L, Ca++:6.6
   mg/dL, Mg++:1.4 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   57 year-old woman with respiratory failure likely secondary to her
   tremendous burden of pulmonary metastatic disease from cervical
   cancer.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   This is a very challenging situation -- we cannot fix the primary
   problem (the cancer).  Her mental status has improved, and she
   tolerated a very brief trial of 5/0. Today, we will try her on a
   spontaneous breathing trial.  If she tolerates it, we will consider
   extubation trial.  If successful, we will need to discuss future
   plans.  If unsuccessful, we will discuss other options.
 CANCER (MALIGNANT NEOPLASM), GYNECOLOGICAL (OVARIAN, UTERINE,
   CERVICAL, ENDOMETRIAL)
   Now s/p CyberKnife.
 PULMONARY EMBOLISM (PE), ACUTE
   Off heparin due to the fact that her tumor is eroding nearly into
   pulmonary artery.
 .H/O SUPRAVENTRICULAR TACHYCARDIA (SVT)
   ICU Care
   Nutrition: NPO for now
   Glycemic Control:  adequate
   Lines:
   Arterial Line - [**2133-1-10**] 06:55 AM
   PICC Line - [**2133-1-13**] 02:43 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: DNR (do not resuscitate)
   Disposition : ICU
   Total time spent: 45
   Patient is critically ill

2133-01-20 07:50:00 Physician Resident Progress Note
Chief Complaint: hemoptysis, respiratory failure
   24 Hour Events:
   Decreased PSV to [**9-13**] and 40% FiO2, but couldn't wean entirely
   Per notes from respiratory, had to increase PS because of subjective
   dyspnea with increased RR
   Ordered labs and CXR this AM in anticipation of invasive care again
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2133-1-17**] 10:59 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2133-1-19**] 09:21 AM
   Lorazepam (Ativan) - [**2133-1-19**] 11:00 PM
   Heparin Sodium (Prophylaxis) - [**2133-1-20**] 12:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-1-20**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 101 (97 - 119) bpm
   BP: 98/66(79){94/54(69) - 130/73(90)} mmHg
   RR: 26 (23 - 36) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 97.1 kg (admission): 91.5 kg
   Height: 65 Inch
             Total In:
                                                                  1,781 mL
                                                                    581 mL
   PO:
             TF:
   IVF:
                                                                  1,781 mL
                                                                    581 mL
   Blood products:
   Total out:
                                                                  2,060 mL
                                                                    820 mL
   Urine:
                                                                  2,060 mL
                                                                    820 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -279 mL
                                                                   -239 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 322 (322 - 409) mL
   PS : 18 cmH2O
   RR (Spontaneous): 41
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: ////
   Ve: 13.1 L/min
   Physical Examination
   Awake, sitting in chair, getting suctioned
   S1, S2, tachy, regular, no murmur
   Lungs with diminished and coarse BS throughout
   Abd soft, NT, ND
   Ext with trace edema
   Labs / Radiology
   206 K/uL
   6.7 g/dL
   145
   0.6 mg/dL
   28 mEq/L
   3.2 mEq/L
   8 mg/dL
   96 mEq/L
   128 mEq/L
   22.7 %
   5.1 K/uL
        [image002.jpg]
                             [**2133-1-13**]  05:59 AM
                             [**2133-1-13**]  07:49 AM
                             [**2133-1-13**]  02:27 PM
                             [**2133-1-13**]  02:49 PM
                             [**2133-1-14**]  05:50 AM
                             [**2133-1-15**]  01:30 AM
                             [**2133-1-15**]  04:50 AM
                             [**2133-1-15**]  08:09 PM
                             [**2133-1-16**]  08:46 AM
                             [**2133-1-17**]  12:00 AM
   WBC
   7.1
   8.1
   5.8
   5.9
   5.1
   Hct
   25.5
   26.6
   24.6
   25.2
   22.7
   Plt
   172
   206
   200
   245
   206
   Cr
   0.5
   0.5
   0.5
   0.6
   TCO2
   36
   33
   36
   35
   Glucose
   129
   144
   106
   737
   145
   Other labs: PT / PTT / INR:15.2/34.1/1.3, Differential-Neuts:92.4 %,
   Band:Units: %
   Range: 0-5 %, Lymph:3.0 %, Mono:3.2 %, Eos:1.3 %, Lactic Acid:1.1
   mmol/L, Ca++:6.6 mg/dL, Mg++:1.4 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   57yo woman with metastatic cervical cancer and respiratory failure.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]):
   Due to extensive pulmonary metastases with superimposed pulmonary
   emboli and possible radiation edema.
   -          trial of pressure support at 5/0 today to determine if
   possible to extubate
   -          if not possible to extubate, would consider trach
   -          supportive care with antitussives, inhalers
   -          s/p treatment for radiation edema with steroids
   -          unable to treat PE given concern for tumor eroding into
   pulmonary artery
 CANCER (MALIGNANT NEOPLASM), GYNECOLOGICAL (OVARIAN, UTERINE,
   CERVICAL, ENDOMETRIAL)
   -          Family meeting today with ICU attending, Dr. [**Last Name (STitle) 604**], and
   family to discuss goals of care
   -          Appreciate assistance from palliative care and social work
 PULMONARY EMBOLISM (PE), ACUTE:
   -          no heparin gtt as above
   ICU Care
   Nutrition: NPO
   Glycemic Control:  Not following sugars
   Lines:
   Arterial Line - [**2133-1-10**] 06:55 AM
   PICC Line - [**2133-1-13**] 02:43 PM
   Prophylaxis:
   DVT: SubQ heparin
   Stress ulcer: PPI
   VAP:  HOB elevated, mouth care
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: ICU
   ------ Protected Section ------
   Critical Care Staff Addendum
   I saw and examined the patient and was physically present with the ICU
   resident for key portions of the services provided.  I agree with the
   above note, and would add/emphasize:
   Respiratory Failure due to marked burden of metastatic disease.  There
   is no evidence for infection (and substantial evidence against it at
   this point) and there is no evidence for volume overload.  Ms. [**Known lastname 583**]
   remains effectively stable from a ventilatory standpoint.  We will plan
   a spontaneous breathing trial today.  I suspect that it will be
   unsuccessful.  If so, we will discuss with her family and goals of care
   and her potential options.
   Anemia is stable and is not at transfusion threshold
   Other issues as per Dr. [**Last Name (STitle) 512**]
s note.
   ------ Protected Section Addendum Entered By:[**Name (NI) 149**] [**Last Name (NamePattern1) 832**], MD
   on:[**2133-1-20**] 21:04 ------

2133-01-21 06:29:00 Physician Resident Progress Note
Chief Complaint: respiratory distress
   24 Hour Events:
   Failed trial of PS 5/0 b/c of dyspnea
   Family meeting held--plan to pursue trach and PEG
   Subjective:
   Reports she slept a little last night.
   Asking for albuterol treatment
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2133-1-20**] 08:00 PM
   Lorazepam (Ativan) - [**2133-1-21**] 02:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-1-21**] 06:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.3
C (99.2
   HR: 117 (102 - 127) bpm
   BP: 101/75(86){71/48(58) - 111/75(86)} mmHg
   RR: 25 (14 - 31) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 97.1 kg (admission): 91.5 kg
   Height: 65 Inch
             Total In:
                                                                  1,936 mL
                                                                    985 mL
   PO:
             TF:
   IVF:
                                                                  1,936 mL
                                                                    985 mL
   Blood products:
   Total out:
                                                                  1,590 mL
                                                                    290 mL
   Urine:
                                                                  1,590 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    346 mL
                                                                    695 mL
   Respiratory support
   Ventilator mode: PS
   Vt (Spontaneous): 398 (343 - 600) mL
   PS : 18 cmH2O
   RR (Spontaneous): 31
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 211
   RSBI Deferred: RR >35, Agitated
   PIP: 25 cmH2O
   SpO2: 93%
   ABG: 7.49/44/77/29/9
   Ve: 12.4 L/min
   PaO2 / FiO2: 193
   Physical Examination
   Awake sitting up in bed, appears tired.
   ET tube in place, MMM
   S1, S2, tachy but regular, no murmur
   Lungs with coarse BS, diminished at bases
   Ext with trace edema; DP +2 b/l
   +PICC in place
   Labs / Radiology
   80 K/uL
   7.2 g/dL
   109 mg/dL
   0.6 mg/dL
   29 mEq/L
   3.2 mEq/L
   9 mg/dL
   103 mEq/L
   139 mEq/L
   22.3 %
   6.9 K/uL
        [image002.jpg]
                             [**2133-1-13**]  02:49 PM
                             [**2133-1-14**]  05:50 AM
                             [**2133-1-15**]  01:30 AM
                             [**2133-1-15**]  04:50 AM
                             [**2133-1-15**]  08:09 PM
                             [**2133-1-16**]  08:46 AM
                             [**2133-1-17**]  12:00 AM
                             [**2133-1-20**]  05:40 AM
                             [**2133-1-20**]  09:16 AM
                             [**2133-1-21**]  04:49 AM
   WBC
   5.8
   5.9
   5.1
   6.7
   6.9
   Hct
   24.6
   25.2
   22.7
   23.3
   22.3
   Plt
   200
   245
   206
   95
   80
   Cr
   0.5
   0.5
   0.6
   0.5
   0.6
   TCO2
   33
   36
   35
   34
   Glucose
   144
   106
   737
   145
   114
   109
   Other labs: PT / PTT / INR:15.3/35.5/1.3, Differential-Neuts:92.4 %,
   Band:Units: %
   Range: 0-5 %, Lymph:3.0 %, Mono:3.2 %, Eos:1.3 %, Lactic Acid:1.1
   mmol/L, Ca++:7.5 mg/dL, Mg++:1.8 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   57yo woman with metastatic cervical cancer and respiratory failure.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]):
   Due to underlying tumor burden with pulmonary emboli and possible
   radiation edema.  Unable to treat PE because of concern for erosion
   into pulmonary artery and s/p treatment for edema with steroids.
   -          failed trial of 5/0, do not expect patient will be extubated
   any time in near future
   -          appreciate assessment for possible trach given respiratory
   failure of irreversible cause in patient who is otherwise functioning
   well
   -          supportive care with inhalers and cough medicines
 CANCER (MALIGNANT NEOPLASM), GYNECOLOGICAL (OVARIAN, UTERINE,
   CERVICAL, ENDOMETRIAL)
   -          no treatment at present; not responding well to XRT
   -          appreciate input from Dr. [**Last Name (STitle) 604**]
   -          appreciate assistance from palliative care and social work
   # Tachycardia:
   -          patient has baseline tachycardia that has not been
   responsive to fluids, most likely because of increased afterload and
   increased metabolic demand from tumor
   -          nevertheless, tachycardia appears worse overnight; DDx
   includes dehydration or infection
   -          increase maintenance fluids and give bolus now
   -          if patient spikes fever, would reculture and consider
   restarting antibiotics for possible pneumonia
   # Hypotension:
   -          art line readings have been unreliable given poor tracing
   -          pt continues to mentate well and have good urine output
   -          will remove A-line and follow cuff BP
   -          consider treatment for infection if develops fever or is not
   fluid responsive
   # Thrombocytopenia:
   -          developed acutely since last week
   -          will send HIT antibody and stop all heparin products
   -          not a candidate for anticoagulation given concern that tumor
   may be eroding into pulmonary artery (presented with hemoptysis)
   -          if HIT positive, would pull PICC
 PULMONARY EMBOLISM (PE), ACUTE
   -          no heparin gtt as discussed above
   ICU Care
   Nutrition: Eval for PEG tube
   Glycemic Control:  sugar controlled
   Lines:
   Arterial Line - [**2133-1-10**] 06:55 AM
will DC
   PICC Line - [**2133-1-13**] 02:43 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2133-01-21 09:20:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Family meeting and meeting with patient as described in my notes from
   yesterday
   Low grade temp
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2133-1-20**] 08:00 PM
   Lorazepam (Ativan) - [**2133-1-21**] 02:30 AM
   Pantoprazole (Protonix) - [**2133-1-21**] 08:00 AM
   Heparin Sodium - [**2133-1-21**] 08:00 AM
   Other medications:
   SQH, CHG, MDIs, PPI, lido inhaled, Mg, K
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-1-21**] 09:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 38.2
C (100.7
   HR: 107 (102 - 127) bpm
   BP: 76/55(64){71/48(58) - 111/75(86)} mmHg
   RR: 25 (14 - 31) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 97.1 kg (admission): 91.5 kg
   Height: 65 Inch
             Total In:
                                                                  1,936 mL
                                                                  1,202 mL
   PO:
             TF:
   IVF:
                                                                  1,936 mL
                                                                  1,202 mL
   Blood products:
   Total out:
                                                                  1,590 mL
                                                                    325 mL
   Urine:
                                                                  1,590 mL
                                                                    325 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    346 mL
                                                                    877 mL
   Respiratory support
   Ventilator mode: CMV
   Vt (Spontaneous): 429 (343 - 600) mL
   PS : 18 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 211
   RSBI Deferred: RR >35, Agitated
   PIP: 25 cmH2O
   SpO2: 92%
   ABG: 7.49/44/77/29/9
   Ve: 15.3 L/min
   PaO2 / FiO2: 193
   Physical Examination
   Comfortable up in chair, but looks tired.
   Heart regular, tachycardic
   Lungs with diffuse rhonchi
   Abdomen soft
   Some edema
   Labs / Radiology
   7.2 g/dL
   80 K/uL
   109 mg/dL
   0.6 mg/dL
   29 mEq/L
   3.2 mEq/L
   9 mg/dL
   103 mEq/L
   139 mEq/L
   22.3 %
   6.9 K/uL
        [image002.jpg]
                             [**2133-1-13**]  02:49 PM
                             [**2133-1-14**]  05:50 AM
                             [**2133-1-15**]  01:30 AM
                             [**2133-1-15**]  04:50 AM
                             [**2133-1-15**]  08:09 PM
                             [**2133-1-16**]  08:46 AM
                             [**2133-1-17**]  12:00 AM
                             [**2133-1-20**]  05:40 AM
                             [**2133-1-20**]  09:16 AM
                             [**2133-1-21**]  04:49 AM
   WBC
   5.8
   5.9
   5.1
   6.7
   6.9
   Hct
   24.6
   25.2
   22.7
   23.3
   22.3
   Plt
   200
   245
   206
   95
   80
   Cr
   0.5
   0.5
   0.6
   0.5
   0.6
   TCO2
   33
   36
   35
   34
   Glucose
   144
   106
   737
   145
   114
   109
   Other labs: PT / PTT / INR:15.3/35.5/1.3, Differential-Neuts:92.4 %,
   Lymph:3.0 %, Mono:3.2 %, Eos:1.3 %, Lactic Acid:1.1 mmol/L, Ca++:7.5
   mg/dL, Mg++:1.8 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   57 y/o woman with prolonged respiratory failure related to her
   extensive metastatic burden of pulmonary disease.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   - consult IP regarding trach/PEG
   - see note from yesterday regarding decisionmaking around trach/PEG
 CANCER (MALIGNANT NEOPLASM), GYNECOLOGICAL (OVARIAN, UTERINE,
   CERVICAL, ENDOMETRIAL)
   -- no acute intervention at present
 PULMONARY EMBOLISM (PE), ACUTE
   - no anticoagulation due to risk of hemorrhage from tumor/PA apposition
 ANEMIA, OTHER
   - follow for now.  [**Month (only) 60**] need tranfusion if falls further or persists
   with hypotension
 TACHYCARDIA with borderline hypotension (although arterial line is a
   bit damped)
   - suspect that she is hypovolemic given thirst and decrement in urine
   output
   - volume challenge
   - if unresponsive, would need to consider infection as a cause
 THROMBOCYTOPENIA
   - stop heparin
   - check HIT
   - watch for further falls
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Arterial Line - [**2133-1-10**] 06:55 AM
   PICC Line - [**2133-1-13**] 02:43 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35
   ------ Protected Section ------
   Ms. [**Known lastname 583**]
[**Last Name (Titles) 879**]a has persisted in the 140s today, even after a
   liter of crystalloid, and her temp is 100.8.
   We will
   - transfuse (?hypovolemia, hct 22)
   - check cultures
   - treat for possible VAP
   - offer Tylenol
   Additional pulmonary embolism is also in the differential, particularly
   given thrombocytopenia and ? of HIT.  However, we would not
   anticoagulate so additional diagnostic studies would not offer benefit
   at present.
   30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 149**] [**Last Name (NamePattern1) 832**], MD
   on:[**2133-1-21**] 14:47 ------

2133-01-22 07:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2133-1-21**] 10:04 AM
 BLOOD CULTURED - At [**2133-1-21**] 03:06 PM
 URINE CULTURE - At [**2133-1-21**] 03:06 PM
 EKG - At [**2133-1-21**] 03:20 PM
 SPUTUM CULTURE - At [**2133-1-21**] 04:32 PM
   Tachycardic in afternoon to 140's, EKG showed sinus tachycardia. Did
   not respond to fluids but a little better with tylenol.
   Given 1unit PRBC ?anemia as contributor to tachycardia
   Refusing ativan and other sedatives initially
   Tachycardic again to 150-160's overnight very agitated and anxious,
   given 3mg ativan and 1mg haldol with improvement
   Urine output borderline only ~460cc for the day
   Febrile to 100.8 -> sputum from [**1-21**] showed 2+ GPC in pairs and
   clusters.
   started empirically on vancomycin, zosyn, and cipro for presumed VAP
   New oliguria
   SUBJECTIVE
   Patient states she was upset because she wasn
t allowed to see her
   sisters all day and she was waiting for her husband.
   Also thinks it got too warm in the room, which made it difficult for
   her to breathe.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2133-1-21**] 11:00 PM
   Vancomycin - [**2133-1-22**] 12:00 AM
   Piperacillin - [**2133-1-22**] 01:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2133-1-21**] 08:00 AM
   Heparin Sodium - [**2133-1-21**] 08:00 AM
   Lorazepam (Ativan) - [**2133-1-22**] 03:00 AM
   Haloperidol (Haldol) - [**2133-1-22**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:  +thirsty
   Flowsheet Data as of  [**2133-1-22**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 36.7
C (98.1
   HR: 109 (107 - 164) bpm
   BP: 86/62(67){86/46(50) - 224/152(137)} mmHg
   RR: 31 (16 - 37) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 97.1 kg (admission): 91.5 kg
   Height: 65 Inch
             Total In:
                                                                  3,036 mL
                                                                  1,804 mL
   PO:
             TF:
   IVF:
                                                                  2,661 mL
                                                                  1,804 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                    477 mL
                                                                     90 mL
   Urine:
                                                                    477 mL
                                                                     90 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,559 mL
                                                                  1,714 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 583 (429 - 624) mL
   PS : 18 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 26 cmH2O
   SpO2: 97%
   ABG: ///23/
   Ve: 11.2 L/min
   Physical Examination
   Awake, breathing easily, appears comfortable.
   S1, S2, tachycardic, no murmur
   Lungs with coarse BS, diminished at bases
   Abd non-tender, non-distended
   Ext warm, DP +2 b/l
   Labs / Radiology
   54 K/uL
   8.7 g/dL
   126 mg/dL
   1.0 mg/dL
   23 mEq/L
   3.8 mEq/L
   18 mg/dL
   100 mEq/L
   133 mEq/L
   26.7 %
   10.5 K/uL
        [image002.jpg]
                             [**2133-1-14**]  05:50 AM
                             [**2133-1-15**]  01:30 AM
                             [**2133-1-15**]  04:50 AM
                             [**2133-1-15**]  08:09 PM
                             [**2133-1-16**]  08:46 AM
                             [**2133-1-17**]  12:00 AM
                             [**2133-1-20**]  05:40 AM
                             [**2133-1-20**]  09:16 AM
                             [**2133-1-21**]  04:49 AM
                             [**2133-1-22**]  04:44 AM
   WBC
   5.8
   5.9
   5.1
   6.7
   6.9
   10.5
   Hct
   24.6
   25.2
   22.7
   23.3
   22.3
   26.7
   Plt
   200
   245
   206
   95
   80
   54
   Cr
   0.5
   0.5
   0.6
   0.5
   0.6
   1.0
   TCO2
   36
   35
   34
   Glucose
   144
   106
   737
   145
   114
   109
   126
   Other labs: PT / PTT / INR:14.3/35.7/1.2, Differential-Neuts:92.4 %,
   Band:Units: %
   Range: 0-5 %, Lymph:3.0 %, Mono:3.2 %, Eos:1.3 %, Fibrinogen:618 mg/dL,
   Lactic Acid:1.1 mmol/L, Ca++:7.8 mg/dL, Mg++:2.2 mg/dL, PO4:2.0 mg/dL
   HIT positive
   Sputum Cx [**1-21**] 2+GPC in pairs and clusters; Cx pending
   UCx and BCx [**1-21**] pending
   Assessment and Plan
   57yo woman with metastatic cervical cancer and respiratory failure.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   -          due to huge pulmonary metastases
   -          plan for trach today for palliative support
   -          continue current vent settings
 CANCER (MALIGNANT NEOPLASM), GYNECOLOGICAL (OVARIAN, UTERINE,
   CERVICAL, ENDOMETRIAL)
   -          no current treatment given poor response to XRT
   -          followed by Dr. [**Last Name (STitle) 604**]
   -          appreciate palliative care/social work assistance
 TACHYCARDIA, OTHER
   -          worse yesterday in setting of elevated temp
   -          concerned for infection, most likely VAP in setting of GPC
   on sputum
   -          started vanc, zosyn, cipro (Day 1 = [**1-21**])
   -          also with component of dehydration, anxiety, and agitation
   -          continue supportive care, increase IV fluids, and given
   ativan/haldol if patient accepts
 HYPOTENSION (NOT SHOCK)
   -          concern for VAP as discussed above, although also suspect
   she is dehydrated
   -          BP currently in 110s
   -          Monitor closely, bolus if needed
 THROMBOCYTOPENIA, ACUTE
   -          HIT antibody positive with moderate pre-test probability, so
   suspect HIT is real
   -          No evidence of thrombosis
   -          After discussing with patient, IP, and Onc, plan is to
   proceed with transfusion of platelets so that she can have palliative
   trach and PEG
   -          Hold all heparin products
   -          Discussed with IV team; patient has an HDC PICC; this is NOT
   heparin-coated
   -          Not a candidate for argatroban because of high bleeding risk
   from pulmonary metastases
   # ARF:
   -          in setting of fevers, tachycardia
   -          aggressive fluids
   -          repeat PM lytes
   -          renal ultrasound to check for obstruction
 PULMONARY EMBOLISM (PE), ACUTE:
   -          as above, no anticoagulation given high bleeding risk
 ANEMIA, OTHER
   -          s/p transfusion with RBCs [**1-21**] with appropriate increment in
   Hct
   ICU Care
   Nutrition:  awaiting PEG tube placement
   Glycemic Control:  well controlled
   Lines:
   PICC Line - [**2133-1-13**] 02:43 PM
   Prophylaxis:
   DVT: pneumoboots ordered
   Stress ulcer: PPI
   VAP:  mouth care, not sedated, HOB elevated
   Comments:
   Communication:  Comments: family present in ICU
   Code status: DNR (do not resuscitate)
   Disposition: ICU

2133-01-22 11:48:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2133-1-21**] 10:04 AM
 BLOOD CULTURED - At [**2133-1-21**] 03:06 PM
 URINE CULTURE - At [**2133-1-21**] 03:06 PM
 EKG - At [**2133-1-21**] 03:20 PM
 SPUTUM CULTURE - At [**2133-1-21**] 04:32 PM
   Oliguria.
   Tachycardia.
   Transfused.
   ABX begun for possible infection.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2133-1-21**] 11:00 PM
   Piperacillin - [**2133-1-22**] 01:00 AM
   Vancomycin - [**2133-1-22**] 08:01 AM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2133-1-22**] 03:00 AM
   Lorazepam (Ativan) - [**2133-1-22**] 03:00 AM
   Other medications:
   CHG, atrovent, PPI, lido,
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-1-22**] 11:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 36.7
C (98.1
   HR: 109 (109 - 164) bpm
   BP: 86/62(67){86/53(50) - 224/152(137)} mmHg
   RR: 31 (17 - 37) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 97.1 kg (admission): 91.5 kg
   Height: 65 Inch
             Total In:
                                                                  3,036 mL
                                                                  2,387 mL
   PO:
             TF:
   IVF:
                                                                  2,661 mL
                                                                  2,387 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                    477 mL
                                                                    125 mL
   Urine:
                                                                    477 mL
                                                                    125 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,559 mL
                                                                  2,262 mL
   Respiratory support
   Ventilator mode: CMV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 569 (349 - 624) mL
   PS : 18 cmH2O
   RR (Set): 14
   RR (Spontaneous): 41
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 25 cmH2O
   SpO2: 97%
   ABG: 7.47/30/71/17/Units: mEq/L
   Ve: 25.4 L/min
   PaO2 / FiO2: 178
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.5 g/dL
   74 K/uL
   126 mg/dL
   0.9 mg/dL
   17 mEq/L
   3.9 mEq/L
   15 mg/dL
   96 mEq/L
   125 mEq/L
   27.5 %
   9.0 K/uL
        [image002.jpg]
                             [**2133-1-15**]  04:50 AM
                             [**2133-1-15**]  08:09 PM
                             [**2133-1-16**]  08:46 AM
                             [**2133-1-17**]  12:00 AM
                             [**2133-1-20**]  05:40 AM
                             [**2133-1-20**]  09:16 AM
                             [**2133-1-21**]  04:49 AM
                             [**2133-1-22**]  04:44 AM
                             [**2133-1-22**]  09:34 AM
                             [**2133-1-22**]  09:52 AM
   WBC
   5.9
   5.1
   6.7
   6.9
   10.5
   9.0
   Hct
   25.2
   22.7
   23.3
   22.3
   26.7
   27.5
   Plt
   245
   206
   95
   80
   54
   74
   Cr
   0.5
   0.6
   0.5
   0.6
   1.0
   0.9
   TCO2
   35
   34
   22
   Glucose
   106
   737
   145
   114
   109
   126
   Other labs: PT / PTT / INR:14.3/35.7/1.2, Differential-Neuts:92.4 %,
   Band:Units: %
   Range: 0-5 %, Lymph:3.0 %, Mono:3.2 %, Eos:1.3 %, Fibrinogen:618 mg/dL,
   Lactic Acid:3.6 mmol/L, Ca++:7.8 mg/dL, Mg++:2.2 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   57 y/o woman with respiratory failure secondary to metastatic disease,
   now with thrombocytopenia, probable HIT, and oliguria.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   -          trach today
 CANCER (MALIGNANT NEOPLASM), GYNECOLOGICAL (OVARIAN, UTERINE,
   CERVICAL, ENDOMETRIAL)
   -          no acute intervention
 TACHYCARDIA, OTHER
   -          volume challenge prn
   -
 THROMBOCYTOPENIA, ACUTE
   -          follow up HIT
 PULMONARY EMBOLISM (PE), ACUTE
   -          no anticoagulation given high risk of hemorrhage from pulm
   disease
   -
 ANEMIA, OTHER
   -          responded to transfusion
   -
   Acute renal failure
   -          follow for now with fluid challenge
   We discussed the risks of transfusion of platelets with Ms. [**Known lastname 583**] and
   her family.  She asked appropriate questions, and wishes to proceed
   because of the possibility of increased comfort with trach.  She
   demonstrates a good undertanding of the issues involved.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2133-1-13**] 02:43 PM
   Prophylaxis:
   DVT:  boots.  No heparin
   Stress ulcer: PPI
   VAP: usual care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition : ICU
   Total time spent: 50 min

2133-01-23 07:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PEG INSERTION - At [**2133-1-22**] 05:52 PM
 BLOOD CULTURED - At [**2133-1-22**] 09:06 PM
 FEVER - 103.0
F - [**2133-1-22**] 08:00 PM
   PEG and Trach done.
   Had another episode of tachycardia with SBP in 200s, improved with
   ativan.
   Febrile to 103, cultured.
   Oliguria minimally responsive to fluids.
   Subjective:  Trach, PEG sore, especially with coughing.
   Allergies:
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2133-1-22**] 01:00 AM
   Vancomycin - [**2133-1-22**] 08:00 PM
   Ciprofloxacin - [**2133-1-22**] 11:47 PM
   Piperacillin/Tazobactam (Zosyn) - [**2133-1-23**] 01:12 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2133-1-22**] 05:55 PM
   Midazolam (Versed) - [**2133-1-22**] 05:56 PM
   Lorazepam (Ativan) - [**2133-1-22**] 10:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-1-23**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (103
   Tcurrent: 37.3
C (99.1
   HR: 106 (87 - 150) bpm
   BP: 99/58(66){65/34(42) - 241/215(215)} mmHg
   RR: 19 (14 - 31) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 97.1 kg (admission): 91.5 kg
   Height: 65 Inch
             Total In:
                                                                  6,885 mL
                                                                    912 mL
   PO:
             TF:
   IVF:
                                                                  6,585 mL
                                                                    912 mL
   Blood products:
                                                                    300 mL
   Total out:
                                                                    540 mL
                                                                    250 mL
   Urine:
                                                                    540 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,345 mL
                                                                    662 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 501) mL
   Vt (Spontaneous): 132 (132 - 569) mL
   PS : 18 cmH2O
   RR (Set): 14
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 131
   PIP: 25 cmH2O
   Plateau: 21 cmH2O
   SpO2: 100%
   ABG: 7.47/30/71/22/Units: mEq/L
   Ve: 7.6 L/min
   PaO2 / FiO2: 142
   Physical Examination
   Awake, trach in place, smiling.
   MMM
   S1, S2, tachycardic, no murmur.
   Coarse BS b/l
   Abdomen with new PEG in place, site clean and not erythematous, soft.
   +1 LE edema b/l
   DP +2 /bl, ext warm.
   Labs / Radiology
   82 K/uL
   7.5 g/dL
   149 mg/dL
   1.1 mg/dL
   22 mEq/L
   3.6 mEq/L
   16 mg/dL
   100 mEq/L
   130 mEq/L
   23.3 %
   4.9 K/uL
        [image002.jpg]
                             [**2133-1-17**]  12:00 AM
                             [**2133-1-20**]  05:40 AM
                             [**2133-1-20**]  09:16 AM
                             [**2133-1-21**]  04:49 AM
                             [**2133-1-22**]  04:44 AM
                             [**2133-1-22**]  09:34 AM
                             [**2133-1-22**]  09:52 AM
                             [**2133-1-22**]  11:00 AM
                             [**2133-1-22**]  02:47 PM
                             [**2133-1-23**]  05:35 AM
   WBC
   6.7
   6.9
   10.5
   9.0
   4.9
   Hct
   23.3
   22.3
   26.7
   27.5
   23.3
   Plt
   95
   80
   54
   74
   94
   82
   Cr
   0.5
   0.6
   1.0
   0.9
   0.9
   1.1
   TCO2
   34
   22
   Glucose
   145
   114
   109
   126
   748
   148
   126
   149
   Other labs: PT / PTT / INR:14.3/35.7/1.2, Differential-Neuts:93.9 %,
   Band:3.0 %, Lymph:2.0 %, Mono:Units: %
   Range: [**1-19**] %, Eos:Units: %
   Range: 0-4 %, Fibrinogen:618 mg/dL, Lactic Acid:3.6 mmol/L, Ca++:7.4
   mg/dL, Mg++:2.0 mg/dL, PO4:2.4 mg/dL
   Heparin dependent antibodies positive.
   Cultures:
   Blood, urine, sputum [**1-22**] pending
   Blood 2/13 pending
   Sputum [**1-21**]:
   GRAM STAIN (Final [**2133-1-21**]):
      [**10-3**] PMNs and <10 epithelial cells/100X field.
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CLUSTERS.
      RESPIRATORY CULTURE (Preliminary):    CULTURE TOO YOUNG TO EVALUATE.
   Renal US not yet done
   Assessment and Plan
   57yo woman with metastatic cervical cancer and respiratory failure.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   -          s/p trach [**1-22**], doing well
   -          appreciate speech and swallow eval for passy-muir valve
   -          continue current vent settings
 CANCER (MALIGNANT NEOPLASM), GYNECOLOGICAL (OVARIAN, UTERINE,
   CERVICAL, ENDOMETRIAL)
   -          not currently pursuing further treatment, though family is
   discussing possibility of chemotherapy at NY Presbyterian
   -          appreciate input from Dr. [**Last Name (STitle) 604**]
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Heparin Induced Thrombocytopenia
   -          no evidence for thrombosis at this time
   -          platelets stable since stopping all heparin products
   -          not a candidate for anticoagulation b/c of risk of bleed
   from pulmonary metastases
   # Fever:
   - Concern for VAP.  Treating with vanc, zosyn, and cipro (day 1 = [**1-21**])
   - f/u blood, urine, and sputum cx
   - not currently febrile
 TACHYCARDIA, OTHER
   -          episodes of tachycardia to 140s superimposed on baseline
   about 110
   -          most likely multifactorial in setting of anxiety, dyspnea,
   agitation
   -          treat possible pneumonia
   -          continue supportive care with ativan, IV fluids
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   -          continue IV fluids
   -          awaiting renal ultrasound (is at risk for obstruction given
   h/o cervical CA)
 PULMONARY EMBOLISM (PE), ACUTE
   -          no anticoagulation b/c of bleeding risk
 ANEMIA, OTHER:
   -          Hct drop in setting of recent trach/PEG as well as IV fluids
   -          Check PM Hct to confirm that Hct is stable
   ICU Care
   Nutrition: NPO, PEG placed 5pm [**1-22**]
   Glycemic Control:  BS well controlled
   Lines:
   PICC Line - [**2133-1-13**] 02:43 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:  mouth care, HOB
   Comments: enema for constipation x 1 week
   Code status: DNR (do not resuscitate)
   Disposition: ICU, appreciate case management assistance with placement

2133-01-24 07:59:00 Physician Resident Progress Note
Chief Complaint: respiratory distress
   24 Hour Events:
 FEVER - 101.6
F - [**2133-1-23**] 08:00 PM
   Renal ultrasound showed mild L hydronephrosis
   Continued to have fevers
   SUBJECTIVE:
   Pain with coughing
   Allergies:
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2133-1-22**] 01:00 AM
   Vancomycin - [**2133-1-23**] 08:44 PM
   Ciprofloxacin - [**2133-1-23**] 11:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2133-1-23**] 11:48 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2133-1-23**] 09:18 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-1-24**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 37.6
C (99.6
   HR: 103 (102 - 128) bpm
   BP: 89/59(65){84/48(56) - 101/65(73)} mmHg
   RR: 30 (0 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.1 kg (admission): 91.5 kg
   Height: 65 Inch
             Total In:
                                                                  3,834 mL
                                                                    999 mL
   PO:
             TF:
   IVF:
                                                                  3,834 mL
                                                                    999 mL
   Blood products:
   Total out:
                                                                    725 mL
                                                                    260 mL
   Urine:
                                                                    725 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,109 mL
                                                                    739 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 592 (342 - 596) mL
   PS : 10 cmH2O
   RR (Set): 22
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 97,059
   PIP: 16 cmH2O
   Plateau: 21 cmH2O
   SpO2: 100%
   ABG: ///22/
   Ve: 11.4 L/min
   Physical Examination
   Sitting up in bed, oriented, pleasant.
   MMM
   Trach in place
   S1, S2, tachy, no murmur
   Lungs with coarse BS
   Abdomen with new PEG in place, no erythema at site
   Ext with +1 edema, warm.
   Labs / Radiology
   75 K/uL
   7.5 g/dL
   113 mg/dL
   1.1 mg/dL
   22 mEq/L
   3.9 mEq/L
   15 mg/dL
   102 mEq/L
   132 mEq/L
   22.6 %
   4.6 K/uL
        [image002.jpg]
                             [**2133-1-20**]  05:40 AM
                             [**2133-1-20**]  09:16 AM
                             [**2133-1-21**]  04:49 AM
                             [**2133-1-22**]  04:44 AM
                             [**2133-1-22**]  09:34 AM
                             [**2133-1-22**]  09:52 AM
                             [**2133-1-22**]  11:00 AM
                             [**2133-1-22**]  02:47 PM
                             [**2133-1-23**]  05:35 AM
                             [**2133-1-24**]  04:44 AM
   WBC
   6.7
   6.9
   10.5
   9.0
   4.9
   4.6
   Hct
   23.3
   22.3
   26.7
   27.5
   23.3
   22.6
   Plt
   95
   80
   54
   74
   94
   82
   75
   Cr
   0.5
   0.6
   1.0
   0.9
   0.9
   1.1
   1.1
   TCO2
   34
   22
   Glucose
   114
   109
   126
   748
   148
   126
   149
   113
   Other labs: PT / PTT / INR:14.3/35.7/1.2, Differential-Neuts:93.9 %,
   Band:3.0 %, Lymph:2.0 %, Mono:Units: %
   Range: [**1-19**] %, Eos:Units: %
   Range: 0-4 %, Fibrinogen:618 mg/dL, Lactic Acid:3.6 mmol/L, Ca++:7.8
   mg/dL, Mg++:1.9 mg/dL, PO4:2.1 mg/dL
Sputum Cx   GRAM STAIN (Final [**2133-1-21**]):
      [**10-3**] PMNs and <10 epithelial cells/100X field.
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CLUSTERS.
   RESPIRATORY CULTURE (Final [**2133-1-23**]):
         MODERATE GROWTH OROPHARYNGEAL FLORA.
   BCx [**Date range (1) 934**] NGTD
   UCx negative
   Renal US [**1-23**]:
   The right kidney measures 10.5 cm in its long axis and the left
   kidney measures 12.7 cm.  The left collecting system shows mild
   hydronephrosis.  The ureter could not be assessed being obscured by ove
   rlying
   bowel gas.  Right kidney is normal.  No focal mass lesions or calculi
   identified.  There is an indwelling Foley catheter in the urinary bladd
   er
   which was empty at the time of the examination.
   Assessment and Plan
   57yo woman with metastatic cervical carcinoma and respiratory failure.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   -          doing well s/p trach [**1-22**]
   -          PS decreased to [**9-13**] this morning, pt doing well
   -          Continue to progress with trach collar, passy-muir valve
 CANCER (MALIGNANT NEOPLASM), GYNECOLOGICAL (OVARIAN, UTERINE,
   CERVICAL, ENDOMETRIAL)
   -          family discussing pursuing treatment in NY
   -          will contact brother-in-law, [**Name (NI) 34**], to obtain further
   information
   -          appreciate assistance from Dr. [**Last Name (STitle) 604**]
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   -          continues to have fevers; most suspicious of VAP, though
   sputum Cx only with oropharyngeal flora
   -          f/u blood, urine, sputum Cx
   -          DC foley
   -          Continue vanc/zosyn/cipro (day 1 = [**1-21**]) for possible VAP
   -          If culture data still negative tomorrow, would consider
   stopping antibiotics
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF):
   -          occurred in setting of new fevers, tachycardia, hypotension,
   so most likely prerenal
   -          urine output has improved somewhat over last 24 hours
   -          renal US with mild L hydro despite foley in place; could
   have obstruction from tumor, though mild u/l hydro unlikely to cause
   significant renal impairment
   -          monitor urine output and Cr
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Heparin Induced Thrombocytopenia
   -          no evidence of thrombosis
   -          platelets stable after stopping heparin
   -          not a candidate for argatroban b/c of bleeding risk from
   pulmonary metastases
   -          pt agrees to wear pneumoboots
 TACHYCARDIA, OTHER
   -          less frequent episodes of tachycardia, most likely b/c she
   appears to be more comfortable with trach
 PULMONARY EMBOLISM (PE), ACUTE
   -          no anticoagulation given bleeding risk
 ANEMIA, OTHER
   -          Hct stable
   ICU Care
   Nutrition: starting tube feeds by PEG today
   Glycemic Control:  start SSI with regular insulin to control sugars
   while on tube feeds; if insignificant insulin requirement today, would
   reassess and stop QID fingersticks tomorrow
   Lines:
   PICC Line - [**2133-1-13**] 02:43 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:  mouth care
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: contact brother-in-law, [**Name (NI) 34**], at [**Telephone/Fax (1) 584**] to confirm
   name of MD [**First Name (Titles) **] [**Last Name (Titles) **] re: chemo

2133-01-24 10:15:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 FEVER - 101.6
F - [**2133-1-23**] 08:00 PM
   History obtained from Patient
   Allergies:
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2133-1-22**] 01:00 AM
   Vancomycin - [**2133-1-23**] 08:44 PM
   Ciprofloxacin - [**2133-1-23**] 11:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2133-1-24**] 08:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   lidocaine through ETT
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: No(t) Dyspnea
   Flowsheet Data as of  [**2133-1-24**] 10:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 37.2
C (98.9
   HR: 109 (102 - 128) bpm
   BP: 88/56(66){84/49(59) - 101/65(73)} mmHg
   RR: 24 (0 - 32) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 97.1 kg (admission): 91.5 kg
   Height: 65 Inch
             Total In:
                                                                  3,834 mL
                                                                  1,393 mL
   PO:
             TF:
   IVF:
                                                                  3,834 mL
                                                                  1,393 mL
   Blood products:
   Total out:
                                                                    725 mL
                                                                    510 mL
   Urine:
                                                                    725 mL
                                                                    510 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,109 mL
                                                                    883 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 592 (342 - 596) mL
   PS : 10 cmH2O
   RR (Set): 22
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 97,059
   PIP: 16 cmH2O
   Plateau: 21 cmH2O
   SpO2: 99%
   ABG: ///22/
   Ve: 11.4 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: trach site c/d/i
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Crackles : , No(t) Wheezes : , Diminished: both bases)
   Abdominal: Soft, Non-tender, hypoactive bowel sounds
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   7.5 g/dL
   75 K/uL
   113 mg/dL
   1.1 mg/dL
   22 mEq/L
   3.9 mEq/L
   15 mg/dL
   102 mEq/L
   132 mEq/L
   22.6 %
   4.6 K/uL
        [image002.jpg]
                             [**2133-1-20**]  05:40 AM
                             [**2133-1-20**]  09:16 AM
                             [**2133-1-21**]  04:49 AM
                             [**2133-1-22**]  04:44 AM
                             [**2133-1-22**]  09:34 AM
                             [**2133-1-22**]  09:52 AM
                             [**2133-1-22**]  11:00 AM
                             [**2133-1-22**]  02:47 PM
                             [**2133-1-23**]  05:35 AM
                             [**2133-1-24**]  04:44 AM
   WBC
   6.7
   6.9
   10.5
   9.0
   4.9
   4.6
   Hct
   23.3
   22.3
   26.7
   27.5
   23.3
   22.6
   Plt
   95
   80
   54
   74
   94
   82
   75
   Cr
   0.5
   0.6
   1.0
   0.9
   0.9
   1.1
   1.1
   TCO2
   34
   22
   Glucose
   114
   109
   126
   748
   148
   126
   149
   113
   Other labs: PT / PTT / INR:14.3/35.7/1.2, Differential-Neuts:93.9 %,
   Band:3.0 %, Lymph:2.0 %, Mono:Units: %
   Range: [**1-19**] %, Eos:Units: %
   Range: 0-4 %, Fibrinogen:618 mg/dL, Lactic Acid:3.6 mmol/L, Ca++:7.8
   mg/dL, Mg++:1.9 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   57 y/o F with respiratory failure secondary to metastatic cervical
   cancer, now s/p trach and doing well but persistently febrile.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]): [**1-10**] mets, with possible
   superimposed VAP.  Still febrile, cx negative to date.  If cx remain
   negative tomorrow (72 hours) would d/c antibiotics.  PSV weaned, will
   cont this.  Can try trach mask trials although highly doubt she will
   tolerate.
 CANCER (MALIGNANT NEOPLASM), GYNECOLOGICAL (OVARIAN, UTERINE,
   CERVICAL, ENDOMETRIAL):  Not actively treating.  S/p XRT.
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN):  Unclear
   source, treating as presumed VAP.  Also could be due to clot given high
   propensity (HIT positive).
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF): Creatinine increased
   and now stable but high at 1.1.  UOP improved yesterday.  [**Month (only) 60**] be due to
   poor forward flow during hypotension.
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Heparin Induced Thrombocytopenia
 TACHYCARDIA, OTHER:  Stable.  Improves with sleeping.  Will give IVF
   prn to see if it improves.
 HYPOTENSION (NOT SHOCK):  As above, stable.  Concern for evolving
   sepsis.  Seems to have improved with antibiotics and IVF.
 PULMONARY EMBOLISM (PE), ACUTE:  Not anticoagulated as met eroding
   into PA.
 ANEMIA, OTHER:  Hct stable, no signs of active bleeding.  Likely due
   to malignancy.
   ICU Care
   Nutrition:
   Comments: start TF
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   PICC Line - [**2133-1-13**] 02:43 PM
   Prophylaxis:
   DVT: Boots(refuses boots.)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35

2133-01-25 08:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 CHEST PAIN - At [**2133-1-25**] 06:41 AM
   - was closer to G tube site, pt c/o [**2135-4-14**] pain mainly with
   breathing/movement, no associated nausea, lightheadedness, or worsened
   SOB. she has had this discomfort before, EKG shows sinus tach.  given
   oxycodone with good relief
   Allergies:
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2133-1-24**] 04:55 PM
   Ciprofloxacin - [**2133-1-24**] 11:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2133-1-25**] 12:10 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-1-25**] 08:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.4
C (99.3
   HR: 102 (93 - 112) bpm
   BP: 99/52(64){88/52(64) - 110/64(72)} mmHg
   RR: 23 (15 - 32) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.1 kg (admission): 91.5 kg
   Height: 65 Inch
             Total In:
                                                                  4,169 mL
                                                                  1,328 mL
   PO:
             TF:
                                                                     40 mL
                                                                    109 mL
   IVF:
                                                                  4,129 mL
                                                                  1,199 mL
   Blood products:
   Total out:
                                                                  1,825 mL
                                                                    550 mL
   Urine:
                                                                  1,825 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,344 mL
                                                                    778 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 560 (240 - 560) mL
   PS : 15 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 21 cmH2O
   SpO2: 99%
   ABG: ///19/
   Ve: 10.8 L/min
   Physical Examination
   General Appearance: Well nourished, chronically ill, interactive and
   alert
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), borderline tachy
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: ), coarse breath
   sounds throughout, anteriorly and at bases
   Abdominal: Soft, Non-tender, Bowel sounds present, G tube site appears
   normal
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   79 K/uL
   6.5 g/dL
   715 mg/dL
   1.0 mg/dL
   19 mEq/L
   3.1 mEq/L
   9 mg/dL
   95 mEq/L
   122 mEq/L
   21.4 %
   3.4 K/uL
        [image002.jpg]
                             [**2133-1-20**]  09:16 AM
                             [**2133-1-21**]  04:49 AM
                             [**2133-1-22**]  04:44 AM
                             [**2133-1-22**]  09:34 AM
                             [**2133-1-22**]  09:52 AM
                             [**2133-1-22**]  11:00 AM
                             [**2133-1-22**]  02:47 PM
                             [**2133-1-23**]  05:35 AM
                             [**2133-1-24**]  04:44 AM
                             [**2133-1-25**]  05:25 AM
   WBC
   6.9
   10.5
   9.0
   4.9
   4.6
   3.4
   Hct
   22.3
   26.7
   27.5
   23.3
   22.6
   21.4
   Plt
   80
   54
   74
   94
   82
   75
   79
   Cr
   0.6
   1.0
   0.9
   0.9
   1.1
   1.1
   1.0
   TCO2
   34
   22
   Glucose
   109
   126
   748
   148
   126
   149
   113
   715
   Ca++:6.2 mg/dL, Mg++:1.6 mg/dL, PO4:1.7 mg/dL
   MICRO
   BCx [**1-24**], [**1-22**], [**1-21**]  NGTD
   UCx [**1-22**] NGTD
   Sputum Cx [**1-21**]
 oropharyngeal flora
   UCx [**1-21**] NGTD
   RADIOLOGY
   [**1-23**] renal U/S: mild L hydronephrosis
   Assessment and Plan
   57yo woman with metastatic cervical carcinoma and respiratory failure.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   -          doing well s/p trach [**1-22**]
   -          titrate PSV to comfort, no need to titrate down
   -          Continue to progress with trach collar, passy-muir valve
 CANCER (MALIGNANT NEOPLASM), GYNECOLOGICAL (OVARIAN, UTERINE,
   CERVICAL, ENDOMETRIAL)
   -          family discussing pursuing further treatment in NY
   -          CM to pursue next week
   -          appreciate assistance from Dr. [**Last Name (STitle) 604**]
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   -          only low grade o/n, tmax 99.5
   -          sputum Cx only with oropharyngeal flora, all other cx
   negative, foley has been d/c
   -          on vanc/zosyn/cipro (day 1 = [**1-21**]) for possible VAP
   -          would stop antibiotics today
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF):
   -          occurred in setting of new fevers, tachycardia, hypotension,
   so most likely prerenal
   -          urine output is fine
   -          renal US showed mild L hydro despite foley; could have
   obstruction from tumor, though mild unilateral hydro unlikely to cause
   significant renal impairment
   -          trend urine output and Cr daily
 Heparin Induced Thrombocytopenia
   -          no evidence of thrombosis, platelets remain stable after
   stopping heparin
   -          not a candidate for argatroban b/c of bleeding risk from
   pulmonary metastases
   -          pt agrees to wear pneumoboots
 TACHYCARDIA, OTHER
   -          less frequent episodes of tachycardia, most likely b/c she
   appears to be more comfortable with trach
 PULMONARY EMBOLISM (PE), ACUTE
   -          no anticoagulation given bleeding risk
 ANEMIA, OTHER
   -          Hct stable, trend daily
   ICU Care
   Nutrition:
   Replete (Full) - [**2133-1-24**] 08:00 PM 20 mL/hour
 S/S consult ordered
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2133-1-13**] 02:43 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU for now, plan to transfer to [**Location (un) 505**] if possible

2133-01-25 11:59:00 Physician Attending Progress Note
Chief Complaint: hypoxemic respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 CHEST PAIN - At [**2133-1-25**] 06:41 AM:  Pleuritic in nature.  [**2135-4-14**].
   Worse with movement.  No nausea, SOB.  ECG showed sinus tach.  Resolved
   with oxycodone.
   History obtained from Patient
   Allergies:
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2133-1-24**] 11:00 PM
   Vancomycin - [**2133-1-25**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2133-1-25**] 08:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   chlorhexidine, atrovent, protonix, lidocaine, insulin SQ
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-1-25**] 11:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.9
C (98.4
   HR: 96 (93 - 112) bpm
   BP: 89/67(29){89/52(29) - 110/67(68)} mmHg
   RR: 23 (15 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.1 kg (admission): 91.5 kg
   Height: 65 Inch
             Total In:
                                                                  4,169 mL
                                                                  2,322 mL
   PO:
             TF:
                                                                     40 mL
                                                                    230 mL
   IVF:
                                                                  4,129 mL
                                                                  2,071 mL
   Blood products:
   Total out:
                                                                  1,825 mL
                                                                    650 mL
   Urine:
                                                                  1,825 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,344 mL
                                                                  1,672 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 590 (368 - 590) mL
   PS : 15 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: ///19/
   Ve: 10.1 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: trach in place
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: at bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   6.5 g/dL
   79 K/uL
   715 mg/dL
   1.0 mg/dL
   19 mEq/L
   3.1 mEq/L
   9 mg/dL
   95 mEq/L
   122 mEq/L
   21.4 %
   3.4 K/uL
        [image002.jpg]
                             [**2133-1-20**]  09:16 AM
                             [**2133-1-21**]  04:49 AM
                             [**2133-1-22**]  04:44 AM
                             [**2133-1-22**]  09:34 AM
                             [**2133-1-22**]  09:52 AM
                             [**2133-1-22**]  11:00 AM
                             [**2133-1-22**]  02:47 PM
                             [**2133-1-23**]  05:35 AM
                             [**2133-1-24**]  04:44 AM
                             [**2133-1-25**]  05:25 AM
   WBC
   6.9
   10.5
   9.0
   4.9
   4.6
   3.4
   Hct
   22.3
   26.7
   27.5
   23.3
   22.6
   21.4
   Plt
   80
   54
   74
   94
   82
   75
   79
   Cr
   0.6
   1.0
   0.9
   0.9
   1.1
   1.1
   1.0
   TCO2
   34
   22
   Glucose
   109
   126
   748
   148
   126
   149
   113
   715
   Other labs: PT / PTT / INR:14.3/35.7/1.2, Differential-Neuts:93.9 %,
   Band:3.0 %, Lymph:2.0 %, Mono:Units: %
   Range: [**1-19**] %, Eos:Units: %
   Range: 0-4 %, Fibrinogen:618 mg/dL, Lactic Acid:3.6 mmol/L, Ca++:6.2
   mg/dL, Mg++:1.6 mg/dL, PO4:1.7 mg/dL
   Imaging: Renal u/s showed mild hydro
   Microbiology: Sputum with OP flora
   Assessment and Plan
   57 y/o F with metastatic cervical cancer and respiratory failure
   secondary to her metastatic disease with potentially superimposed
   pneumonia and PEs.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]):  Secondary to mets.  Doing
   well on PSV 15/5.
 CANCER (MALIGNANT NEOPLASM), GYNECOLOGICAL (OVARIAN, UTERINE,
   CERVICAL, ENDOMETRIAL):  Family is communicating with Oncologist at [**Location (un) 953**] Presbyterian regarding potential further treatments.
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN):
   Low-grade temp today.  All cultures have been negative.
   - d/c antibiotics as cultures negative.  Her fever may be due to
   thrombus given HIT.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF):  Improved slightly
   today.  UOP improved as well.  Likely due to hypotension.  Mild hydro
   on u/s, unclear why - ? tumor obstruction.  No intervention at this
   point.
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Heparin Induced Thrombocytopenia:  Platelets stable.  PICC not
   heparin-coated.  All heparin held.
 TACHYCARDIA, OTHER:  Improved with IVF over past several days.
 HYPOTENSION (NOT SHOCK):  Also improved.
 PULMONARY EMBOLISM (PE), ACUTE:  No anticoagulation due to metastatic
   disease eroding into PA.
 ANEMIA, OTHER:  Slowly drifting down.  Will likely require
   transfusion tomorrow.  No clinical signs of bleeding.
   .
   ICU Care
   Nutrition:
   Replete (Full) - [**2133-1-25**] 11:13 AM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   PICC Line - [**2133-1-13**] 02:43 PM
   Prophylaxis:
   DVT: IVC filter(refuses pneumoboots)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent:

2133-01-25 13:41:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, metastatic cancer, pneumonia.
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient comfortable on trach mask.
   24 Hour Events:
 CHEST PAIN - At [**2133-1-25**] 06:41 AM
   History obtained from Patient
   Allergies:
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2133-1-25**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2133-1-25**] 08:00 AM
   Ciprofloxacin - [**2133-1-25**] 11:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-1-25**] 01:40 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37
C (98.6
   HR: 101 (93 - 112) bpm
   BP: 102/52(62){89/52(29) - 102/67(68)} mmHg
   RR: 17 (15 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.1 kg (admission): 91.5 kg
   Height: 65 Inch
             Total In:
                                                                  4,169 mL
                                                                  2,861 mL
   PO:
             TF:
                                                                     40 mL
                                                                    290 mL
   IVF:
                                                                  4,129 mL
                                                                  2,551 mL
   Blood products:
   Total out:
                                                                  1,825 mL
                                                                    880 mL
   Urine:
                                                                  1,825 mL
                                                                    880 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,344 mL
                                                                  1,981 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 357 (357 - 590) mL
   PS : 15 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: ///19/
   Ve: 12.3 L/min
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, No(t) Anxious, No(t) Diaphoretic
   Head, Ears, Nose, Throat: Trach mask
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: , Wheezes :
   , No(t) Diminished: , No(t) Absent : , Rhonchorous: ), Diffuse coarse
   rhonchi with occasional wheeze
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, PEG
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place and time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   6.5 g/dL
   79 K/uL
   715 mg/dL
   1.0 mg/dL
   19 mEq/L
   3.1 mEq/L
   9 mg/dL
   95 mEq/L
   122 mEq/L
   21.4 %
   3.4 K/uL
        [image002.jpg]
                             [**2133-1-20**]  09:16 AM
                             [**2133-1-21**]  04:49 AM
                             [**2133-1-22**]  04:44 AM
                             [**2133-1-22**]  09:34 AM
                             [**2133-1-22**]  09:52 AM
                             [**2133-1-22**]  11:00 AM
                             [**2133-1-22**]  02:47 PM
                             [**2133-1-23**]  05:35 AM
                             [**2133-1-24**]  04:44 AM
                             [**2133-1-25**]  05:25 AM
   WBC
   6.9
   10.5
   9.0
   4.9
   4.6
   3.4
   Hct
   22.3
   26.7
   27.5
   23.3
   22.6
   21.4
   Plt
   80
   54
   74
   94
   82
   75
   79
   Cr
   0.6
   1.0
   0.9
   0.9
   1.1
   1.1
   1.0
   TCO2
   34
   22
   Glucose
   109
   126
   748
   148
   126
   149
   113
   715
   Other labs: PT / PTT / INR:14.3/35.7/1.2, Differential-Neuts:93.9 %,
   Band:3.0 %, Lymph:2.0 %, Mono:Units: %
   Range: [**1-19**] %, Eos:Units: %
   Range: 0-4 %, Fibrinogen:618 mg/dL, Lactic Acid:3.6 mmol/L, Ca++:6.2
   mg/dL, Mg++:1.6 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 CANCER (MALIGNANT NEOPLASM), GYNECOLOGICAL (OVARIAN, UTERINE,
   CERVICAL, ENDOMETRIAL)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Heparin Induced Thrombocytopenia
 TACHYCARDIA, OTHER
 HYPOTENSION (NOT SHOCK)
 PULMONARY EMBOLISM (PE), ACUTE
 ANEMIA, OTHER
   Patient doing well on trach mask. During rounds, we placed PSV 5/5 and
   she was quite comfortable. We will place her on trach mask. We
   explained the concept of "sprint/rest" weaning protocol. Patient
   willing to engage in the process.        Hemodynamically stable.  Renal
   function improved.      Antibiotics stopped.     Platelet count stable.
   ICU Care
   Nutrition:
   Replete (Full) - [**2133-1-25**] 11:13 AM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2133-1-13**] 02:43 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition : MICU
   Total time spent:  25 mins.

2133-01-26 07:59:00 Physician Resident Progress Note
Chief Complaint: Respiratory failure/hemoptysis
   24 Hour Events:
   d/c'ed all antibiotics as nothing had grown from all her cultures
   was intermittently on trach collar
   Went up on pressure support for some subjective air hunger, sats ok
   SUBJECTIVE:
   c/o swelling in legs b/l
   Allergies:
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2133-1-25**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2133-1-25**] 08:00 AM
   Ciprofloxacin - [**2133-1-25**] 11:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-1-26**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.1
C (98.7
   HR: 101 (88 - 128) bpm
   BP: 109/71(80){89/41(29) - 123/73(83)} mmHg
   RR: 12 (12 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.1 kg (admission): 91.5 kg
   Height: 65 Inch
             Total In:
                                                                  3,646 mL
                                                                    544 mL
   PO:
             TF:
                                                                    668 mL
                                                                    387 mL
   IVF:
                                                                  2,958 mL
                                                                    157 mL
   Blood products:
   Total out:
                                                                  1,400 mL
                                                                    275 mL
   Urine:
                                                                  1,400 mL
                                                                    275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,246 mL
                                                                    269 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 653 (337 - 708) mL
   PS : 15 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 16 cmH2O
   SpO2: 98%
   ABG: ///23/
   Ve: 8.6 L/min
   Physical Examination
   Sleeping, wakes easily
   Appears comfortable
   MMM
   S1, S2, tachy, no murmur
   Lungs with coarse BS, diminished at bases.
   PEG site appears clean; abd with BS, soft
   ++LE edema; ext warm
   Labs / Radiology
   124 K/uL
   7.3 g/dL
   126 mg/dL
   1.0 mg/dL
   23 mEq/L
   4.3 mEq/L
   13 mg/dL
   101 mEq/L
   130 mEq/L
   22.9 %
   3.2 K/uL
        [image002.jpg]
                             [**2133-1-21**]  04:49 AM
                             [**2133-1-22**]  04:44 AM
                             [**2133-1-22**]  09:34 AM
                             [**2133-1-22**]  09:52 AM
                             [**2133-1-22**]  11:00 AM
                             [**2133-1-22**]  02:47 PM
                             [**2133-1-23**]  05:35 AM
                             [**2133-1-24**]  04:44 AM
                             [**2133-1-25**]  05:25 AM
                             [**2133-1-26**]  04:25 AM
   WBC
   6.9
   10.5
   9.0
   4.9
   4.6
   3.4
   3.2
   Hct
   22.3
   26.7
   27.5
   23.3
   22.6
   21.4
   22.9
   Plt
   80
   54
   74
   94
   82
   75
   79
   124
   Cr
   0.6
   1.0
   0.9
   0.9
   1.1
   1.1
   1.0
   1.0
   TCO2
   22
   Glucose
   109
   126
   748
   148
   126
   149
   113
   715
   126
   Other labs: PT / PTT / INR:14.3/35.7/1.2, Differential-Neuts:93.9 %,
   Band:3.0 %, Lymph:2.0 %, Mono:Units: %
   Range: [**1-19**] %, Eos:Units: %
   Range: 0-4 %, Fibrinogen:618 mg/dL, Lactic Acid:3.6 mmol/L, Ca++:7.9
   mg/dL, Mg++:2.3 mg/dL, PO4:2.2 mg/dL
   Ucx pending
   BCx NGTD
   Assessment and Plan
   57yo woman admitted with hemoptysis/respiratory failure from metastatic
   cervical cancer.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   -          Due to extensive pulmonary mets.
   -          s/p trach
encourage patient to continue to work on using
   trach collar and passy-muir valve
 CANCER (MALIGNANT NEOPLASM), GYNECOLOGICAL (OVARIAN, UTERINE,
   CERVICAL, ENDOMETRIAL)
   -          family to pursue further treatment at NY Presbyterian
   -          appreciate input from Dr. [**Last Name (STitle) 604**]
   -          need to contact MICU attending at NY Presbyterian to
   facilitate interhospital transfer ([**Telephone/Fax (1) 993**]); Chemotherapy to be
   done by Dr. [**Last Name (STitle) 994**]
   -          per case management, family will need to pay $6500 up front
   to cover transfer; will be partially reimbursed by insurance
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   -          resolving
   -          antibiotics stopped given cultures negative
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   -          urine output improving
   -          renal US notable for mild hydronephrosis; suspect some minor
   obstruction from primary tumor, but currently with preserved renal
   function
   -          monitor daily Cr
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Heparin Induced Thrombocytopenia
   -          no evidence of clot
   -          not a candidate for argatroban
   -          encourage pneumoboots, though patient often removes on her
   own
   -          platelet count improving with holding heparin
 TACHYCARDIA, OTHER
   -          at baseline
 HYPOTENSION (NOT SHOCK)
   -          improved
 PULMONARY EMBOLISM (PE), ACUTE
   -          no blood thinners given risk of bleed from pulmonary mets
 LEUKOPENIA
   -          will check diff and follow
   -          suspect this is secondary to infection that caused fevers
   and ARF
   # EDEMA
   -          gentle diuresis as tolerated by BP
   ICU Care
   Nutrition:
   Replete (Full) - [**2133-1-26**] 01:00 AM 55 mL/hour
   Glycemic Control:  BS 140-170s on [**Last Name (LF) **], [**First Name3 (LF) 178**] increase dose
   Lines:
   PICC Line - [**2133-1-13**] 02:43 PM
   Prophylaxis:
   DVT: NO HEPARIN PRODUCTS; pneumoboots
   Stress ulcer: PPI
   Code status: DNR (do not resuscitate)
   Disposition: ICU ; anticipating transfer to NY ; appreciate assistance
   of case management

2133-01-26 11:35:00 Physician Attending Progress Note
Chief Complaint: hypoxemic respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Tolerated trach mask trial x2 yesterday.
   History obtained from Patient
   Allergies:
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2133-1-25**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2133-1-25**] 08:00 AM
   Ciprofloxacin - [**2133-1-25**] 11:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   protonix, lidocaine per trach, insulin sliding scale
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-1-26**] 11:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.2
C (97.2
   HR: 110 (88 - 128) bpm
   BP: 97/58(68){89/41(54) - 123/73(83)} mmHg
   RR: 34 (12 - 34) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.1 kg (admission): 91.5 kg
   Height: 65 Inch
             Total In:
                                                                  3,646 mL
                                                                    833 mL
   PO:
             TF:
                                                                    668 mL
                                                                    606 mL
   IVF:
                                                                  2,958 mL
                                                                    227 mL
   Blood products:
   Total out:
                                                                  1,400 mL
                                                                    485 mL
   Urine:
                                                                  1,400 mL
                                                                    485 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,246 mL
                                                                    348 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 653 (337 - 708) mL
   PS : 15 cmH2O
   RR (Spontaneous): 35
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 16 cmH2O
   SpO2: 98%
   ABG: ///23/
   Ve: 12.3 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: trach c/d/i
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   decreased at bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.3 g/dL
   124 K/uL
   126 mg/dL
   1.0 mg/dL
   23 mEq/L
   4.3 mEq/L
   13 mg/dL
   101 mEq/L
   130 mEq/L
   22.9 %
   3.2 K/uL
        [image002.jpg]
                             [**2133-1-21**]  04:49 AM
                             [**2133-1-22**]  04:44 AM
                             [**2133-1-22**]  09:34 AM
                             [**2133-1-22**]  09:52 AM
                             [**2133-1-22**]  11:00 AM
                             [**2133-1-22**]  02:47 PM
                             [**2133-1-23**]  05:35 AM
                             [**2133-1-24**]  04:44 AM
                             [**2133-1-25**]  05:25 AM
                             [**2133-1-26**]  04:25 AM
   WBC
   6.9
   10.5
   9.0
   4.9
   4.6
   3.4
   3.2
   Hct
   22.3
   26.7
   27.5
   23.3
   22.6
   21.4
   22.9
   Plt
   80
   54
   74
   94
   82
   75
   79
   124
   Cr
   0.6
   1.0
   0.9
   0.9
   1.1
   1.1
   1.0
   1.0
   TCO2
   22
   Glucose
   109
   126
   748
   148
   126
   149
   113
   715
   126
   Other labs: PT / PTT / INR:14.3/35.7/1.2, Differential-Neuts:93.9 %,
   Band:3.0 %, Lymph:2.0 %, Mono:Units: %
   Range: [**1-19**] %, Eos:Units: %
   Range: 0-4 %, Fibrinogen:618 mg/dL, Lactic Acid:3.6 mmol/L, Ca++:7.9
   mg/dL, Mg++:2.3 mg/dL, PO4:2.2 mg/dL
   Microbiology: Urine cx pending
   Blood cx negative
   Assessment and Plan
   57 y/o F with respiratory failure secondary to metastatic cervical
   cancer, now improved.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]):  Due to metastatic
   disease.  Tolerating trach collar trials.  Will repeat again today as
   she tolerates.
 CANCER (MALIGNANT NEOPLASM), GYNECOLOGICAL (OVARIAN, UTERINE,
   CERVICAL, ENDOMETRIAL):  Not currently being treated.
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN):
   Resolved.  Has done well off antibiotics x 24 hours.  [**Month (only) 60**] be due to
   thrombus in setting of HIT although unclear if she has new clot.
 LE EDEMA:  Likely due to be total body volume overloaded, and also
   likely secondary to IVC filter.
   - will try low-dose lasix
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF):  Improving.
 LEUKOPENIA:  Unclear cause, has been trending down for days.  Will
   review meds and add on differential.
 HYPONATREMIA:  Likely due to hypervolemia.  Will attempt gentle
   diuresis.
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Heparin Induced Thrombocytopenia:  Platelets improving with d/c of
   heparin.
 TACHYCARDIA, OTHER:  Improving.
 HYPOTENSION (NOT SHOCK):  Improving, responded to volume.
 PULMONARY EMBOLISM (PE), ACUTE:  Not anticoagulated due to mass
   eroding into PA.
 ANEMIA, OTHER:  Stable.  Likely due to numerous lab draws.  Will
   follow.  No indication for transfusion.
   .
   ICU Care
   Nutrition:
   Replete (Full) - [**2133-1-26**] 01:00 AM 65 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   PICC Line - [**2133-1-13**] 02:43 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40

2133-01-27 07:57:00 Physician Resident Progress Note
Chief Complaint: respiratory failure
   24 Hour Events:
   Gave lasix 10mg IV with good response, tolerated by BP
   Contact[**Name (NI) **] [**Name2 (NI) **] Presbyterian
   Case management investigated logistics of transport--family needs $6500
   to pay for move, but will be partially reimbursed by family
   Patient did not use trach collar at all b/c she felt too tired
   Switched to AC to give her a rest
   SUBJECTIVE:
   Asking about getting speech & swallow evaluation
   Allergies:
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2133-1-25**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2133-1-25**] 08:00 AM
   Ciprofloxacin - [**2133-1-25**] 11:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2133-1-27**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-1-27**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.4
C (97.5
   HR: 113 (97 - 118) bpm
   BP: 84/49(58){77/45(52) - 98/68(76)} mmHg
   RR: 19 (16 - 34) insp/min
   SpO2: 84%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 97.1 kg (admission): 91.5 kg
   Height: 65 Inch
             Total In:
                                                                  2,099 mL
                                                                    209 mL
   PO:
             TF:
                                                                  1,433 mL
                                                                    110 mL
   IVF:
                                                                    666 mL
                                                                     99 mL
   Blood products:
   Total out:
                                                                  1,305 mL
                                                                    540 mL
   Urine:
                                                                  1,305 mL
                                                                    540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    794 mL
                                                                   -331 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 501) mL
   Vt (Spontaneous): 457 (457 - 540) mL
   PS : 15 cmH2O
   RR (Set): 14
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 56
   PIP: 22 cmH2O
   Plateau: 14 cmH2O
   SpO2: 84%
   ABG: ///24/
   Ve: 12.2 L/min
   Physical Examination
   Awake in bed, pale, tired.
   Trach in place
   S1, S2, tachy, regular, no murmur
   Lungs wheezy b/l
   Abd +BS, soft, NT, ND.  PEG site clean, non-erythematous.
   Ext with +2 edema b/l, warm
   Labs / Radiology
   170 K/uL
   7.2 g/dL
   140 mg/dL
   1.0 mg/dL
   24 mEq/L
   4.0 mEq/L
   15 mg/dL
   100 mEq/L
   132 mEq/L
   22.9 %
   3.0 K/uL
        [image002.jpg]
                             [**2133-1-22**]  04:44 AM
                             [**2133-1-22**]  09:34 AM
                             [**2133-1-22**]  09:52 AM
                             [**2133-1-22**]  11:00 AM
                             [**2133-1-22**]  02:47 PM
                             [**2133-1-23**]  05:35 AM
                             [**2133-1-24**]  04:44 AM
                             [**2133-1-25**]  05:25 AM
                             [**2133-1-26**]  04:25 AM
                             [**2133-1-27**]  05:24 AM
   WBC
   10.5
   9.0
   4.9
   4.6
   3.4
   3.2
   3.0
   Hct
   26.7
   27.5
   23.3
   22.6
   21.4
   22.9
   22.9
   Plt
   54
   74
   94
   82
   75
   79
   124
   170
   Cr
   1.0
   0.9
   0.9
   1.1
   1.1
   1.0
   1.0
   1.0
   TCO2
   22
   Glucose
   126
   748
   148
   126
   149
   113
   [**Telephone/Fax (3) 999**]
   Other labs: PT / PTT / INR:13.5/28.6/1.2, Differential-Neuts:78.7 %,
   Band:Units: %
   Range: 0-5 %, Lymph:13.8 %, Mono:4.3 %, Eos:3.0 %, Fibrinogen:618
   mg/dL, Lactic Acid:3.6 mmol/L, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:2.2
   mg/dL
   Assessment and Plan
   57yo woman with hemoptysis/respiratory failure from metastatic cervical
   cancer.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   -          s/p trach; encourage use of trach collar  and passy-muir
   valve
 CANCER (MALIGNANT NEOPLASM), GYNECOLOGICAL (OVARIAN, UTERINE,
   CERVICAL, ENDOMETRIAL)
   -          family plans to pursue possible chemotherapy at NY
   Presbyterian with Dr. [**Last Name (STitle) 994**] of oncology
   -          need attending to attending acceptance of transfer (MICU
   attending at [**Telephone/Fax (1) 993**])
   -          appreciate case management assistance with transport
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   -          was oliguric last week, found to have mild L hydronephrosis
   -          now with good urine output and stable Cr; monitor
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Heparin Induced Thrombocytopenia
   -          no evidence of clot
   -          patient educated about importance of pneumoboots, but still
   only variably compliant
   -          platelet counts recovering
   -          not a candidate for argatroban
 TACHYCARDIA, OTHER
   -          tachycardic at baseline, though somewhat worse this morning
   in setting of recent diuresis
 LEUKOPENIA
   -          persists
   -          ? evidence of infectious process/septic picture
   -          Will send urine, sputum, blood culture and check CXR
   # LE Edema:
   -          tolerated lasix yesterday, but BP marginal this AM with
   worsening tachycardia
   -          would give lasix 10 IV later today if BP and HR okay; goal
   of -500ml
   ICU Care
   Nutrition: tube feeding; pt eagerly awaiting speech and swallow eval
   Glycemic Control:  SSI
improved sugar control with increased insulin,
   will monitor
   Lines:
   PICC Line - [**2133-1-13**] 02:43 PM
   Prophylaxis:
   DVT: will discuss with hematology re: recommendation for non-heparin
   DVT chemoprophylaxis
           Stress ulcer:
   Code status: DNR (do not resuscitate)
   Disposition: arranging for transfer to NY Presbyterian

2133-01-27 09:48:00 Physician Attending Progress Note
Chief Complaint: hypoxemic respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Given lasix yesterday, however was still positive yesterday.  Given
   additional lasix last night and was negative.
   Switched back to AC overnight b/c she felt tired.  Heart rate has
   climbed somewhat.  Mild dyspnea this morning.
   History obtained from Patient
   Allergies:
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2133-1-25**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2133-1-25**] 08:00 AM
   Ciprofloxacin - [**2133-1-25**] 11:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2133-1-27**] 12:00 AM
   Other medications:
   atrovent, protonix, lidocaine, chlorhexidine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-1-27**] 09:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 125 (97 - 125) bpm
   BP: 94/65(71){77/45(52) - 98/68(76)} mmHg
   RR: 23 (16 - 34) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 97.1 kg (admission): 91.5 kg
   Height: 65 Inch
             Total In:
                                                                  2,099 mL
                                                                    225 mL
   PO:
             TF:
                                                                  1,433 mL
                                                                    110 mL
   IVF:
                                                                    666 mL
                                                                    115 mL
   Blood products:
   Total out:
                                                                  1,305 mL
                                                                    640 mL
   Urine:
                                                                  1,305 mL
                                                                    640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    794 mL
                                                                   -415 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 501) mL
   Vt (Spontaneous): 457 (457 - 540) mL
   PS : 15 cmH2O
   RR (Set): 14
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 56
   PIP: 22 cmH2O
   Plateau: 14 cmH2O
   SpO2: 99%
   ABG: ///24/
   Ve: 12.2 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: trach c/d/i
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic),
   tachycardic
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   inspiratory wheezes anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Voice.
   Purposeful movement.
   Labs / Radiology
   7.2 g/dL
   170 K/uL
   140 mg/dL
   1.0 mg/dL
   24 mEq/L
   4.0 mEq/L
   15 mg/dL
   100 mEq/L
   132 mEq/L
   22.9 %
   3.0 K/uL
        [image002.jpg]
                             [**2133-1-22**]  04:44 AM
                             [**2133-1-22**]  09:34 AM
                             [**2133-1-22**]  09:52 AM
                             [**2133-1-22**]  11:00 AM
                             [**2133-1-22**]  02:47 PM
                             [**2133-1-23**]  05:35 AM
                             [**2133-1-24**]  04:44 AM
                             [**2133-1-25**]  05:25 AM
                             [**2133-1-26**]  04:25 AM
                             [**2133-1-27**]  05:24 AM
   WBC
   10.5
   9.0
   4.9
   4.6
   3.4
   3.2
   3.0
   Hct
   26.7
   27.5
   23.3
   22.6
   21.4
   22.9
   22.9
   Plt
   54
   74
   94
   82
   75
   79
   124
   170
   Cr
   1.0
   0.9
   0.9
   1.1
   1.1
   1.0
   1.0
   1.0
   TCO2
   22
   Glucose
   126
   748
   148
   126
   149
   113
   [**Telephone/Fax (3) 999**]
   Other labs: PT / PTT / INR:13.5/28.6/1.2, Differential-Neuts:78.7 %,
   Band:Units: %
   Range: 0-5 %, Lymph:13.8 %, Mono:4.3 %, Eos:3.0 %, Fibrinogen:618
   mg/dL, Lactic Acid:3.6 mmol/L, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:2.2
   mg/dL
   Imaging: CXR with new left large pneumothorax with some signs of
   tension
   Assessment and Plan
   57 y/o F with respiratory failure [**1-10**] metastatic cervical cancer and
   superimposed pna/PE.  Today, her CXR shows a new pneumothorax with some
   tension.
 TENSION PNEUMOTHORAX.  She is tachycardic; she is borderline
   hypotense. This is definitely a setback and may represent either a
   fistula caused by the tumor, or a result of coughing.  We have
   discussed the issue with her and her husband and will consult
   interventional pulmonary for the possibility of a small-bore chest
   tube.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]):  As above, felt [**1-10**]
   metastatic cervical cancer.  Superimposed pneumonia initially, s/p
   treatment.  Has improved significantly but still unable to wean from
   the ventilator.  Likely a component of respiratory muscle weakness.
   - weaning on hold until pneumothorax issue resolved
 CANCER (MALIGNANT NEOPLASM), GYNECOLOGICAL (OVARIAN, UTERINE,
   CERVICAL, ENDOMETRIAL):  Not actively being treated.
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN):
   Resolved.  discontinued antibiotics as cultures were negative.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF):  Creatinine stable
   at 1.
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Heparin Induced Thrombocytopenia:  Platelets are rising off of
   heparin.  PICC is not heparin-coated.
 LEUKOPENIA:  Her WBC has been steadily trending downwards, of unclear
   etiology
   - hold on empiric antibiotics for now
 LE EDEMA:  Given lasix for this yesterdayMay also be due to IVC
   filter.
 PULMONARY EMBOLISM (PE), ACUTE:  No anticoagulation given mass
   eroding into PA.
 ANEMIA, OTHER: No clinical signs of bleeding.  Likely dilutional with
   component of frequent lab draws.  No indication for transfusion.
   ICU Care
   Nutrition:
   Comments: tube feeds
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   PICC Line - [**2133-1-13**] 02:43 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   sister.
   [**Name (NI) 66**] status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 80 minutes

2133-01-28 07:39:00 Physician Resident Progress Note
Chief Complaint: Respiratory failure
   24 Hour Events:
 PAN CULTURE - At [**2133-1-27**] 10:59 AM
 BLOOD CULTURED - At [**2133-1-27**] 12:45 PM
 CHEST TUBE PLACED - At [**2133-1-27**] 02:00 PM
   Dx with tension ptx
   Had pigtail catheter placed at bedside
   Plans for transfer to [**Location (un) 505**] are therefore on hold for now
   SUBJECTIVE:
   Tired. Concerned that her sleep is frequently interrupted.
   Allergies:
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2133-1-25**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2133-1-25**] 08:00 AM
   Ciprofloxacin - [**2133-1-25**] 11:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2133-1-27**] 08:00 AM
   Lorazepam (Ativan) - [**2133-1-27**] 02:00 PM
   Morphine Sulfate - [**2133-1-27**] 02:19 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-1-28**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.1
C (98.8
   HR: 104 (93 - 132) bpm
   BP: 88/56(63) {74/43(50) - 106/75(79)} mmHg
   RR: 12 (12 - 28) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 97.1 kg (admission): 91.5 kg
   Height: 65 Inch
             Total In:
                                                                  2,005 mL
                                                                    464 mL
   PO:
             TF:
                                                                  1,655 mL
                                                                    434 mL
   IVF:
                                                                    270 mL
                                                                     30 mL
   Blood products:
   Total out:
                                                                  1,115 mL
                                                                    200 mL
   Urine:
                                                                  1,085 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    890 mL
                                                                    264 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 501) mL
   Vt (Spontaneous): 341 (341 - 364) mL
   PS : 0 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 84
   PIP: 23 cmH2O
   Plateau: 22 cmH2O
   SpO2: 99%
   ABG: ///26/
   Ve: 9.4 L/min
   Physical Examination
   Sleeping, wakes easily.
   Trach in place
   S1, S2, tachy, no murmur
   Lungs with diminished BS at left base, coarse throughout.  Chest tube
   in place left base.
   Abd with PEG tube.  Soft, nontender.
   Ext with pneumoboots in place, warm, +2 edema b/l
   Labs / Radiology
   227 K/uL
   7.1 g/dL
   105 mg/dL
   0.9 mg/dL
   26 mEq/L
   4.4 mEq/L
   17 mg/dL
   102 mEq/L
   134 mEq/L
   21.6 %
   3.3 K/uL
        [image002.jpg]
                             [**2133-1-22**]  09:34 AM
                             [**2133-1-22**]  09:52 AM
                             [**2133-1-22**]  11:00 AM
                             [**2133-1-22**]  02:47 PM
                             [**2133-1-23**]  05:35 AM
                             [**2133-1-24**]  04:44 AM
                             [**2133-1-25**]  05:25 AM
                             [**2133-1-26**]  04:25 AM
                             [**2133-1-27**]  05:24 AM
                             [**2133-1-28**]  04:47 AM
   WBC
   9.0
   4.9
   4.6
   3.4
   3.2
   3.0
   3.3
   Hct
   27.5
   23.3
   22.6
   21.4
   22.9
   22.9
   21.6
   Plt
   74
   94
   82
   75
   79
   124
   170
   227
   Cr
   0.9
   0.9
   1.1
   1.1
   1.0
   1.0
   1.0
   0.9
   TCO2
   22
   Glucose
   748
   148
   126
   149
   113
   715
   126
   140
   105
   Other labs: PT / PTT / INR:13.5/28.6/1.2, Differential-Neuts:78.7 %,
   Band:0.0 %, Lymph:13.8 %, Mono:4.3 %, Eos:3.0 %, Fibrinogen:618 mg/dL,
   Lactic Acid:3.6 mmol/L, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:2.4 mg/dL
   UA negative except for blood
   Sputum Cx [**1-27**]
Gram stain with 2+ GPCs
   Ucx, BCx from [**1-27**] NGTD
   BCx [**1-24**] NGTD
   BCx [**1-22**] negative
   Ucx [**1-26**] negative
   [**1-27**] AM CXR:
   Comparison with [**2133-1-23**].  A new large left
   pneumothorax causes some tension as evidenced by slight tracheal buckli
   ng to
   the right and hyperlucency of the right medial costophrenic angle.  The
   massive pulmonary metastases are unchanged; right lung shows no evidenc
   e of
   pleural effusion or pneumothorax.  Tracheostomy tube is unchanged in po
   sition.
   Osseous structures appears similar.
   Assessment and Plan
   57 yo woman with metastatic cervical cancer and respiratory failure,
   found to have tension pneumo yesterday.
 PNEUMOTHORAX, OTHER (NOT HOSPITAL ACQUIRED OR TRAUMATIC)
   Most likely due to cough vs fistula created by [**Name Initial (PRE) 1043**].
   -          s/p chest tube/pigtail catheter placed [**1-27**]
   -          will discuss with IP regarding timing of clamping tube
   -          appreciate IP input
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]):  due to extensive tumor
   burden
   -          s/p trach
   -          encourage attempts with trach collar
   -          supportive care with lidocaine for cough
   -          sputum culture with GPCs; no fevers at this time, will
   follow cultures and hold on antibiotics
 CANCER (MALIGNANT NEOPLASM), GYNECOLOGICAL (OVARIAN, UTERINE,
   CERVICAL, ENDOMETRIAL)
   -          plan to transfer to NY Presbyterian for further chemotherapy
   once pneumothorax resolved
   -          not a candidate for further treatment at [**Hospital1 **]
 LEUKOPENIA
   -          improving this AM; no evidence for neutropenia
   -          may have been due to infection in setting of fevers,
   hypotension, oliguria last week
   -          in setting of tachycardia and recent fevers, had cultured
   yesterday; fevers resolved, tachycardia at baseline after chest tube
   placed.  Do not feel that she has infectious picture at this time.
   -          if not continuing to improve tomorrow, would consider
   consulting Hem/Onc
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Heparin Induced Thrombocytopenia
   -          platelets improving with holding heparin
   -          PICC line does not have heparin, no need to remove
   -          No evidence of thrombosis
   -          Not a candidate for systemic anticoagulation b/c of concern
   for tumor eroding into PA
 TACHYCARDIA, OTHER
   Improved after chest tube placement
   -          currently at her baseline (100-110), most likely due to
   increased metabolism from extensive tumor burden
   -          monitor
 PULMONARY EMBOLISM (PE), ACUTE
   -          no systemic anticoagulation as above
 ANEMIA, OTHER
   -          Hct stable, no indication to transfuse
   # LE edema: volume overload, though may also be partly from IVC
   -          would try to diurese with lasix for goal of -500cc if
   tolerated by BP
   ICU Care
   Nutrition: tube feeds
   Glycemic Control:  SSI, good blood sugar control
   Lines:
   PICC Line - [**2133-1-13**] 02:43 PM
   Prophylaxis:
   DVT: pneumoboots; will start fondaparinux at prophylactic dose
   Stress ulcer: PPI
   VAP:  mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU until pneumothorax resolved ; then will work toward
   transfer to NY

2133-01-28 11:48:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PAN CULTURE - At [**2133-1-27**] 10:59 AM
 BLOOD CULTURED - At [**2133-1-27**] 12:45 PM
 CHEST TUBE PLACED - At [**2133-1-27**] 02:00 PM
   Pneumothorax with some tension yesterday --> small-bore chest tube.
   Pain is well controlled
   History obtained from [**Hospital 85**] Medical records
   Patient unable to provide history: trach
   Allergies:
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2133-1-27**] 02:00 PM
   Morphine Sulfate - [**2133-1-27**] 02:19 PM
   Other medications:
   atrovent, PPI, SQI, lidocaine prn
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Chest pain, pain is peri-chest-tube
   Nutritional Support: Tube feeds
   Respiratory: Cough, Dyspnea, Tachypnea
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Foley
   Flowsheet Data as of  [**2133-1-28**] 11:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.3
C (97.4
   HR: 112 (93 - 127) bpm
   BP: 84/59(65) {74/43(50) - 101/75(79)} mmHg
   RR: 21 (12 - 28) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 109.6 kg (admission): 91.5 kg
   Height: 65 Inch
             Total In:
                                                                  2,005 mL
                                                                    549 mL
   PO:
             TF:
                                                                  1,655 mL
                                                                    434 mL
   IVF:
                                                                    270 mL
                                                                    115 mL
   Blood products:
   Total out:
                                                                  1,115 mL
                                                                    320 mL
   Urine:
                                                                  1,085 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    890 mL
                                                                    229 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 501) mL
   Vt (Spontaneous): 341 (341 - 364) mL
   PS : 0 cmH2O
   RR (Set): 14
   RR (Spontaneous): 2
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 84
   PIP: 23 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: ///26/
   Ve: 7.6 L/min
   Physical Examination
   General Appearance: Thin, cachectic
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: chest tube site looks fine. No air leak on water
   seal.
   Abdominal: Soft, Non-tender, PEG fine
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement:
   Purposeful, Tone: Normal
   Labs / Radiology
   7.1 g/dL
   227 K/uL
   105 mg/dL
   0.9 mg/dL
   26 mEq/L
   4.4 mEq/L
   17 mg/dL
   102 mEq/L
   134 mEq/L
   21.6 %
   3.3 K/uL
        [image002.jpg]
                             [**2133-1-22**]  09:34 AM
                             [**2133-1-22**]  09:52 AM
                             [**2133-1-22**]  11:00 AM
                             [**2133-1-22**]  02:47 PM
                             [**2133-1-23**]  05:35 AM
                             [**2133-1-24**]  04:44 AM
                             [**2133-1-25**]  05:25 AM
                             [**2133-1-26**]  04:25 AM
                             [**2133-1-27**]  05:24 AM
                             [**2133-1-28**]  04:47 AM
   WBC
   9.0
   4.9
   4.6
   3.4
   3.2
   3.0
   3.3
   Hct
   27.5
   23.3
   22.6
   21.4
   22.9
   22.9
   21.6
   Plt
   74
   94
   82
   75
   79
   124
   170
   227
   Cr
   0.9
   0.9
   1.1
   1.1
   1.0
   1.0
   1.0
   0.9
   TCO2
   22
   Glucose
   748
   148
   126
   149
   113
   715
   126
   140
   105
   Other labs: PT / PTT / INR:13.5/28.6/1.2, Differential-Neuts:78.7 %,
   Band:0.0 %, Lymph:13.8 %, Mono:4.3 %, Eos:3.0 %, Fibrinogen:618 mg/dL,
   Lactic Acid:3.6 mmol/L, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   57 year-old woman with respiratory failure secondary to very large
   burden of metastatic disease (cervical cancer primary).
 PNEUMOTHORAX, OTHER (NOT HOSPITAL ACQUIRED OR TRAUMATIC)
   -- keep chest tube to water seal
   -- discuss management with IP today
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   n        weaning as comfort dictates
   n        swallow consult
 CANCER (MALIGNANT NEOPLASM), GYNECOLOGICAL (OVARIAN, UTERINE,
   CERVICAL, ENDOMETRIAL)
   n        anticipate transfer for possible attempt at salvage chemo;
   however, PTX has to be stable first
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Heparin Induced Thrombocytopenia
 TACHYCARDIA, OTHER
   Improved after chest tube placement
 PULMONARY EMBOLISM (PE), ACUTE
   -- no anticoagulation given PA/tumor/airway risk
 ANEMIA, OTHER -- follow
   ICU Care
   Nutrition: tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2133-1-13**] 02:43 PM
   Prophylaxis:
   DVT: Boots(begin prophylactic dose fondaparinux)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 50 min

2133-01-29 07:54:00 Physician Resident Progress Note
Chief Complaint: Respiratory failure
   24 Hour Events:
   Wheeled around the ICU
   Chest tube clamped per IP recs, rpt CXR looks like lung remains
   expanded
   SUBJECTIVE:
   No change to breathing
   Allergies:
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-1-29**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.9
C (96.7
   HR: 92 (92 - 123) bpm
   BP: 84/59(64) {82/51(57) - 103/71(77)} mmHg
   RR: 14 (12 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 109.6 kg (admission): 91.5 kg
   Height: 65 Inch
             Total In:
                                                                    769 mL
                                                                    195 mL
   PO:
             TF:
                                                                    434 mL
   IVF:
                                                                    235 mL
                                                                    155 mL
   Blood products:
   Total out:
                                                                    575 mL
                                                                    215 mL
   Urine:
                                                                    505 mL
                                                                    215 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    194 mL
                                                                    -20 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 501 (500 - 501) mL
   RR (Set): 14
   RR (Spontaneous): 3
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Agitated
   PIP: 23 cmH2O
   Plateau: 22 cmH2O
   SpO2: 100%
   ABG: ///25/
   Ve: 7.9 L/min
   Physical Examination
   Awake, pleasant.  Trach in place.
   Pigtail catheter left axilla, clamped
   S1, S2, tachy, regular, no murmur
   Lungs with crackles throughout, decreased BS at left base
   Abd with PEG in place, site clean without erythema.  Soft, NT.
   Ext with pneumoboots in place, warm, +2 LE edema.
   Labs / Radiology
   292 K/uL
   6.9 g/dL
   85 mg/dL
   0.9 mg/dL
   25 mEq/L
   4.5 mEq/L
   16 mg/dL
   102 mEq/L
   136 mEq/L
   21.3 %
   3.7 K/uL
        [image002.jpg]
                             [**2133-1-22**]  09:52 AM
                             [**2133-1-22**]  11:00 AM
                             [**2133-1-22**]  02:47 PM
                             [**2133-1-23**]  05:35 AM
                             [**2133-1-24**]  04:44 AM
                             [**2133-1-25**]  05:25 AM
                             [**2133-1-26**]  04:25 AM
                             [**2133-1-27**]  05:24 AM
                             [**2133-1-28**]  04:47 AM
                             [**2133-1-29**]  04:00 AM
   WBC
   4.9
   4.6
   3.4
   3.2
   3.0
   3.3
   3.7
   Hct
   23.3
   22.6
   21.4
   22.9
   22.9
   21.6
   21.3
   Plt
   94
   82
   75
   79
   124
   170
   227
   292
   Cr
   0.9
   1.1
   1.1
   1.0
   1.0
   1.0
   0.9
   0.9
   TCO2
   22
   Glucose
   148
   126
   149
   113
   [**Telephone/Fax (2) 1063**]05
   85
   Other labs: PT / PTT / INR:13.5/28.6/1.2, Differential-Neuts:78.7 %,
   Band:0.0 %, Lymph:13.8 %, Mono:4.3 %, Eos:3.0 %, Fibrinogen:618 mg/dL,
   Lactic Acid:3.6 mmol/L, Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:3.3 mg/dL
   BCx [**1-27**] NGTD
   UCx [**1-27**] negative
   Sputum Cx [**1-27**]: gram stain with 2+ GPCs, culture pending
   CXR [**1-28**]:
   The extreme lung apices are excluded from the radiograph. A
   pigtail catheter in the left lateral pleural space is unchanged in posi
   tion.
   There remains a small left apical pneumothorax.  The cardiomediastinal
   silhouette is stable.  Remainder of the examination is without interval
   change.
   Assessment and Plan
   57yo woman with metastatic cervical cancer.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   -          s/p trach
   -          work with passy muir valve today
 CANCER (MALIGNANT NEOPLASM), GYNECOLOGICAL (OVARIAN, UTERINE,
   CERVICAL, ENDOMETRIAL)
   -          plan to pursue chemotherapy at NY Presbyterian
   -          appreciate input from oncology team re: recommendations
   whether any benefit of further chemotherapy
 PNEUMOTHORAX, OTHER (NOT HOSPITAL ACQUIRED OR TRAUMATIC)
   -          will f/u with CXR to look for evidence of reexpansion
   -          appreciate input from IP
   -          currently with pigtail catheter, clamped
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Heparin Induced Thrombocytopenia
   -          platelets recovering
   -          hold all heparin products
   -          no evidence of clot on exam
   -          not a candidate for anticoagulation b/c of bleeding risk
 TACHYCARDIA, OTHER
   Improved after chest tube placement
   -          baseline of 110; monitor
   -          if increased, would consider possibility of reexpanding
   pneumothorax
 PULMONARY EMBOLISM (PE), ACUTE
   -          no systemic anticoagulation
 ANEMIA, OTHER
   -          monitor; no indication for transfusion
 LEUKOPENIA
   -          improving; monitor
   # LE Edema:
   -          diurese with lasix if tolerated by blood pressures
   -          may also be secondary to IVC filter
   ICU Care
   Nutrition: tube feeds
speech and swallow eval
   Glycemic Control:  SSI with good glucose control
   Lines:
   PICC Line - [**2133-1-13**] 09:48 PM
   Prophylaxis:
   DVT: pneumoboots, fondaparinux
   Stress ulcer: PPI
   VAP:  mouth care, HOB elevation
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: ICU

2133-01-30 07:29:00 Physician Resident Progress Note
Chief Complaint: Respiratory failure
   24 Hour Events:
   CT chest done to evaluate extent of pneumothorax
   Plan to discuss plan for chest tube with IP
   Started on soft diet per S&S
   Using Passy-Muir valve
   Oncology to see [**1-30**] to give opinion about utility of further
   chemotherapy
   Allergies:
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2133-1-29**] 08:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-1-30**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.3
C (95.6
   HR: 103 (100 - 123) bpm
   BP: 85/56(62) {85/51(57) - 102/73(92)} mmHg
   RR: 19 (14 - 29) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 112 kg (admission): 91.5 kg
   Height: 65 Inch
             Total In:
                                                                  1,432 mL
                                                                    479 mL
   PO:
                                                                    400 mL
             TF:
                                                                    252 mL
                                                                    330 mL
   IVF:
                                                                    490 mL
                                                                    149 mL
   Blood products:
   Total out:
                                                                    686 mL
                                                                    130 mL
   Urine:
                                                                    686 mL
                                                                    130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    746 mL
                                                                    349 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 501 (500 - 501) mL
   Vt (Spontaneous): 497 (497 - 497) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 40
   PIP: 24 cmH2O
   SpO2: 97%
   ABG: ////
   Ve: 11 L/min
   Physical Examination
   Gen:  Awake, interactive, trach collar in place
   CV: s1/s2, tachycardic, no mrg
   Pulm:  pigtail cath in in left axilla with no evidence of infection,
   crackles throughout, decrease breath sounds on left
   Abd:  bowel sounds present, soft, non-tender, PEG in place, no signs of
   infection at site
   Ext:  Significant LE edema, 3+, warm, pneumoboots off
   Labs / Radiology
   402 K/uL
   6.9 g/dL
   85 mg/dL
   0.9 mg/dL
   25 mEq/L
   4.5 mEq/L
   16 mg/dL
   102 mEq/L
   136 mEq/L
   21.8 %
   3.5 K/uL
        [image002.jpg]
                             [**2133-1-22**]  11:00 AM
                             [**2133-1-22**]  02:47 PM
                             [**2133-1-23**]  05:35 AM
                             [**2133-1-24**]  04:44 AM
                             [**2133-1-25**]  05:25 AM
                             [**2133-1-26**]  04:25 AM
                             [**2133-1-27**]  05:24 AM
                             [**2133-1-28**]  04:47 AM
                             [**2133-1-29**]  04:00 AM
                             [**2133-1-30**]  06:45 AM
   WBC
   4.9
   4.6
   3.4
   3.2
   3.0
   3.3
   3.7
   3.5
   Hct
   23.3
   22.6
   21.4
   22.9
   22.9
   21.6
   21.3
   21.8
   Plt
   94
   82
   75
   79
   124
   170
   227
   292
   402
   Cr
   0.9
   1.1
   1.1
   1.0
   1.0
   1.0
   0.9
   0.9
   Glucose
   148
   126
   149
   113
   [**Telephone/Fax (2) 1063**]05
   85
   Other labs: PT / PTT / INR:13.5/28.6/1.2, Differential-Neuts:78.7 %,
   Band:0.0 %, Lymph:13.8 %, Mono:4.3 %, Eos:3.0 %, Fibrinogen:618 mg/dL,
   Lactic Acid:3.6 mmol/L, Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:3.3 mg/dL
   Sputum Cx [**1-27**]:
   SPARSE GROWTH OROPHARYNGEAL FLORA.
   BCx [**1-27**], [**1-25**] NGTD
   Ucx negative
   CXR [**1-30**] (prelim read)
   Tracheostomy tip is 4 cm above the carina.  The left PICC line catheter
    tip is
   _____ in the right atrium.  Left apical pneumothorax is small, again
   demonstrated.  There is no change in the position of the left pigtail c
   atheter
   as well as there is no change in the appearance of the pulmonary metast
   asis.
   No substantial increase in pleural effusion is demonstrated.
   CT Chest [**1-29**]:
   1.  Slight decrease in the overall size of the multiple soft tissue mas
   ses
   with multiple areas of internal air within the mass, most likely relate
   d to
   recent treatment.
   2.  Small loculated left apical pneumothorax and new small left pleural
   effusion.
   3.  Unchanged mediastinal lymphadenopathy.
   4.  Splenomegaly.  Mild left hydronephrosis.
   Assessment and Plan
   57 yo F with metastatic cevical CA with extensive lung disease s/p
   trach placement.
   1.  Respiratory Failure  S/p trach placement, using passy muir valve,
   able to tolerate trach for 3 hours at a time and tolerating soft diet
   2.  Metastatic Cervical Cancer
   -oncology team will give final recommendation regarding utility of
   chemo, appreciate input
   -possible plan for chemotherapy at NY Presbyterian
   3.  Pneumothorax:  CT showed small PTX possibly communicating with L
   tumor mass, which has air in it. Unlikely to resolve on its own.
   -appreciate IP input
   -pig tail in left chest, currently clamped
   -continues to have small PTX on CXR
   4.  Heparin Induced Thrombocytopenia:  Thrombocytopenia resolved, plts
   in 400's
   -holding all heparin products, no systemic anticoagulation given risk
   of bleeding due to tumor proximity to pulmonary artery
   -no evidence of thrombosis on exam
   5.  Tachycardia:  Improved overnight in 110's, initially due to PTX
   -continue to monitor, baseline in 110's
   -if concern for increase, would consider enlargement of PTX or anemia
   as discussed below
   6.  Pulmonary Embolism
   -not a candidate for therapeutic anticoagulation give tumor proximity
   to pulmonary artery
   7.  Anemia: at 21.7 today, stable
   -no acute need for transfusion at this time
   -if tachycardia increases, wold consider anemia or bleed in the
   differential given proximity of tumor to PA as above.
   8.  Leukopenia:  Resolving at 3.5 today
   -continue to monitor
   9.  LE Edema: Persistent, likely [**1-10**] IVC filter or tumor compression or
   volume overload
   -bp's in 90-100
   -patient unable to tolerate leg elevation as causes SOB
   -will give Lasix 10mg po as trial for diuresis with goal to improve leg
   pain, if bp's tolerate, would continue
   -if drop in bp give blood, type and screen ordered
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2133-1-29**] 10:12 PM 50 mL/hour; soft diet
   Glycemic Control:  SSI with good control
   Lines:
   PICC Line - [**2133-1-13**] 09:48 PM
   Prophylaxis:
   DVT: fondaparinux
   Stress ulcer: PPI
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: ICU until pneumothorax resolved ; possible transfer to NY
   Presbyterian in future
   Note written by [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) **], MS IV and edited by [**First Name8 (NamePattern2) 361**]
   [**Last Name (NamePattern1) 512**], MD
   ------ Protected Section ------
   Critical Care Attending
   Ms. [**Known lastname 583**] was seen and examined with the ICU team.  The note above, by
   E. [**Doctor Last Name **] and Dr. [**Last Name (STitle) 512**], reflects my input.  I would
   add/emphasize:
   1)       Ms. [**Known lastname 583**] did very well with speech and swallow evaluation
   and was in fact able to come off the ventilator while on a PMV.  She is
   eating small amounts of food for pleasure.  She was back on the
   ventilator overnight and off again this morning.
   2)       Her pneumothorax recurred while chest tube was clamped.  We
   have returned it to suction and asked IP to further evaluate since
   there is some subcutaneous emphysema, as well.
   3)       We have asked oncology to comment on whether they believe
   further systemic therapy would be of benefit.  Their report is that
   conventional therapy would be inappropriate; they will ask the Phase I
   trial group to assess.
   4)       I discussed these issues in detail with Ms. [**Known lastname 583**], her
   husband, and her sister.
   5)       ------ Protected Section Addendum Entered By:[**Name (NI) 149**] [**Last Name (NamePattern1) 832**],
   MD  on:[**2133-1-30**] 08:36 PM ------
   6)
   7)
   8)       Electronically signed by [**First Name8 (NamePattern2) 149**] [**Last Name (NamePattern1) 832**], MD  [**2133-1-30**] 08:36
   PM
   9)
   10)

2133-01-31 08:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   New pneumothorax on CXR, pigtail placed to suction with improvement in
   radiographic appearance.
   Family meeting held regarding logistical arrangements for transfer to
   [**Location (un) 505**]
   Allergies:
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-1-31**] 08:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.4
C (97.5
   HR: 99 (96 - 130) bpm
   BP: 92/61(68) {89/55(64) - 114/78(83)} mmHg
   RR: 15 (15 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 112 kg (admission): 91.5 kg
   Height: 65 Inch
             Total In:
                                                                    870 mL
                                                                    162 mL
   PO:
                                                                    390 mL
             TF:
   IVF:
                                                                    480 mL
                                                                    162 mL
   Blood products:
   Total out:
                                                                  1,100 mL
                                                                    265 mL
   Urine:
                                                                  1,050 mL
                                                                    175 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -230 mL
                                                                   -103 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 339 (339 - 500) mL
   PS : 10 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 51
   PIP: 17 cmH2O
   SpO2: 100%
   ABG: ///27/
   Ve: 8 L/min
   Physical Examination
   General Appearance: chronically ill appearing, alert and pleasant
   Head, Ears, Nose, Throat: trach collar on
   Cardiovascular: (S1: Normal), (S2: Normal), mild regular tachycardia
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   RUL most prominently)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 3+, Left: 3+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   370 K/uL
   7.4 g/dL
   93 mg/dL
   0.8 mg/dL
   27 mEq/L
   4.2 mEq/L
   14 mg/dL
   102 mEq/L
   134 mEq/L
   23.7 %
   2.8 K/uL
        [image002.jpg]
                             [**2133-1-22**]  02:47 PM
                             [**2133-1-23**]  05:35 AM
                             [**2133-1-24**]  04:44 AM
                             [**2133-1-25**]  05:25 AM
                             [**2133-1-26**]  04:25 AM
                             [**2133-1-27**]  05:24 AM
                             [**2133-1-28**]  04:47 AM
                             [**2133-1-29**]  04:00 AM
                             [**2133-1-30**]  06:45 AM
                             [**2133-1-31**]  06:07 AM
   WBC
   4.9
   4.6
   3.4
   3.2
   3.0
   3.3
   3.7
   3.5
   2.8
   Hct
   23.3
   22.6
   21.4
   22.9
   22.9
   21.6
   21.3
   21.8
   23.7
   Plt
   94
   82
   75
   79
   124
   170
   227
   292
   402
   370
   Cr
   0.9
   1.1
   1.1
   1.0
   1.0
   1.0
   0.9
   0.9
   0.9
   0.8
   Glucose
   126
   149
   113
   [**Telephone/Fax (3) 999**]
   105
   85
   124
   93
   Other labs: PT / PTT / INR:14.1/32.4/1.2, Differential-Neuts:78.7 %,
   Band:0.0 %, Lymph:13.8 %, Mono:4.3 %, Eos:3.0 %, Fibrinogen:618 mg/dL,
   Lactic Acid:3.6 mmol/L, Ca++:9.1 mg/dL, Mg++:1.9 mg/dL, PO4:3.4 mg/dL
   Imaging: [**1-31**] CXR PND
   [**1-30**] CXR
   Multiple large masses within bilateral lungs are again redemonstrated.
   Compared to prior exam there is probably slight decrease in the
   apparant size of the left basilar pneumothorax. Left chest wall
   subcutaenous emphysema is
   increased in size and tracks into the neck. Tracheostomy is in stable
   position. The left PICC terminates in the proximal right atrium. G tube
   and
   left chest pigtail drain noted. [**Doctor Last Name 775**] [**Numeric Identifier 1111**]
   Microbiology: [**1-27**] BCX: PND x2
   [**1-27**] sputum: sparse OP flora
   [**1-27**] UCX: negative
   Assessment and Plan
   57 yo F with metastatic cevical CA with extensive lung disease s/p
   trach placement.
   1.  Metastatic Cervical Cancer
   - plan for chemotherapy at NY Presbyterian
   - will transfer on Tuesday,  CM aware
   - radiology notified to prepare CD with her imaging on it
   2.  Respiratory Failure - due to pulmonary mets
   - S/p trach placement, using passy muir valve, able to tolerate trach
   collar for increasing amounts of time and tolerating soft diet
   3.  Pneumothorax
   - CT showed small PTX possibly communicating with L tumor mass, which
   has air in it. Unlikely to resolve on its own.
   - PTX appears resolved on CXR this AM
   -given that she will be transferred on Tuesday, no sense in clamping
   chest tube, will allow continued suction and time for re-expansion
   4.  Heparin Induced Thrombocytopenia:  Thrombocytopenia resolved, plts
   in 400's
   -holding all heparin products, no systemic anticoagulation given risk
   of bleeding due to tumor proximity to pulmonary artery
   -no evidence of thrombosis on exam
   - using fonduparinux for DVT ppx
   5.  Tachycardia:  Improved, now in 100's
   -continue to monitor, baseline in 110's
   6.  Pulmonary Embolism
   -not a candidate for therapeutic anticoagulation give tumor proximity
   to pulmonary artery
   7.  Anemia: at 23.7 today, stable
   -no acute need for transfusion at this time
   -if tachycardia increases, wold consider anemia or bleed in the
   differential given proximity of tumor to PA as above.
   8.  Leukopenia:  stable today
   -continue to monitor
   9.  LE Edema: Persistent, likely [**1-10**] IVC filter or tumor compression or
   volume overload
   -bp's in 90-100, lasix  dosing would essentially be cosmetic and may
   drop her BP, cause more harm than good, so will defer any further
   attempts at diuresis
   ICU Care
   Nutrition: feeds via G-tube and po diet as per S/S specifications
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2133-1-13**] 09:48 PM
   Prophylaxis:
   DVT:  fondaparinux given HIT
   Stress ulcer: PPI, change to po
   VAP:  HOB elevation, mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: planning for transfer to [**Location (un) 505**] on tuesday

2133-01-31 11:42:00 Physician Attending Progress Note
Chief Complaint: 57 yr old female with metastatic Cervical CA with
   extensive pulm mets
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   PTX - chest tube back to suction.
   Planning transfer to [**Location (un) 505**] for further RX
   24 Hour Events:
   Allergies:
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2133-1-31**] 08:45 AM
   Other medications:
   fondapRINUX, COLACE, riss, LIDOCAINE, bisacodyl, fentanyl, protonix,
   atrovent, albuterol, ativan, oxycodone, senna
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-1-31**] 11:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 35.8
C (96.5
   HR: 112 (96 - 130) bpm
   BP: 106/56(67) {89/55(64) - 114/78(83)} mmHg
   RR: 19 (15 - 30) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 112 kg (admission): 91.5 kg
   Height: 65 Inch
             Total In:
                                                                    870 mL
                                                                  1,007 mL
   PO:
                                                                    390 mL
                                                                    770 mL
   TF:
   IVF:
                                                                    480 mL
                                                                    237 mL
   Blood products:
   Total out:
                                                                  1,100 mL
                                                                    300 mL
   Urine:
                                                                  1,050 mL
                                                                    210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -230 mL
                                                                    707 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 339 (339 - 500) mL
   PS : 10 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 51
   PIP: 17 cmH2O
   SpO2: 95%
   ABG: ///27/
   Ve: 8 L/min
   Physical Examination
   General Appearance: Chronically Ill
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Allopecia, Trach in place
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   R UL, Diminished: somewhat on L)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 3+, Left: 3+
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): 3, Movement: Not assessed, Tone: Normal
   Labs / Radiology
   7.4 g/dL
   370 K/uL
   93 mg/dL
   0.8 mg/dL
   27 mEq/L
   4.2 mEq/L
   14 mg/dL
   102 mEq/L
   134 mEq/L
   23.7 %
   2.8 K/uL
        [image002.jpg]
                             [**2133-1-22**]  02:47 PM
                             [**2133-1-23**]  05:35 AM
                             [**2133-1-24**]  04:44 AM
                             [**2133-1-25**]  05:25 AM
                             [**2133-1-26**]  04:25 AM
                             [**2133-1-27**]  05:24 AM
                             [**2133-1-28**]  04:47 AM
                             [**2133-1-29**]  04:00 AM
                             [**2133-1-30**]  06:45 AM
                             [**2133-1-31**]  06:07 AM
   WBC
   4.9
   4.6
   3.4
   3.2
   3.0
   3.3
   3.7
   3.5
   2.8
   Hct
   23.3
   22.6
   21.4
   22.9
   22.9
   21.6
   21.3
   21.8
   23.7
   Plt
   94
   82
   75
   79
   124
   170
   227
   292
   402
   370
   Cr
   0.9
   1.1
   1.1
   1.0
   1.0
   1.0
   0.9
   0.9
   0.9
   0.8
   Glucose
   126
   149
   113
   [**Telephone/Fax (3) 999**]
   105
   85
   124
   93
   Other labs: PT / PTT / INR:14.1/32.4/1.2, Differential-Neuts:78.7 %,
   Band:0.0 %, Lymph:13.8 %, Mono:4.3 %, Eos:3.0 %, Fibrinogen:618 mg/dL,
   Lactic Acid:3.6 mmol/L, Ca++:9.1 mg/dL, Mg++:1.9 mg/dL, PO4:3.4 mg/dL
   Imaging: CXR- Unchanged, mets, chest tube on L
   Microbiology: Sputm - Oropharyngeal Flora
   Urine - Negative
   BC's neg to date
   Assessment and Plan
 LEUKOPENIA
   Stable
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   Trach on supplemental O2, passy muir in place, not weaning
 CANCER (MALIGNANT NEOPLASM), GYNECOLOGICAL (OVARIAN, UTERINE,
   CERVICAL, ENDOMETRIAL)
   transfer to [**Location (un) 505**] for salvage ChemoRx
 PNEUMOTHORAX, OTHER (NOT HOSPITAL ACQUIRED OR TRAUMATIC)
   Chest tube back to suction
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Heparin Induced Thrombocytopenia
   Platelets improving off heparin
 TACHYCARDIA, OTHER
   Improved after chest tube placement
 PULMONARY EMBOLISM (PE), ACUTE
   Fondaparinux
 ANEMIA, OTHER
   Stable
   ICU Care
   Nutrition:
   Comments: Tube Feeds
   Cleared to eat thin liquids when on PS
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2133-1-13**] 09:48 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Other - Fondaparinux)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments: Not actively weaning
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2133-02-01 07:11:00 Physician Resident Progress Note
Chief Complaint: Respiratory failure
   24 Hour Events:
   CXR showed re-expansion of lung, chest tube kept to suction
   Radiology is putting together a CD of her films
   Did well on Passy-Muir Valve
   Allergies:
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2133-1-31**] 08:45 AM
   Lorazepam (Ativan) - [**2133-1-31**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-2-1**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.2
C (97.2
   HR: 123 (102 - 135) bpm
   BP: 98/64(71) {95/56(67) - 108/84(88)} mmHg
   RR: 24 (15 - 35) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 112 kg (admission): 91.5 kg
   Height: 65 Inch
             Total In:
                                                                  1,680 mL
                                                                    268 mL
   PO:
                                                                  1,190 mL
             TF:
   IVF:
                                                                    490 mL
                                                                    143 mL
   Blood products:
   Total out:
                                                                    610 mL
                                                                     35 mL
   Urine:
                                                                    450 mL
                                                                     35 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,070 mL
                                                                    233 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 520 (520 - 520) mL
   PS : 5 cmH2O
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 90
   SpO2: 100%
   ABG: ///25/
   Ve: 11.9 L/min
   Physical Examination
   Awake, speaking using passy-muir valve
   S1, S2, tachycardic, regular, no murmur
   Lungs with coarse BS, diminished at bases
   Pigtail catheter in place
   Pneumoboots in place
   Ext with ++ edema, warm, DP +2 b/l
   Labs / Radiology
   362 K/uL
   7.0 g/dL
   120 mg/dL
   0.8 mg/dL
   25 mEq/L
   4.0 mEq/L
   14 mg/dL
   101 mEq/L
   135 mEq/L
   21.8 %
   3.9 K/uL
        [image002.jpg]
                             [**2133-1-23**]  05:35 AM
                             [**2133-1-24**]  04:44 AM
                             [**2133-1-25**]  05:25 AM
                             [**2133-1-26**]  04:25 AM
                             [**2133-1-27**]  05:24 AM
                             [**2133-1-28**]  04:47 AM
                             [**2133-1-29**]  04:00 AM
                             [**2133-1-30**]  06:45 AM
                             [**2133-1-31**]  06:07 AM
                             [**2133-2-1**]  04:59 AM
   WBC
   4.9
   4.6
   3.4
   3.2
   3.0
   3.3
   3.7
   3.5
   2.8
   3.9
   Hct
   23.3
   22.6
   21.4
   22.9
   22.9
   21.6
   21.3
   21.8
   23.7
   21.8
   Plt
   82
   75
   79
   124
   170
   227
   292
   402
   370
   362
   Cr
   1.1
   1.1
   1.0
   1.0
   1.0
   0.9
   0.9
   0.9
   0.8
   0.8
   Glucose
   149
   113
   715
   126
   140
   105
   85
   124
   93
   120
   Other labs: PT / PTT / INR:14.1/32.4/1.2, Differential-Neuts:78.7 %,
   Band:0.0 %, Lymph:13.8 %, Mono:4.3 %, Eos:3.0 %, Fibrinogen:618 mg/dL,
   Lactic Acid:3.6 mmol/L, Ca++:9.2 mg/dL, Mg++:1.8 mg/dL, PO4:3.1 mg/dL
   BCx NGTD
   CXR [**1-31**]:
   Left basal pneumothorax is smaller, and tiny apical component unchanged
   .  Lung
   volumes are lower and there is more atelectasis at the left base and th
   ere may
   be a small pleural effusion.  The left pigtail catheter is unchanged in
   position.  Subcutaneous emphysema in the left chest wall persists.  Lar
   ge lung
   masses obscure detail of the mediastinum, and probably contributes to l
   eft
   lower lobe atelectasis.  Aside from the large masses on the right, that
    lung
   is essentially clear.  Tracheostomy tube in standard placement.  Tip of
    the
   left PIC catheter projects over the superior cavoatrial junction.
   Subcutaneous emphysema in the left neck and chest wall is stable since
   late on
   [**1-30**], but increased since earlier that day raising question abou
   t the
   function or placement of the left pleural catheter which may have side
   ports
   in the subcutaneous tissues.
   Assessment and Plan
   57 yo woman with metastatic cervical CA and extensive lung metastases,
   now s/p trach.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   Due to massive pulmonary metastases.  Patient did have evidence of PEs
   on admission, not a candidate for anticoagulation.
   -          s/p trach, patient is tolerating trach collar well
 CANCER (MALIGNANT NEOPLASM), GYNECOLOGICAL (OVARIAN, UTERINE,
   CERVICAL, ENDOMETRIAL)
   -          anticipate transfer to NY Presbyterian for further
   chemotherapy on Tuesday
   -          appreciate assistance from case management with transfer
 PNEUMOTHORAX, OTHER (NOT HOSPITAL ACQUIRED OR TRAUMATIC)
   ? due to coughing vs fistula from tumor.
   -          plan to cotninue chest tube without clamping it; keep it to
   suction to allow time for lung to reexpand
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Heparin Induced Thrombocytopenia
   -          no evidence of thrombosis on exam
   -          avoiding all heparin products
   -          platelet counts recovered
   -          not a candidate for systemic anticoagulation b/c of risk of
   bleed from mets close to pulmonary artery
 TACHYCARDIA, OTHER
   Improved after chest tube placement
   Patient has baseline tachycardia of 100-115 since admission to ICU
   -          monitor
 ANEMIA, OTHER
   -          Hct stable, no indication for transfusion
   -          Active T + S
 LEUKOPENIA
   -          stable, will monitor
   # LE edema: Due to fluid overload and possibly IVC filter.
   Although patient is uncomfortable from the edema and would like to be
   diuresed, her BPs are marginal.  Team discussed with her today that we
   will hold diuresis until she is transferred so as not to cause
   hypotension or associated complications that may delay her transfer.
   ICU Care
   Nutrition:  Tube feeds plus soft diet
   Glycemic Control:  SSI
   Lines:
   PICC Line - [**2133-1-13**] 09:48 PM
not heparin coated, safe to continue
   Prophylaxis:
   DVT: fondaparinux
   Stress ulcer: PPI
   VAP:  HOB elevation, mouth care
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: transfer to NY Presbyterian Tuesday

2133-02-01 12:50:00 Physician Attending Progress Note
Chief Complaint: 57 yr woman with metastatic cervical CA with resp
   failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   No Events last 24 hrs
   24 Hour Events:
   Allergies:
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2133-1-31**] 11:00 PM
   Lansoprazole (Prevacid) - [**2133-2-1**] 09:11 AM
   Other medications:
   atrovent, RISS, lidocaine down tube, fondaparinux
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-2-1**] 12:50 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.4
C (95.8
   HR: 106 (106 - 135) bpm
   BP: 93/58(67) {93/58(67) - 108/84(88)} mmHg
   RR: 21 (15 - 35) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 112 kg (admission): 91.5 kg
   Height: 65 Inch
             Total In:
                                                                  1,680 mL
                                                                    870 mL
   PO:
                                                                  1,190 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    490 mL
                                                                    225 mL
   Blood products:
   Total out:
                                                                    610 mL
                                                                    210 mL
   Urine:
                                                                    450 mL
                                                                    210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,070 mL
                                                                    660 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 520 (520 - 520) mL
   PS : 5 cmH2O
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 90
   SpO2: 100%
   ABG: ///25/
   Ve: 11.9 L/min
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Trach Tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 3+, Left: 3+
   Skin:  Warm, Sub Q Emphysema
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): 3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   7.0 g/dL
   362 K/uL
   120 mg/dL
   0.8 mg/dL
   25 mEq/L
   4.0 mEq/L
   14 mg/dL
   101 mEq/L
   135 mEq/L
   21.8 %
   3.9 K/uL
        [image002.jpg]
                             [**2133-1-23**]  05:35 AM
                             [**2133-1-24**]  04:44 AM
                             [**2133-1-25**]  05:25 AM
                             [**2133-1-26**]  04:25 AM
                             [**2133-1-27**]  05:24 AM
                             [**2133-1-28**]  04:47 AM
                             [**2133-1-29**]  04:00 AM
                             [**2133-1-30**]  06:45 AM
                             [**2133-1-31**]  06:07 AM
                             [**2133-2-1**]  04:59 AM
   WBC
   4.9
   4.6
   3.4
   3.2
   3.0
   3.3
   3.7
   3.5
   2.8
   3.9
   Hct
   23.3
   22.6
   21.4
   22.9
   22.9
   21.6
   21.3
   21.8
   23.7
   21.8
   Plt
   82
   75
   79
   124
   170
   227
   292
   402
   370
   362
   Cr
   1.1
   1.1
   1.0
   1.0
   1.0
   0.9
   0.9
   0.9
   0.8
   0.8
   Glucose
   149
   113
   715
   126
   140
   105
   85
   124
   93
   120
   Other labs: PT / PTT / INR:14.1/32.4/1.2, Differential-Neuts:78.7 %,
   Band:0.0 %, Lymph:13.8 %, Mono:4.3 %, Eos:3.0 %, Fibrinogen:618 mg/dL,
   Lactic Acid:3.6 mmol/L, Ca++:9.2 mg/dL, Mg++:1.8 mg/dL, PO4:3.1 mg/dL
   Imaging: CXR - re-expansion of L Lung
   Assessment and Plan
 LEUKOPENIA
   Resolved
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   On Full Vent Support with Passy Muir in place
 CANCER (MALIGNANT NEOPLASM), GYNECOLOGICAL (OVARIAN, UTERINE,
   CERVICAL, ENDOMETRIAL)
   Transfer to [**Hospital3 1125**] in [**Location (un) 505**]
 PNEUMOTHORAX, OTHER (NOT HOSPITAL ACQUIRED OR TRAUMATIC)
   Pigtail in place
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Heparin Induced Thrombocytopenia
   On Fondaparinux
 TACHYCARDIA, OTHER
   Improved after chest tube placement
 PULMONARY EMBOLISM (PE), ACUTE
   Fondaparinux
 ANEMIA, OTHER
   Stable Hct
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2133-1-13**] 09:48 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: Fondaparinux)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 30 minutes

2133-02-02 06:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Constipated, got bowel regimen and then enema.
   Pt feeling more comfortable since BM, still having some cough but no
   hemoptysis.  Breathing is comfortable, no abd pain/CP.   Legs
   uncomfortable due to edema. Waiting on transfer plans.
   History obtained from Patient
   Allergies:
   All Heparin Agents- HITS
   Last dose of Antibiotics: none
   Infusions: none
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2133-2-1**] 09:11 AM
   Fondaparinux - [**2133-2-1**] 12:49 PM
   Other medications:
   Senna, Colace, Bisacodyl, Lactulose, Oxycodone
   Review of systems is unchanged from admission except as noted below
   Flowsheet Data as of  [**2133-2-2**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.4
C (97.5
   HR: 107 (99 - 124) bpm
   BP: 101/69(76) {93/58(67) - 116/69(80)} mmHg
   RR: 24 (19 - 32) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 112 kg (admission): 91.5 kg
   Height: 65 Inch
             Total In:
                                                                  1,921 mL
                                                                    132 mL
   PO:
                                                                    940 mL
             TF:
   IVF:
                                                                    456 mL
                                                                    132 mL
   Blood products:
   Total out:
                                                                    460 mL
                                                                    260 mL
   Urine:
                                                                    460 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,461 mL
                                                                   -128 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Spontaneous): 276 (276 - 439) mL
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 70%
   PIP: 0 cmH2O
   SpO2: 99%
   ABG: ////
   Ve: 10.2 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, trach collar
   CV: mildly tachy, RR no m/r/g apprec
   Respiratory / Chest: Symmetric expansion, bronchial BS, some insp/exp
   wheezes, moving air well
   Abd: soft, NT/ND, BS present
   Extremities: Right: 3+, Left: 3+ pitting edema
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, appropriate
   Labs / Radiology
   CXR [**2133-2-1**]:
   Small left pneumothorax may be present, but not appreciably changed.
   Subcutaneous emphysema in the adjacent left chest wall is stable.  Left
   pleural catheter unchanged in position.  Aside from the large masses in
    both
   lungs, the lungs are grossly clear.  Heart size normal.  Tracheostomy t
   ube in
   standard placement.  No right pleural abnormality.
   CXR [**2133-2-2**]:
   In comparison with the study of [**2-1**], there again appears to be a
   small apical pneumothorax on the left.  Subcutaneous emphysema along th
   e left
   lateral chest wall persists.  The large masses are again seen within bo
   th
   lungs.  Tracheostomy tube remains in place.
   381 K/uL
   7.3 g/dL
   120 mg/dL
   0.8 mg/dL
   25 mEq/L
   4.0 mEq/L
   14 mg/dL
   101 mEq/L
   135 mEq/L
   23.5 %
   4.4 K/uL
        [image002.jpg]
                             [**2133-1-24**]  04:44 AM
                             [**2133-1-25**]  05:25 AM
                             [**2133-1-26**]  04:25 AM
                             [**2133-1-27**]  05:24 AM
                             [**2133-1-28**]  04:47 AM
                             [**2133-1-29**]  04:00 AM
                             [**2133-1-30**]  06:45 AM
                             [**2133-1-31**]  06:07 AM
                             [**2133-2-1**]  04:59 AM
                             [**2133-2-2**]  05:37 AM
   WBC
   4.6
   3.4
   3.2
   3.0
   3.3
   3.7
   3.5
   2.8
   3.9
   4.4
   Hct
   22.6
   21.4
   22.9
   22.9
   21.6
   21.3
   21.8
   23.7
   21.8
   23.5
   Plt
   75
   79
   124
   170
   227
   292
   [**Telephone/Fax (2) 1141**]81
   Cr
   1.1
   1.0
   1.0
   1.0
   0.9
   0.9
   0.9
   0.8
   0.8
   Glucose
   113
   715
   126
   140
   105
   85
   124
   93
   120
   Other labs: PT / PTT / INR:14.1/32.4/1.2, Differential-Neuts:78.7 %,
   Band:0.0 %, Lymph:13.8 %, Mono:4.3 %, Eos:3.0 %, Fibrinogen:618 mg/dL,
   Lactic Acid:3.6 mmol/L, Ca++:9.2 mg/dL, Mg++:1.8 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   57 y/o F with metastatic mesonephric cervical cancer, extensive lung
   metastases, bilateral PEs presented with resp failure now s/p trach and
   planning for transfer to [**State 418**] Presbyterian for palliative chemo.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]): Pt p/w resp failure [**1-10**]
   extensive bilateral pulm metastases, PEs and likely obstructive PNA.
   -Resp status now stabilized s/p trach, pt tolerating well and
   maintaining sats with 70% FiO2
   -Pt noted to have bilateral PEs on adm, pt not a candidate for systemic
   anti-coag due to metastases abutting pulm artery and high risk for
   tumor hemorrhage.  Developped HITs to prophylactic Heparin, now on
   Fondaparinux
 CANCER (MALIGNANT NEOPLASM), GYNECOLOGICAL (OVARIAN, UTERINE,
   CERVICAL, ENDOMETRIAL):
   - extensive disease and bilateral pulm mets, pt wanting additional
   chemo, case management assisting with plan for transfer of care to NY
   Presbyterian tomorrow.
 PNEUMOTHORAX, OTHER (NOT HOSPITAL ACQUIRED OR TRAUMATIC):
   -Left apical PTX and subcutaneous emphysema still present of CXR today,
   likely due to tumor creating fistulous tract.
   -Left Chest tube placed to suction, will d/w IP re possibility for
   clamping prior to transfer
HEM/ONC :
   Pt developed Heparin Induced Thrombocytopenia on heparin sc ppx, now on
   Fondaparinux
   -plts at 381, Fibrinogen > 600, all coags stabilized, no evidence of
   new thrombosis
   -avoid all heparin products
 TACHYCARDIA: did not respond to volume or blood products, thought
   likely [**1-10**] PTX
   - Improved after chest tube placement, stable at 100-110s.  Avoid IVF
   due to massive extravasc vol overload.
 PULMONARY EMBOLISM (PE), ACUTE:
   - not a candidate for systemic anti-coag due to high risk of bleeding.
 ANEMIA
   - compensated & stable at 23, tachycardia did not respond to blood
   products, monitoring hct daily
Leukopenia: stable, not neutropenic, continue to monitor
Lower extremity edema: due to volume overload & possible clot in IVC
   filter.  BPs marginal, pre load dependant, unlikely to tolerate
   diuresis.  Renal function normal, holding diuresis for now for risk of
   complications & plan for transfer in am
   ICU Care
   Nutrition: TF & soft diet
   Glycemic Control:  SSI
   Lines: PICC Line - [**2133-1-13**] 09:48 PM
   Prophylaxis:
   DVT: Fondaparinux
   Stress ulcer: PPI
   Communication:
   Code status: DNR (do not resuscitate)
   Disposition: to NY presbyterian for palliative chemo in am

2133-02-02 13:37:00 Physician Attending Progress Note
Chief Complaint:  respiratory failure, PEs and PNX
   57 yo F with metastatic cervical ca with extensive lung involvement,
   respiratory failure from  PE's course further c/b  HIT and L pnx with
   BPF, CT in place s/p trach
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   c/o constipation--had BM with improved comfort
   Allergies:
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
    PMH, SH, FH and ROS are unchanged from admission except where noted
   above
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-2-2**] 12:59 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.6
C (96
   HR: 108 (99 - 124) bpm
   BP: 107/69(77) {101/58(70) - 116/69(80)} mmHg
   RR: 25 (21 - 32) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 112 kg (admission): 91.5 kg
   Height: 65 Inch
             Total In:
                                                                  1,921 mL
                                                                    204 mL
   PO:
                                                                    940 mL
             TF:
   IVF:
                                                                    456 mL
                                                                    204 mL
   Blood products:
   Total out:
                                                                    460 mL
                                                                    320 mL
   Urine:
                                                                    460 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,461 mL
                                                                   -116 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Spontaneous): 276 (276 - 439) mL
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 70%
   PIP: 0 cmH2O
   SpO2: 97%
   ABG: ///27/
   Ve: 10.2 L/min
   Physical Examination
   Gen appearance:  WDWN, obese F
   EYES/conjunctiva:  PEERLA
   THROAT/neck:  MMM, trach site clean/d/I
   Lymphatics:  cervical and supraclavicular LAD WNL
   Lungs:  L with  decreased BS, coarse, sym chest expansion
   Cardiac:  normal s1 s2 tachy
   ABD:  + BS, obese, soft, NT
   Peripheral Vascular: (Right radial pulse: present), (Left radial pulse:
   present), (Right DP pulse::  present), (Left DP pulse: present
   Extremities: Right: 3+, Left: 3+, No(t) Cyanosis, No(t) Clubbing
   Skin:  pale, without jaundice or rash
   Neurologic: alert and oriented, follows commands
   Labs / Radiology
   7.3 g/dL
   381 K/uL
   112 mg/dL
   0.9 mg/dL
   27 mEq/L
   4.3 mEq/L
   12 mg/dL
   100 mEq/L
   133 mEq/L
   23.5 %
   4.4 K/uL
        [image002.jpg]
                             [**2133-1-24**]  04:44 AM
                             [**2133-1-25**]  05:25 AM
                             [**2133-1-26**]  04:25 AM
                             [**2133-1-27**]  05:24 AM
                             [**2133-1-28**]  04:47 AM
                             [**2133-1-29**]  04:00 AM
                             [**2133-1-30**]  06:45 AM
                             [**2133-1-31**]  06:07 AM
                             [**2133-2-1**]  04:59 AM
                             [**2133-2-2**]  05:37 AM
   WBC
   4.6
   3.4
   3.2
   3.0
   3.3
   3.7
   3.5
   2.8
   3.9
   4.4
   Hct
   22.6
   21.4
   22.9
   22.9
   21.6
   21.3
   21.8
   23.7
   21.8
   23.5
   Plt
   75
   79
   124
   170
   227
   292
   [**Telephone/Fax (2) 1141**]81
   Cr
   1.1
   1.0
   1.0
   1.0
   0.9
   0.9
   0.9
   0.8
   0.8
   0.9
   Glucose
   113
   715
   126
   140
   105
   85
   124
   93
   120
   112
   Other labs: PT / PTT / INR:14.1/32.4/1.2, Differential-Neuts:78.7 %,
   Band:0.0 %, Lymph:13.8 %, Mono:4.3 %, Eos:3.0 %, Fibrinogen:618 mg/dL,
   Lactic Acid:3.6 mmol/L, Ca++:9.2 mg/dL, Mg++:2.0 mg/dL, PO4:3.4 mg/dL
   Imaging: extensive lung masses, small L apical pnx with ct in place, L
   sq air small amt, trach in airway, no sig change from prior
   Assessment and Plan:  57 yo F with metastatic cervical adeno ca with
   diffuse lung involvement with resp failure from PE
s course c/b HIT,
   pnx/BPF with ct in place s/p trach
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
remains stable on trach
   collar, comfortable appearing
 CANCER (MALIGNANT NEOPLASM), GYNECOLOGICAL (OVARIAN, UTERINE,
   CERVICAL, ENDOMETRIAL)
continuing arrangements for transfer to [**Location (un) 505**]  for
   salvage chemotherapy
 PNEUMOTHORAX, OTHER (NOT HOSPITAL ACQUIRED OR TRAUMATIC)
pigtail
   catheter in place-- remains to suction, small apical pnx remains, given
   BPF will likely continue with sx needs, will discuss with IP
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Heparin Induced Thrombocytopenia
on fondaparinux
 TACHYCARDIA, OTHER
   Improved after chest tube placement,
   Has known PE
s with large lung tumor burden, has not improved after
   blood transfusions and remains with stable though anemic h/h
 PULMONARY EMBOLISM (PE), ACUTE
high risk for treatment with
   anticoagulation given extensive lung tumor burden and tumor erosion to
   bronchus, fundaparinux for HIT
 ANEMIA, OTHER
hct remains stable
   # anasarca
remains with u/o and stable oxygenation and b/l BP
holding
   on diuresis at this time
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2133-1-13**] 09:48 PM
   Prophylaxis:
   DVT: fundaparinux
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition : continue arrangements for transfer to [**Location (un) 505**] for salvage
   chemo
   Total time spent:

2133-02-03 07:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - films ordered will not be ready until wednesday
   - pt scheduled for transfer to [**Male First Name (un) 1174**] tomorrow
   - chest tube switched to water seal
   - repeat CXR no increase in size of PTX
   S: Pt doing okay this am, breathing comfortably, no CP/ABD pain.  Had
   difficultly sleeping.
   Lower extremities tight & mildly uncomfortable.
   Allergies:
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   senna, colace, bisacodyl, enema prn, Alb/Atrovent nebs, Lactulose,
   Fondaparinux, oxycodone
   Other medications:
   Flowsheet Data as of  [**2133-2-3**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36
C (96.8
   HR: 98 (98 - 118) bpm
   BP: 97/64(72) {97/62(72) - 112/69(77)} mmHg
   RR: 23 (21 - 34) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 112 kg (admission): 91.5 kg
   Height: 65 Inch
             Total In:
                                                                  1,201 mL
                                                                    150 mL
   PO:
                                                                    720 mL
             TF:
   IVF:
                                                                    481 mL
                                                                    150 mL
   Blood products:
   Total out:
                                                                    695 mL
                                                                    205 mL
   Urine:
                                                                    695 mL
                                                                    145 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    506 mL
                                                                    -55 mL
   Respiratory support
   Ventilator mode: Standby
   Vt (Spontaneous): 276 (276 - 276) mL
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 0 cmH2O
   SpO2: 99%
   ABG: ///28/
   Physical Examination
   GEN: NAD, no resp distress
   HEENT: trach inplace
   CV: mildly tachy, RR, no m/r/g
   RESP: Left lung field CTA, right lung with insp/expiratory stridorous
   BS, but moving air well
   ABD: soft, NT/ND, NABS
   EXTR: [**1-11**]+ pitting edema bilaterally, no skin breakdn
   Neuro: AXO
   Labs / Radiology
   301 K/uL
   7.1 g/dL
   93 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.8 mEq/L
   10 mg/dL
   101 mEq/L
   135 mEq/L
   22.1 %
   4.2 K/uL
        [image002.jpg]
                             [**2133-1-25**]  05:25 AM
                             [**2133-1-26**]  04:25 AM
                             [**2133-1-27**]  05:24 AM
                             [**2133-1-28**]  04:47 AM
                             [**2133-1-29**]  04:00 AM
                             [**2133-1-30**]  06:45 AM
                             [**2133-1-31**]  06:07 AM
                             [**2133-2-1**]  04:59 AM
                             [**2133-2-2**]  05:37 AM
                             [**2133-2-3**]  06:00 AM
   WBC
   3.4
   3.2
   3.0
   3.3
   3.7
   3.5
   2.8
   3.9
   4.4
   4.2
   Hct
   21.4
   22.9
   22.9
   21.6
   21.3
   21.8
   23.7
   21.8
   23.5
   22.1
   Plt
   79
   124
   170
   227
   292
   [**Telephone/Fax (2) 1141**]81
   301
   Cr
   1.0
   1.0
   1.0
   0.9
   0.9
   0.9
   0.8
   0.8
   0.9
   0.8
   Glucose
   [**Telephone/Fax (3) 1063**]05
   85
   124
   93
   120
   112
   93
   Other labs: PT / PTT / INR:14.1/32.4/1.2, Differential-Neuts:78.7 %,
   Band:0.0 %, Lymph:13.8 %, Mono:4.3 %, Eos:3.0 %, Fibrinogen:618 mg/dL,
   Lactic Acid:3.6 mmol/L, Ca++:9.1 mg/dL, Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   CXR from [**2133-2-2**]  2pm (after clamping chest tube)
   Comparison is made to earlier in the same day.  A
   pleural catheter in the left hemithorax is unchanged.  The patient is s
   tatus
   post tracheostomy.  Multiple large bilateral pulmonary masses are again
   present with similar partial left lower lobe atelectasis.  No evidence
   of
   pneumothorax or pleural effusion.  Subcutaneous air about the left ches
   t wall
   is unchanged in extent.
   IMPRESSION:  No evidence of persistent pneumothorax.
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 CANCER (MALIGNANT NEOPLASM), GYNECOLOGICAL (OVARIAN, UTERINE,
   CERVICAL, ENDOMETRIAL)
 PNEUMOTHORAX, OTHER (NOT HOSPITAL ACQUIRED OR TRAUMATIC)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Heparin Induced Thrombocytopenia
 TACHYCARDIA, OTHER
   Improved after chest tube placement
 PULMONARY EMBOLISM (PE), ACUTE
 ANEMIA, OTHER
   ICU Care
   Nutrition: Soft mechanical diet with supplemental TF
   Glycemic Control:  ISS
   Lines:
   PICC Line - [**2133-1-13**] 09:48 PM
   Prophylaxis:
   DVT:  Fondaparinux
   Stress ulcer: PPI
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: transfer to NY presbyterian today

2133-02-03 10:14:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   * Chest tube placed to water seal. Repeat CXR no re-expansion of PTX.
   * Bed available at [**Hospital **] [**Hospital 918**] Hosp.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2133-2-3**] 10:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36
C (96.8
   HR: 108 (98 - 117) bpm
   BP: 97/64(72) {97/62(72) - 112/69(77)} mmHg
   RR: 25 (23 - 34) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 112 kg (admission): 91.5 kg
   Height: 65 Inch
             Total In:
                                                                  1,201 mL
                                                                    199 mL
   PO:
                                                                    720 mL
             TF:
   IVF:
                                                                    481 mL
                                                                    199 mL
   Blood products:
   Total out:
                                                                    695 mL
                                                                    205 mL
   Urine:
                                                                    695 mL
                                                                    145 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    506 mL
                                                                     -6 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Spontaneous): 276 (276 - 276) mL
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 0 cmH2O
   SpO2: 93%
   ABG: ///28/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: tracheostomy
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   focal ronchi on R), Chest tube to water seal
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 3+, Left: 3+, Cyanosis
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   7.1 g/dL
   301 K/uL
   93 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.8 mEq/L
   10 mg/dL
   101 mEq/L
   135 mEq/L
   22.1 %
   4.2 K/uL
        [image002.jpg]
                             [**2133-1-25**]  05:25 AM
                             [**2133-1-26**]  04:25 AM
                             [**2133-1-27**]  05:24 AM
                             [**2133-1-28**]  04:47 AM
                             [**2133-1-29**]  04:00 AM
                             [**2133-1-30**]  06:45 AM
                             [**2133-1-31**]  06:07 AM
                             [**2133-2-1**]  04:59 AM
                             [**2133-2-2**]  05:37 AM
                             [**2133-2-3**]  06:00 AM
   WBC
   3.4
   3.2
   3.0
   3.3
   3.7
   3.5
   2.8
   3.9
   4.4
   4.2
   Hct
   21.4
   22.9
   22.9
   21.6
   21.3
   21.8
   23.7
   21.8
   23.5
   22.1
   Plt
   79
   124
   170
   227
   292
   [**Telephone/Fax (2) 1141**]81
   301
   Cr
   1.0
   1.0
   1.0
   0.9
   0.9
   0.9
   0.8
   0.8
   0.9
   0.8
   Glucose
   [**Telephone/Fax (3) 1063**]05
   85
   124
   93
   120
   112
   93
   Other labs: PT / PTT / INR:14.1/32.4/1.2, Differential-Neuts:78.7 %,
   Band:0.0 %, Lymph:13.8 %, Mono:4.3 %, Eos:3.0 %, Fibrinogen:618 mg/dL,
   Lactic Acid:3.6 mmol/L, Ca++:9.1 mg/dL, Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Imaging: Stable CXR, no re-expansion of PTX on left, still mild
   subcutaneous emphysema.
   Microbiology: No new data
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]): Secondary to multiple
   pulmonary metastases, pneumothorax. Doing well on trach mask.
   - Continue trach mask with PMV
 CANCER (MALIGNANT NEOPLASM), GYNECOLOGICAL (OVARIAN, UTERINE,
   CERVICAL, ENDOMETRIAL): Plan is for transfer today to [**Hospital **] [**Hospital 918**]
   Hospital, where she will receive palliative chemotherapy.
 PNEUMOTHORAX, OTHER (NOT HOSPITAL ACQUIRED OR TRAUMATIC): Stable on
   water seal. She has necrosis of several of her lung masses which likely
   have created bronchopleural fistulae.  Previously recurred after
   clamping chest tube.
   - Continue on water seal for now. Will need to have trial of tube
   clamping after transfer.
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Heparin Induced Thrombocytopenia: On low-dose fondaparinux.
 TACHYCARDIA, OTHER
   Improved after chest tube placement
 PULMONARY EMBOLISM (PE), ACUTE. Anticoagulation not at therapeutic
   dose given bleeding risk from tumor burden.
 ANEMIA, OTHER: Stable.
   Remainder of issues discussed with housestaff, and I agree with their
   assessment and plans.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2133-1-13**] 09:48 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Other, Fondaparinux)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   prior to transfer
   Code status: DNR (do not resuscitate)
   Disposition :Transfer to other facility
   Total time spent:  45
   Patient is critically ill